2134-05-06 22:55:00 Physician Attending Progress Note
Chief Complaint: listerosis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M admitted [**5-3**] with diarrhea, lethargia, HA, unsteady gait, chills.
   Had eaten possibly spoiled cheese dip just prior to illness. In ER,
   temp 101, started on 3 antibiotics. The following day developed shock
   and respiratory failure. Troponin climbed to 16 and echo showed EF 15%.
   Blood cultures grew listeria. Creatinine and LFTs rising. Abd CT showed
   ascites, paracentesis negative, also RLL infiltrate and bilateral
   effusions.   Pressors are now off.
   24 Hour Events:
                              Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   DM
   cirrhosis - cryptogenic versus EtOH
   varices - banded 2 mos ago
   DM2
   HTN
   tics
   s/p appy
   + PPD
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Genitourinary: Foley
   Flowsheet Data as of  [**2134-5-6**] 10:55 PM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.2
C (97.2
   HR: 95 (95 - 97) bpm
   BP: 108/78(84) {107/78(84) - 108/80(87)} mmHg
   RR: 31 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
             Total In:
             100 mL
   PO:
             TF:
   IVF:
   100 mL
   Blood products:
   Total out:
                                                                      0 mL
                                                                     15 mL
   Urine:
   15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                      0 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 605 (605 - 605) mL
   PS : 14 cmH2O
   RR (Spontaneous): 20
   PEEP: 5 cmH2O
   FiO2: 100%
   SpO2: 96%
   ABG: ///10/
   Ve: 13.5 L/min
   Physical Examination
   Eyes / Conjunctiva: PERRL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : )
   Abdominal: Soft, No(t) Distended
   Extremities: Right: Absent, Left: Absent, Cyanosis
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: Purposeful, Tone:
   Not assessed
   Labs / Radiology
   12.9 g/dL
   74 K/uL
   140 mg/dL
   4.2 mg/dL
   10 mEq/L
   84 mg/dL
   38.9 %
   10.9 K/uL
        [image002.jpg]
                             [**2134-5-6**]  09:30 PM
   WBC
   10.9
   Hct
   38.9
   Plt
   74
   Cr
   4.2
   Glucose
   140
   Other labs: PT / PTT / INR:24.3/44.1/2.4, ALT / AST:1050/[**2118**], Alk Phos
   / T Bili:93/2.9, Differential-Neuts:89.8 %, Lymph:5.7 %, Mono:4.1 %,
   Eos:0.1 %, Lactic Acid:6.1 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:7.6 mg/dL
   Fluid analysis / Other labs: lactate 6
   Imaging: CXR ETT OK, otherwise unremarkable
   reports from CCH in housestaff note
   Assessment and Plan
   complete note lost by metavision
   i have reviewed and discussed the extensive details of the case with
   Dr. [**Last Name (STitle) 3900**] and concur with the plan as stated in his note. Briefly
   we will continue the antibiotics, vent support and management of his
   renal failure, liver failure, cardiomyoppathy and cardiac ischemia.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 37 minutes
   Patient is critically ill

2134-05-07 07:40:00 Physician Resident Progress Note
Chief Complaint: lethargy, headache, diarrhea, confusion
   76M with DM and cirrhosis with listeriosis
   24 Hour Events:
 MULTI LUMEN - START [**2134-5-6**] 08:40 PM
   Placed in OSH
 EKG - At [**2134-5-7**] 12:15 AM
   Minimal urine output overnight, without significant response to IVF
   No pressor requirements
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-7**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Ampicillin
   SS Insulin
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Pain: Unable to answer, intubated
   Flowsheet Data as of  [**2134-5-7**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 95 (92 - 97) bpm
   BP: 111/78(86) {107/64(74) - 117/83(90)} mmHg
   RR: 28 (19 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    340 mL
                                                                  1,658 mL
   PO:
           150 mL
   TF:
   IVF:
                                                                    340 mL
                                                                  1,188 mL
   Blood products:
   200 mL
   Total out:
                                                                     15 mL
                                                                    557 mL
   Urine:
                                                                     15 mL
                                                                     57 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                    325 mL
                                                                  1,101 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 840 (605 - 840) mL
   PS : 18 cmH2O
   RR (Spontaneous): 30
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 29 cmH2O
   SpO2: 96%
   ABG: 7.39/19/204/7/-10
   Ve: 19.9 L/min
   PaO2 / FiO2: 510
   Physical Examination
   Intubated and sedated
   PEARL, with slight rightward deviation, + dolls eyes
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally on anterior exam
   Abd soft nontender +bowel sounds
   Extrem feet warmer today though still cool compared to arms, palpable
   radial pulses
   Derm no rash
   R groin line in place
   Foley with minimal amounts of dark yellow urine
   Labs / Radiology
   81 K/uL
   11.9 g/dL
   213 mg/dL
   4.7 mg/dL
   7 mEq/L
   5.3 mEq/L
   91 mg/dL
   104 mEq/L
   137 mEq/L
   37.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2134-5-6**]  09:30 PM
                             [**2134-5-6**]  11:50 PM
                             [**2134-5-7**]  02:59 AM
                             [**2134-5-7**]  04:45 AM
                             [**2134-5-7**]  05:12 AM
   WBC
   10.9
   9.0
   Hct
   38.9
   37.2
   Plt
   74
   81
   Cr
   4.2
   4.7
   TCO2
   11
   12
   12
   Glucose
   140
   213
   Other labs: PT / PTT / INR:26.8/49.1/2.7, ALT / AST:[**Telephone/Fax (1) 6380**], Alk Phos
   / T Bili:77/2.9, Differential-Neuts:89.8 %, Lymph:5.7 %, Mono:4.1 %,
   Eos:0.1 %, Lactic Acid:6.2 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:7.4 mg/dL
   Micro
   [**5-6**] blood cx NGTD
   [**5-6**] urine cx NGTD
   Assessment and Plan
   This 76M with DM and cirrhosis presented to an OSH in septic shock,
   likely secondary to listeriosis.
   .
   *. Listeriosis, with bacteremia and septic shock.  Likely from
   meningitis as presented w/ HA and lethargy.  Clinically improved, now
   off pressors.  At risk for brain abscesses but head CT yesterday w/o
   abscess.  No need for LP as would not change management at this point.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH
   - Continue ampicilin dose for Cr clearance. Holding on aminoglycoside
   given renal failure
   .
   *. Acute renal failure
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   - Check urine lytes, urinalysis
   - Spin urine in AM
   - Follow Cr daily, renally doses meds, holding diuretics
   - Continue bicarb, per d/w renal
   - Renal ultrasound
   - Renal consult pending
   .
   *. Transaminitis with history of cirrhosis
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - RUQ ultrasound with dopplers
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Discuss with liver team
   .
   *. Troponin leak
   Probably due to demand ischemia in setting of acute illness rather than
   a primary plaque rupture event. Both troponin elevation and depressed
   EF can be seen in setting of sepsis alone, however.
   - Continue ASA, would start low dose BB as BP tolerates
   - Repeat EKG here, monitor on telemetry
   - Repeat TTE here should also get repeat post resolution of acute
   illness
   .
   *. Tachyarrhythmia
   Pt had run of likely NSVT last evening, maintained BP at the time.
   Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry and will start low dose metoprolol
   *. Altered mental status
   DDx includes worsening CNS infection given concern for listeria
   meningitis. Other possibilities include delirium in setting of system
   illness, hepatic encephalopathy, uremia, med toxicity
   - Reassess mental status with weaning of sedation
   - Low threshold for MRI head r/o abscess if focal neuro findings (will
   hold for now)
   - Lactulose TID
   - Discuss ?HD with renal, as above
   .
   * Respiratory failure
   Cause of his SOB at other hospital uncertain ?pulmonary edema related
   to MI, breathing off acidosis in setting of sepsis. Think pna less
   likely air bronchograms at OSH more likely [**1-25**] effusion.
   Gas c/w metabolic acidosis, breathing off lactate.
   - Increase PEEP given effusions, ascites. Will continue PSV, titrating
   up pressure this evening as needed.
   .
   * Cool lower extremities
   Improved today. Might be due to vasopressor use. Might have underlying
   PVD also.
   - Follow clinically, doppler exams
   .
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   .
   *. HTN
   - Hold home antihypertensives in setting of sepsis
   ICU Care
   Nutrition: Will start TF today
   Glycemic Control:  Comments: humalog sliding scale, tighten today
   Lines:
   Multi Lumen - [**2134-5-6**] 08:40 PM
   Comments: place new central line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2134-05-07 08:35:00 Physician Attending Progress Note
I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note, including assessment and plan as detailed in my note below.
   Chief Complaint: Sepsis/ARF/Shock Liver and MI
   HPI: 76M pmh sig for ETOH,  Cirrhosis, DM oral control and HTN admitted
   [**5-3**] with diarrhea, lethargia, HA, unsteady gait, chills. Had eaten
   possibly spoiled cheese dip just prior to illness. In ER, temp 101,
   started on 3 antibiotics. The following day developed shock and
   respiratory failure. Troponin climbed to 16 and echo showed EF 15%.
   Blood cultures grew listeria. Creatinine and LFTs rising. Abd CT showed
   ascites, paracentesis negative, also RLL infiltrate and bilateral
   effusions.   Pressors are now off.
   24 Hour Events:
   No changes Head CT final read pending
   -Run wide complex tachycardia resolved spontaneously
 MULTI LUMEN - START [**2134-5-6**] 08:40 PM
   Placed in OSH
 EKG - At [**2134-5-7**] 12:15 AM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-7**] 06:00 AM
   Infusions:
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Other medications:
   chlorhex
   folic acid
   MVI
   thiamine
   RISS
   albumin
   asa
   lactulose
   PPI
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-7**] 08:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 36.6
C (97.8
   HR: 95 (92 - 97) bpm
   BP: 114/85(92) {107/64(74) - 117/85(92)} mmHg
   RR: 18 (18 - 42) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
           Total In:
                                                                    340 mL
                                                                  1,681 mL
   PO:
           150 mL
   TF:
   IVF:
                                                                    340 mL
                                                                  1,211 mL
   Blood products:
   200 mL
   Total out:
                                                                     15 mL
                                                                    567 mL
   Urine:
                                                                     15 mL
                                                                     67 mL
   NG:
   Stool:
   500 mL
   Drains:
   Balance:
                                                                    325 mL
                                                                  1,114 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 889 (605 - 889) mL
   PS : 18 cmH2O
   RR (Spontaneous): 16
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI Deferred: PEEP > 10
   PIP: 26 cmH2O
   SpO2: 96%
   ABG: 7.39/19/204/7/-10
   Ve: 15.5 L/min
   PaO2 / FiO2: 510
   Gen:Intubated, sedated, unresponsive
   HEENT:Dysconjugate gaze, PERRL
   Heart:RRR s1s2
   Lungs: CTA bilaterally anteriorly
   Abd:Soft +BS
   Ext:Cold and cyanotic feet yesterday improved today.
   Neuro:toes upgoing, unresponsive
   Labs / Radiology: Chest ETT in place no focal infiltrates.
   11.9 g/dL
   81 K/uL
   213 mg/dL
   4.7 mg/dL
   7 mEq/L
   5.3 mEq/L
   91 mg/dL
   104 mEq/L
   137 mEq/L
   37.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2134-5-6**]  09:30 PM
                             [**2134-5-6**]  11:50 PM
                             [**2134-5-7**]  02:59 AM
                             [**2134-5-7**]  04:45 AM
                             [**2134-5-7**]  05:12 AM
   WBC
   10.9
   9.0
   Hct
   38.9
   37.2
   Plt
   74
   81
   Cr
   4.2
   4.7
   TCO2
   11
   12
   12
   Glucose
   140
   213
   Other labs: PT / PTT / INR:26.8/49.1/2.7, ALT / AST:[**Telephone/Fax (1) 6380**], Alk Phos
   / T Bili:77/2.9, Differential-Neuts:89.8 %, Lymph:5.7 %, Mono:4.1 %,
   Eos:0.1 %, Lactic Acid:6.2 mmol/L, Ca++:8.0 mg/dL, Mg++:2.4 mg/dL,
   PO4:7.4 mg/dL
   Assessment and Plan
   This 76M with DM and cirrhosis presented to an OSH in septic shock,
   likely secondary to listeriosis.
   *. Listeriosis, with bacteremia and septic shock
   Clinically improved, now off pressors. In setting of headaches
   meningitis is in the differential
   - f/u repeat cx, follow up head CT in 48 hrs
   -Change out lines
   - Continue ampicilin at meningitis dosing.
   *. Acute renal failure- DDx includes ATN in setting of sepsis and
   recent vol depletion from diarrhea. Also consider HRS given cirrhosis.
   -renal consult :dialysis / CVVH today
   -Getting 1L fluid with Bicab will follow response and will bolus with
   NS.
   - Spin urine in AM
   - Follow Cr daily, renally doses meds, holding diuretics
   - Continue bicarb, per d/w renal
   - Renal ultrasound
   *. Transaminitis with history of cirrhosis
   In setting of sepsis consider shock liver. DDx includes med toxicity,
   hepatic congestion in setting of low EF. Acute infectious hepatitis
   less likely.
   - RUQ ultrasound with dopplers
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Discuss with liver team
   * MI/Depressed EF
   -Concerning for MI or possible demand
   -Repeat TTE to assess EF and for focal wall motion abnormalities
   - Continue ASA, would start low dose BB as BP tolerates
   - Repeat EKG here, monitor on telemetry.
   *. Altered mental status
   DDx includes worsening CNS infection given concern for listeria
   meningitis. Other possibilities include delirium in setting of system
   illness, hepatic encephalopathy, uremia, med toxicity
   - Reassess mental status with weaning of sedation
   - Low threshold for MRI head r/o abscess
   - Lactulose TID
   Hold off LP since there  has been Rx for listeria for 4 days
   -
   * Respiratory failure
    -Continue respiratory support for acidosis
   - Increase PEEP given effusions, ascites. Will continue PSV, titrating
   up pressure this evening as needed.
   * Cool lower extremities
   Improved today. Might be due to vasopressor use. Might have underlying
   PVD also.
   - Follow clinically, doppler exams
   *.DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   *. HTN
   - Hold home antihypertensives in setting of sepsis
   ICU Care
   Nutrition: Start tube feeds
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-5-6**] 08:40 PM
   Prophylaxis:
   DVT: Start SQ heprin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition : ICU, family updated at bedside
   Total time spent:  55 mins

2134-05-08 07:23:00 Physician Resident Progress Note
Chief Complaint: Sepsis
   24 Hour Events:
   - RIJ, left radial art line and left femoral HD lines placed
   - CVVH started
   - Cardiology consulted for new anterior wall akinesis on ECHO w/
   recommendations for medical management for now (ASA, metoprolol)
   - Ampicillin dosing increased in frequency while in CVVH
   - New information that his ambulance from [**Hospital3 33**] Hospital had a minor
   accident while en-route but that he had suffered no trauma as a result
   - Seizures this morning that broke w/ ativan 4 mg X 1, recurrent
   seizure that stopped again with ativan 4 mg IV
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-8**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Metoprolol - [**2134-5-7**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-8**] 07:23 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 85 (77 - 95) bpm
   BP: 108/66(79) {91/56(67) - 109/68(9,381)} mmHg
   RR: 24 (16 - 47) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 23 (16 - 23)mmHg
   Total In:
                                                                  5,846 mL
                                                                    695 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  4,847 mL
                                                                    595 mL
   Blood products:
                                                                    669 mL
                                                                    100 mL
   Total out:
                                                                  1,775 mL
                                                                    878 mL
   Urine:
                                                                    203 mL
                                                                     85 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  4,071 mL
                                                                   -183 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 889 (889 - 889) mL
   PS : 18 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 60 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/24/113/12/-4
   Ve: 13.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   Intubated and sedated
   PEARL, with slight rightward deviation, + dolls eyes
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally on anterior exam
   Abd soft nontender +bowel sounds
   Extrem feet warmer today though still cool compared to arms, palpable
   radial pulses
   Derm no rash
   R groin line in place
   Foley with minimal amounts of dark yellow urine
   Labs / Radiology
   81 K/uL
   11.9 g/dL
   162 mg/dL
   4.2 mg/dL
   12 mEq/L
   4.3 mEq/L
   91 mg/dL
   108 mEq/L
   142 mEq/L
   37.2 %
   9.0 K/uL
        [image002.jpg]
                             [**2134-5-7**]  04:45 AM
                             [**2134-5-7**]  05:12 AM
                             [**2134-5-7**]  01:50 PM
                             [**2134-5-7**]  02:04 PM
                             [**2134-5-7**]  03:37 PM
                             [**2134-5-7**]  06:16 PM
                             [**2134-5-7**]  06:31 PM
                             [**2134-5-8**]  12:05 AM
                             [**2134-5-8**]  12:14 AM
                             [**2134-5-8**]  06:05 AM
   Cr
   4.5
   4.7
   4.2
   TCO2
   12
   12
   14
   12
   14
   16
   18
   Glucose
   194
   194
   162
   162
   Other labs: PT / PTT / INR:27.1/59.6/2.7, CK / CKMB /
   Troponin-T:148/7/1.53, ALT / AST:[**Telephone/Fax (1) 6380**], Alk Phos / T Bili:77/2.9,
   Differential-Neuts:89.8 %, Lymph:5.7 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:3.8 mmol/L, Ca++:7.9 mg/dL, Mg++:2.3 mg/dL, PO4:5.8 mg/dL
   Micro:
   Blood ([**5-6**]):  NGTD
   Assessment and Plan
   This 76M with DM and cirrhosis presented to an OSH in septic shock,
   likely secondary to listeriosis now w/ multiorgansystem failure and
   seizures.
   .
   *. Listeriosis, with bacteremia and septic shock.  Likely from
   meningitis as presented w/ HA and lethargy.  Clinically improved, now
   off pressors.  At risk for brain abscesses but head CT yesterday w/o
   abscess.  No need for LP as would not change management at this point.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH
   - Continue ampicilin dose for CVVH. Holding on aminoglycoside given
   renal failure
   * Anemia:  microcytic.  Acute 10 point drop in the setting of 3 L IVF
   yesterday.  No signs of GI bleed.  ? from DIC.
   - re-check and trend q 8 hrs for now
   - DIC labs
   .
   * Thrombocytopenia: Likely from cirrhosis.  No signs of bleeding
   currently.  ? from DIC.
   - check DIC labs
   .
   * Seizures: likely from meningitis.  Now stopped on propofol.
   Responded to ativan 4 mg IVP.
   - neuro consult
   - EEG
   .
   *. Acute renal failure: Most likely from ATN in the setting of
   hypotension.  Did not respond to 3L IVF yesterday and CVP was 20 after
   IJ placement.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now
   - appreciate continued renal input
   .
   *. Transaminitis with history of cirrhosis
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - RUQ ultrasound with dopplers
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Discuss with liver team
   .
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   Had elevated troponins here and at OSH probably due to demand ischemia
   in setting of acute illness rather than a primary plaque rupture event.
   Both troponin elevation and depressed EF can be seen in setting of
   sepsis alone, however.
   - Continue ASA, would start low dose BB as BP tolerates
   - Repeat EKG here, monitor on telemetry
   - Repeat TTE here should also get repeat post resolution of acute
   illness
   - appreciate CV input
   .
   *. Tachyarrhythmia
   Pt had run of likely NSVT last evening, maintained BP at the time.
   Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry and will start low dose metoprolol
   *. Altered mental status
   DDx includes worsening CNS infection given concern for listeria
   meningitis. Other possibilities include delirium in setting of system
   illness, hepatic encephalopathy, uremia, med toxicity or hypoxic
   encephalopathy.
   - Reassess mental status with weaning of sedation
   - Low threshold for MRI head r/o abscess if focal neuro findings (will
   hold for now)
   .
   * Respiratory failure: currently w/ minimal vent settings but cannot
   extubate given mental status.  Initial cause of respiratory failure
   unclear but CXR w/o obvious pulmonary process.
   .
   * Cool lower extremities
   Improved today. Might be due to vasopressor use. Might have underlying
   PVD also.
   - Follow clinically, doppler exams
   .
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   .
   *. HTN
   - Hold home antihypertensives in setting of sepsis
   ICU Care
   Nutrition: Will start TF today
   Glycemic Control:  Comments: humalog sliding scale, tighten today
   Lines:
   Multi Lumen - [**2134-5-6**] 08:40 PM
   Comments: place new central line
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2134-05-08 09:20:00 Physician Attending Progress Note
Chief Complaint: listeria bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with listeria bacteremia, poor mental status, with seizure this am:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2134-5-7**] 10:35 AM
 ARTERIAL LINE - START [**2134-5-7**] 01:41 PM
 MULTI LUMEN - START [**2134-5-7**] 02:19 PM
 MULTI LUMEN - STOP [**2134-5-7**] 08:00 PM
   Placed in OSH
 DIALYSIS CATHETER - START [**2134-5-7**] 09:17 PM
 DIALYSIS CATHETER - STOP [**2134-5-8**] 12:06 AM
 DIALYSIS CATHETER - START [**2134-5-8**] 12:35 AM
   Lines placed.
   Cards seen -- med mngmt of NSTEMI
   Amp dose increased.
   GTC seizure this am after suctioning this am.
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-8**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Metoprolol - [**2134-5-7**] 10:00 PM
   Other medications:
   asa, insulin, fa, lactulose, metopr iv, prop, ppi, thiamin
   Changes to medical and family history: none
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Gastrointestinal: Emesis
   Integumentary (skin): No(t) Rash
   Neurologic: Seizure, on rounds
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2134-5-8**] 09:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98
   Tcurrent: 35.6
C (96
   HR: 85 (77 - 94) bpm
   BP: 108/66(79) {91/56(67) - 109/68(9,381)} mmHg
   RR: 24 (16 - 47) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 23 (16 - 23)mmHg
   Total In:
                                                                  5,846 mL
                                                                    752 mL
   PO:
                                                                    150 mL
   TF:
   IVF:
                                                                  4,847 mL
                                                                    652 mL
   Blood products:
                                                                    669 mL
                                                                    100 mL
   Total out:
                                                                  1,775 mL
                                                                    878 mL
   Urine:
                                                                    203 mL
                                                                     85 mL
   NG:
   Stool:
                                                                  1,200 mL
   Drains:
   Balance:
                                                                  4,071 mL
                                                                   -126 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 51
   PIP: 17 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45 cmH2O/mL
   SpO2: 97%
   ABG: 7.46/24/113/17/-4
   Ve: 13.2 L/min
   PaO2 / FiO2: 283
   Physical Examination
   General Appearance: Well nourished, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, OG tube
   Cardiovascular: (PMI Hyperdynamic), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, No(t)
   Distended, Obese
   Extremities: Right: Trace, Left: Trace, No(t) Cyanosis, No(t) Clubbing
   Skin:  Warm, No(t) Rash:
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed,
   Sedated, No(t) Paralyzed, Tone: Not assessed; PERRL
   Labs / Radiology
   9.5 g/dL
   48 K/uL
   163 mg/dL
   4.1 mg/dL
   17 mEq/L
   3.7 mEq/L
   87 mg/dL
   106 mEq/L
   140 mEq/L
   28.6 %
   5.4 K/uL
        [image002.jpg]
   LABS:
                             [**2134-5-7**]  05:12 AM
                             [**2134-5-7**]  01:50 PM
                             [**2134-5-7**]  02:04 PM
                             [**2134-5-7**]  03:37 PM
                             [**2134-5-7**]  06:16 PM
                             [**2134-5-7**]  06:31 PM
                             [**2134-5-8**]  12:05 AM
                             [**2134-5-8**]  12:14 AM
                             [**2134-5-8**]  05:47 AM
                             [**2134-5-8**]  06:05 AM
   WBC
   5.4
   Hct
   28.6
   Plt
   48
   Cr
   4.5
   4.7
   4.2
   4.1
   TCO2
   12
   14
   12
   14
   16
   18
   Glucose
   194
   194
   162
   162
   163
   Other labs: PT / PTT / INR:27.1/59.6/2.7, CK / CKMB /
   Troponin-T:66/7/1.53, ALT / AST:417/492, Alk Phos / T Bili:56/3.5,
   Differential-Neuts:89.8 %, Lymph:5.7 %, Mono:4.1 %, Eos:0.1 %, Lactic
   Acid:3.8 mmol/L, Albumin:4.2 g/dL, Ca++:8.7 mg/dL, Mg++:2.3 mg/dL,
   PO4:5.4 mg/dL
   Imaging: tte - EF 15%; lines ok; tube high
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeria bacteremia on ampicillin, now with generalized
   tonic clonic seizure during rounds, broken with midazolam:
   SEIZURE: concern for meningitis vs w/l
   -check labs
   -prn benzos
   -neuro consult re utility of lp at this time, maganement, head ct and
   eeg
   ARF - likely atn at osh
   -cont cvvh for now
   -renal following
   -will avoid
   PANCYTOPENIA: esp dropping thrombocytopenia; likely baseline low plt
   from sequestration
   -monitor for bleeding
   -check DIC labs, incl smear
   COAGULOPATHY: concern for dic
   -labs and support
   SHOCK LIVER:
   -resolving, follow lfts
   RESP FAILURE: limiting factor is mental status
   -cont support
   -recheck abg
   -advance ett
   NSTEMI:
   -cont bb and
   HYPOTENSION: goal map 65
   -if drop more start levo
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-09 07:44:00 Physician Resident Progress Note
Chief Complaint: confusion, headache, diarrhea
   24 Hour Events:
   - Two seizures on AM rounds [**5-8**]; treated with lorazepam 4mg IV x2,
   then propofol
   - Posturing overnight
   - Labs consistent with DIC
   - CT scan head obtained to evaluate for head bleed; preliminarily
   negative
   - ETT advanced
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-9**] 02:31 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-8**] 08:20 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-9**] 07:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36
C (96.8
   Tcurrent: 35.3
C (95.6
   HR: 84 (73 - 132) bpm
   BP: 102/59(72) {83/55(65) - 133/113(121)} mmHg
   RR: 30 (18 - 66) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 23 (19 - 43)mmHg
   Total In:
                                                                  3,567 mL
                                                                  1,988 mL
   PO:
   TF:
   IVF:
                                                                  3,087 mL
                                                                  1,728 mL
   Blood products:
                                                                    300 mL
                                                                    200 mL
   Total out:
                                                                  3,231 mL
                                                                  2,590 mL
   Urine:
                                                                    175 mL
                                                                     45 mL
   NG:
   Stool:
                                                                    825 mL
   Drains:
   Balance:
                                                                    336 mL
                                                                   -602 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 17 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.53/21/198/18/-2
   Ve: 17.8 L/min
   PaO2 / FiO2: 495
   Physical Examination
   Intubated and sedated
   PEARL
   RIJ in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally on anterior exam
   Abd soft nontender +bowel sounds
   Extrem warm +anasarca +palpable pulses
   Toes upgoing bilaterally on plantar stimulation
   Foley with small amounts of urine, rectal bag with brown stool
   Labs / Radiology
   52 K/uL
   9.2 g/dL
   140 mg/dL
   3.0 mg/dL
   18 mEq/L
   3.4 mEq/L
   66 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   6.2 K/uL
        [image002.jpg]
                             [**2134-5-8**]  06:05 AM
                             [**2134-5-8**]  08:24 AM
                             [**2134-5-8**]  09:23 AM
                             [**2134-5-8**]  11:51 AM
                             [**2134-5-8**]  05:06 PM
                             [**2134-5-8**]  05:31 PM
                             [**2134-5-8**]  10:28 PM
                             [**2134-5-8**]  10:42 PM
                             [**2134-5-9**]  03:53 AM
                             [**2134-5-9**]  04:03 AM
   WBC
   5.5
   6.2
   6.2
   Hct
   27.6
   26.9
   26.8
   Plt
   55
   44
   52
   Cr
   3.9
   3.5
   3.0
   TCO2
   18
   14
   18
   19
   21
   18
   Glucose
   152
   139
   121
   140
   Other labs: PT / PTT / INR:27.8/61.4/2.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:417/492, Alk Phos / T Bili:56/3.5,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:105 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:4.2 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   CXR hilar fullness
   Micro
   [**5-3**] (OSH) listeria
   [**5-6**] blood cx NGTD
   [**5-6**] urine cx NGTD
   [**5-8**] CT head and neck (noncont)
   1. No acute intracranial hemorrhage.
   2. No large mass. The MR is more sensitive in the detection of small
   masses.
   3. Increased fluid within the left mastoid air cells, a nonspecific
   finding.
   Correlate clinically.
   1. No acute fracture. Degenerative changes predispose the patient to
   spinal
   cord injury with minor trauma. In the appropriate clinical setting (for
   example myelopathy), consider MR for further characterization.
   2. Smooth septal thickening suggests possible pulmonary edema.
   [**5-6**] abd u/s
   IMPRESSION:
   1. Micronodular hepatic architecture with no focal liver lesion
   identified.
   2. Sludge in the gallbladder but no gallstones, no signs of
   cholecystitis,
   and no biliary dilatation.
   3. Ascites.
   4. Splenomegaly.
   5. Patent hepatic vasculature with portal hypertension and a patent
   umbilical
   vein and some midline varices.
   6. No hydronephrosis.
   Assessment and Plan
   This 76M with DM and cirrhosis presented to an OSH in septic shock,
   likely secondary to listeriosis now w/ multiorgansystem failure and
   seizures.
   .
   *. Listeriosis, with bacteremia and septic shock.  Likely from
   meningitis as presented w/ HA and lethargy.  Clinically improved, now
   off pressors.  At risk for brain abscesses but head CT (noncontrast)
   w/o abscess.  No need for LP as would not change management at this
   point.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH
   - Continue ampicilin dose for CVVH. Holding on aminoglycoside given
   renal failure
   * Anemia:  microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - repeat fibrinogen today
   - f/u hct [**Hospital1 **], transfuse hb>7, T+S
   .
   * Thrombocytopenia: Likely from cirrhosis.  No signs of bleeding
   currently.  ? from DIC.
   - Trending daily
   .
   * Seizures: likely from meningitis.  Now stopped on propofol.
   Responded to ativan 4 mg IVP.
   - neuro consult
   - EEG
   .
   *. Acute renal failure: Most likely from ATN in the setting of
   hypotension.  Did not respond to 3L IVF yesterday and CVP was 20 after
   IJ placement.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now
   - appreciate continued renal input
   .
   *. Transaminitis with history of cirrhosis
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Discuss with liver team
   .
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   Had elevated troponins here and at OSH probably due to demand ischemia
   in setting of acute illness rather than a primary plaque rupture event.
   Both troponin elevation and depressed EF can be seen in setting of
   sepsis alone, however.
   - Continue ASA, BB
   - Repeat EKG here, monitor on telemetry
   - appreciate CV input
   .
   *. Tachyarrhythmia
   Pt had run of likely NSVT last evening, maintained BP at the time.
   Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   *. Seizures
   Pt had tonic clonic seziures on rounds yesterday, none sense. ?anoxic
   brain injury. also consider CNS listeria infection. CT head noncontrast
   without mass or abscess.
   - EEG
   - MRI head when stable
   - Seizure precautions
   - Neuro recs appreciated
   .
   * Respiratory failure: currently w/ minimal vent settings but cannot
   extubate given mental status.  Initial cause of respiratory failure
   unclear but CXR w/o obvious pulmonary process.
   .
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   .
   *. HTN
   - Hold home antihypertensives in setting of sepsis
   ICU Care
   Nutrition:
   Comments: tubefeeding
   Glycemic Control:  Comments: humalog sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU

2134-05-09 09:46:00 Physician Attending Progress Note
Chief Complaint: listeriosis, unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with listeria bacteremia, respiratory failure, unresponsiveness:
   24 Hour Events:
 EKG - At [**2134-5-8**] 11:04 AM
   head ct - no acute pathology
   waiting for eeg
   no more siezure after rounds
   no sedation
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-9**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   fa, mvi, thiamine, riss, albumin, lactulose, [**Last Name (LF) 6473**], [**First Name3 (LF) **], metopr
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Respiratory: No(t) Cough
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2134-5-9**] 09:45 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.6
C (97.8
   HR: 87 (73 - 132) bpm
   BP: 116/67(82) {89/55(66) - 133/113(121)} mmHg
   RR: 29 (18 - 35) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 23 (20 - 24)mmHg
   Total In:
                                                                  3,567 mL
                                                                  2,637 mL
   PO:
   TF:
   IVF:
                                                                  3,087 mL
                                                                  2,287 mL
   Blood products:
                                                                    300 mL
                                                                    200 mL
   Total out:
                                                                  3,231 mL
                                                                  3,243 mL
   Urine:
                                                                    175 mL
                                                                     65 mL
   NG:
   Stool:
                                                                    825 mL
   Drains:
   Balance:
                                                                    336 mL
                                                                   -606 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 600 (600 - 600) mL
   RR (Set): 18
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 22 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.53/21/198/18/-2
   Ve: 17.3 L/min
   PaO2 / FiO2: 495
   Physical Examination
   General Appearance: Well nourished, No acute distress, No(t) Overweight
   / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Present), (Left DP pulse: Present)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   anterior)
   Abdominal: Soft, Non-tender, Bowel sounds present, No(t) Distended
   Extremities: Right: 1+, Left: 1+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed, unresponsive
   Labs / Radiology
   9.2 g/dL
   52 K/uL
   140 mg/dL
   3.0 mg/dL
   18 mEq/L
   3.4 mEq/L
   66 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   6.2 K/uL
        [image002.jpg]
                             [**2134-5-8**]  06:05 AM
                             [**2134-5-8**]  08:24 AM
                             [**2134-5-8**]  09:23 AM
                             [**2134-5-8**]  11:51 AM
                             [**2134-5-8**]  05:06 PM
                             [**2134-5-8**]  05:31 PM
                             [**2134-5-8**]  10:28 PM
                             [**2134-5-8**]  10:42 PM
                             [**2134-5-9**]  03:53 AM
                             [**2134-5-9**]  04:03 AM
   WBC
   5.5
   6.2
   6.2
   Hct
   27.6
   26.9
   26.8
   Plt
   55
   44
   52
   Cr
   3.9
   3.5
   3.0
   TCO2
   18
   14
   18
   19
   21
   18
   Glucose
   152
   139
   121
   140
   Other labs: PT / PTT / INR:27.8/61.4/2.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:298/262, Alk Phos / T Bili:63/5.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:105 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:4.2 g/dL,
   Ca++:8.6 mg/dL, Mg++:2.1 mg/dL, PO4:3.3 mg/dL
   Imaging: cxr: rij
   Microbiology: ngtd
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with listeria bacteremia, septic shock, arf likely atn now on cvvh,
   mi, with persistent global encephalopathy and unresponsiveness of
   unclear etiology:
   unresponsiveness: concern for anoxic injury; c/b seizure
   -awaiting eeg (neuro [**Last Name (un) 6474**] to coordinate)
   -mri when more stable
   -neurology following
   -will clarify with renal best meds to use for sizure suppression if
   needed while on cvvh
   -has brain-stem reflexes
   ischemic cardiomyopathy / recent mi: medical magament; NSVT overnight
   several episodes
   -[**Last Name (un) **]
   -metoprolol, will increase dose and decrease holding parameters
   ?dic:
   -continue to treat cause
   -supportive care with blood products
   resp failure: tachypnea with alkalemia
   -will try smaller volumes or ps
   arf/atn:
   -cont cvvh
   goals of care:
   -ongoing family discussion
   ICU Care
   Nutrition:
   Comments: restart tube
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-10 07:56:00 Physician Resident Progress Note
Chief Complaint: Altered mental status
   Acute renal failure
   Shock liver
   Systolic heart failure
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2134-5-9**] 04:45 PM
 EKG - At [**2134-5-9**] 10:48 PM
   - had MRI head, read pending
   - episode of leg twitching in MRI [**Name8 (MD) 77**] RN, then again this evening ->
   resolved after 4mg ativan given
   - started on keppra
   - hypotensive to 70's, gave 250cc boluses x3, then started low dose
   dopamine and rapidly weaned off pressors
   - with BP improved resumed CVVH with goal of no volume off
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-10**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-9**] 08:41 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-10**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 35.7
C (96.2
   HR: 74 (54 - 91) bpm
   BP: 110/65(79) {83/52(62) - 134/93(108)} mmHg
   RR: 22 (22 - 41) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 14 (14 - 25)mmHg
   Total In:
                                                                  6,439 mL
                                                                  1,867 mL
   PO:
   TF:
                                                                    166 mL
                                                                    228 mL
   IVF:
                                                                  5,664 mL
                                                                  1,409 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  6,110 mL
                                                                  1,061 mL
   Urine:
                                                                    155 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    806 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 600 (600 - 600) mL
   Vt (Spontaneous): 600 (376 - 600) mL
   PS : 5 cmH2O
   RR (Set): 18
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 12 cmH2O
   Plateau: 19 cmH2O
   Compliance: 50 cmH2O/mL
   SpO2: 97%
   ABG: 7.50/30/200/20/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 500
   Physical Examination
   Intubated and sedated, PERRL
   PEARL
   RIJ in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally on anterior exam
   Abd soft nontender +bowel sounds
   Extrem warm +anasarca +palpable pulses
   Toes upgoing bilaterally on plantar stimulation
   Foley with small amounts of urine, rectal bag with brown stool
   Labs / Radiology
   61 K/uL
   9.0 g/dL
   183 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.4 mEq/L
   62 mg/dL
   102 mEq/L
   142 mEq/L
   27.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2134-5-9**]  03:53 AM
                             [**2134-5-9**]  04:03 AM
                             [**2134-5-9**]  10:18 AM
                             [**2134-5-9**]  10:29 AM
                             [**2134-5-9**]  04:05 PM
                             [**2134-5-9**]  04:24 PM
                             [**2134-5-10**]  01:01 AM
                             [**2134-5-10**]  01:17 AM
                             [**2134-5-10**]  04:18 AM
                             [**2134-5-10**]  04:30 AM
   WBC
   6.2
   5.6
   5.4
   Hct
   26.8
   26.2
   27.5
   Plt
   52
   39
   61
   Cr
   3.0
   2.6
   2.8
   TCO2
   18
   23
   26
   24
   24
   Glucose
   140
   137
   172
   184
   183
   Other labs: PT / PTT / INR:26.7/54.1/2.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:193/149, Alk Phos / T Bili:80/5.8,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:80 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:4.2 g/dL, LDH:301
   IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: [**5-9**] CXR
    The ET tube tip is 5.6 cm above the carina. The NG tube passes below
   the diaphragm with its tip not included in the field of view but given
   the
   relatively high position of the sidehole, at the level of the
   gastroesophageal
   junction, might be advanced additional 10-15 cm. The right internal
   jugular
   line tip is at the level of low SVC. Cardiomediastinal silhouette is
   stable.
   Bibasal atelectasis are unchanged.
   MRI ?subacute infarct in L occipital lobe, evidence for meningitis and
   cerebritis
   Microbiology: [**5-6**] Blood cx pending w/ NGTD
   [**2134-5-9**] 8:22 am SPUTUM      Source: Endotracheal.
      GRAM STAIN (Final [**2134-5-9**]):
         >25 PMNs and <10 epithelial cells/100X field.
         2+   (1-5 per 1000X FIELD):   BUDDING YEAST
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and seizures.
   * Altered mental status
   Probably multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy
   Minimally interactive off of sedatives
   - Neurology input appreciated, will discuss utility of LP
   - EEG today
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   - EEG
   - Ativan prn
   - Neuro recs appreciated
   - Change from Keppra to dilantin, follow dilantin levels
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.  Clinically improved, now off
   pressors.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Holding on aminoglycoside given
   renal failure
   - Will ask for ID input. ?Role for TMP-SMX
   - Follow lactate daily
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now. Goal net even to +500cc positive.
   - Appreciate continued renal input
   *. Transaminitis with history of cirrhosis.  In setting of sepsis
   likely from shock liver. DDx includes med toxicity, hepatic congestion
   in setting of low EF. Acute infectious hepatitis less likely.
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC). Check D bili today.
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   Had elevated troponins here and at OSH probably due to demand ischemia
   in setting of acute illness rather than a primary plaque rupture event.
   Both troponin elevation and depressed EF can be seen in setting of
   sepsis alone, however.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Repeat fibrinogen today. No active bleeding.
   *. Tachyarrhythmia.  Pt had run of likely NSVT last evening, maintained
   BP at the time. Likely predisposed with low EF, systemic infection,
   acid base disturbance in setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs daily
   - [**Hospital1 **] hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.
   - DIC labs daily
   * Respiratory failure: currently w/ minimal vent settings but cannot
   extubate given mental status.  Initial cause of respiratory failure
   unclear but CXR w/o obvious pulmonary process. [**Month (only) 8**] have had pulmonary
   edema in setting of MI, or became tachypneic in setting of overwhelming
   infection.
   -  PSV trial
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   *. HTN
   - Hold home antihypertensives in setting of sepsis
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-9**] 12:00 PM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2134-05-10 10:11:00 Physician Attending Progress Note
Chief Complaint: listeria bacteremia
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with listeria bacteremia, altered mental status and respiratory
   failure, now unresponsive:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2134-5-9**] 04:45 PM
 EKG - At [**2134-5-9**] 10:48 PM
   started on keppra.
   mri head - awaiting read.
   leg twitching during mri and R arm and leg twitching this am.
   briefly hypotensive after ativan - transiently on dopamine after bolus.
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-10**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-9**] 08:41 PM
   Other medications:
   s/p ativan, mvi, thiamine, riss, alb [**Hospital1 **], lansopr, asa 325, amp 26,
   lactulose prn, keppra, metopr,
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-10**] 10:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.1
   Tcurrent: 35.6
C (96
   HR: 68 (54 - 83) bpm
   BP: 87/51(61) {83/51(61) - 134/93(108)} mmHg
   RR: 23 (22 - 41) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 15 (14 - 25)mmHg
   Total In:
                                                                  6,439 mL
                                                                  2,312 mL
   PO:
   TF:
                                                                    166 mL
                                                                    283 mL
   IVF:
                                                                  5,664 mL
                                                                  1,798 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  6,110 mL
                                                                  1,905 mL
   Urine:
                                                                    155 mL
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    329 mL
                                                                    407 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 600 (376 - 600) mL
   PS : 5 cmH2O
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 56
   PIP: 12 cmH2O
   SpO2: 98%
   ABG: 7.50/30/200/20/1
   Ve: 12.6 L/min
   PaO2 / FiO2: 500
   Physical Examination
   General Appearance: No(t) Well nourished, Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear :
   [**Last Name (un) **])
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.0 g/dL
   61 K/uL
   183 mg/dL
   2.8 mg/dL
   20 mEq/L
   3.4 mEq/L
   62 mg/dL
   102 mEq/L
   142 mEq/L
   27.5 %
   5.4 K/uL
        [image002.jpg]
                             [**2134-5-9**]  03:53 AM
                             [**2134-5-9**]  04:03 AM
                             [**2134-5-9**]  10:18 AM
                             [**2134-5-9**]  10:29 AM
                             [**2134-5-9**]  04:05 PM
                             [**2134-5-9**]  04:24 PM
                             [**2134-5-10**]  01:01 AM
                             [**2134-5-10**]  01:17 AM
                             [**2134-5-10**]  04:18 AM
                             [**2134-5-10**]  04:30 AM
   WBC
   6.2
   5.6
   5.4
   Hct
   26.8
   26.2
   27.5
   Plt
   52
   39
   61
   Cr
   3.0
   2.6
   2.8
   TCO2
   18
   23
   26
   24
   24
   Glucose
   140
   137
   172
   184
   183
   Other labs: PT / PTT / INR:26.7/54.1/2.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:193/149, Alk Phos / T Bili:80/5.8,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:80 mg/dL, Lactic Acid:3.1 mmol/L, Albumin:4.2 g/dL, LDH:301
   IU/L, Ca++:9.0 mg/dL, Mg++:2.0 mg/dL, PO4:3.2 mg/dL
   Imaging: cxr: good lines, no change
   Microbiology: bcx: no growth
   Assessment and Plan
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with listeria bactemia and likely meningitis and cerebritis in the
   setting of several severe co-morbidities, remains unresponsive:
   unresponsiveness:
   -fu mri read
   -fu eeg
   -fu neuro recs re work-up (esp LP) and prognosis
   -likely need to change AED
   -fu cultures from osh (esp sensitivities)
   -id consult for appropriate therapy
   hyperbilirubinemia
   -abd us
   chf:
   -monitor volume status
   nstemi: with arrhythmias
   -cont metoprolol as much as tolerates
   arf:
   -cvvh running even
   resp failure: poor mental status
   -cont vent support, monitor pH
   -monitor lactic acid as surrogate for work-of breathing
   [**Month (only) 8**] need coverage for VAP if secretions change
   coagulopathy: dic, liver dysfuntion
   -will try to reverse if needed for invasive procedures
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-9**] 12:00 PM 30 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes, family is updated
   Patient is critically ill

2134-05-11 07:33:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 EEG - At [**2134-5-10**] 10:00 AM
   - BP kept dipping to SBP in the 80s, finally sent off blood, urine
   ,sputum cx and because of increased sputum production, began vanc/zosyn
   for VAP and had to add NE (boluses did not bring him up)
   - added bactrim for synergy to treat the listeria meningitis per ID
   - switched from Keppra to dilantin
   - changed to AC w/ lower TV given rising pH
   - EEG w/ persistent seizure activity
   Patient unable to provide history: Sedated
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-5-10**] 06:30 PM
   Bactrim (SMX/TMP) - [**2134-5-11**] 04:04 AM
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-11**] 06:06 AM
   Ampicillin - [**2134-5-11**] 07:13 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-10**] 08:14 AM
   Lorazepam (Ativan) - [**2134-5-10**] 03:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-11**] 07:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 67 (54 - 79) bpm
   BP: 101/59(71) {77/50(58) - 128/76(92)} mmHg
   RR: 31 (23 - 46) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 21 (15 - 215)mmHg
   Total In:
                                                                 10,482 mL
                                                                  3,247 mL
   PO:
   TF:
                                                                    833 mL
                                                                    301 mL
   IVF:
                                                                  9,160 mL
                                                                  2,626 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  6,020 mL
                                                                  3,176 mL
   Urine:
                                                                    180 mL
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,462 mL
                                                                     71 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   Vt (Spontaneous): 116 (116 - 581) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   SpO2: 98%
   ABG: 7.49/27/170/21/0
   Ve: 13 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Intubated and sedated, PERRL
   PEARL
   RIJ in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally on anterior exam
   Abd soft nontender +bowel sounds
   Extrem warm +anasarca +palpable pulses
   Toes upgoing bilaterally on plantar stimulation
   Foley with small amounts of urine, rectal bag with brown stool
   Labs / Radiology
   117 K/uL
   9.8 g/dL
   198 mg/dL
   2.1 mg/dL
   21 mEq/L
   4.8 mEq/L
   43 mg/dL
   100 mEq/L
   140 mEq/L
   29.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2134-5-10**]  04:30 AM
                             [**2134-5-10**]  10:12 AM
                             [**2134-5-10**]  10:29 AM
                             [**2134-5-10**]  04:35 PM
                             [**2134-5-10**]  05:03 PM
                             [**2134-5-10**]  09:53 PM
                             [**2134-5-10**]  10:06 PM
                             [**2134-5-10**]  11:16 PM
                             [**2134-5-11**]  03:54 AM
                             [**2134-5-11**]  04:12 AM
   WBC
   6.3
   8.5
   Hct
   27.7
   29.5
   Plt
   59
   117
   Cr
   2.2
   2.1
   TCO2
   24
   24
   22
   22
   23
   21
   Glucose
   170
   173
   244
   198
   Other labs: PT / PTT / INR:25.5/52.5/2.5, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:193/149, Alk Phos / T Bili:80/5.8,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:79.3 mg/dL, Lactic Acid:2.5 mmol/L, Albumin:4.2 g/dL,
   LDH:301 IU/L, Ca++:10.1 mg/dL, Mg++:1.9 mg/dL, PO4:3.1 mg/dL
   MRI head
   1. Diffuse FLAIR hyperintensity within the sulci and cortical ribbon in
   a
   gyriform pattern. This can be seen with infectious processes such as
   meningitis with associated cerebritis and malignancy such as lymphoma.
   Lumbar
   puncture is recommended to further assess.
   2. Questionable subacute infarct in the left lateral occipital cortex.
   3. Findings likely representing a right superolateral orbital dermoid.
   Sputum [**5-9**]: OP flora, budding yeast
   Blood cx [**5-6**], [**5-10**]: NGTD
   FINDINGS: In comparison with the study of [**5-9**], the monitoring and
   support
   devices remain in place. The side hole of the nasogastric tube again
   lies at
   the level of the gastroesophageal junction or slightly below it. There
   may be
   some increasing atelectasis at the left base with continued minimal
   atelectasis on the right
   Assessment and Plan
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and seizures.
   * Altered mental status
   Probably multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy
   Minimally interactive off of sedatives
   - Neurology input appreciated.
   .
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   EEG showed persistent seizure activity.
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, check regular and free dilantin levels
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.  Clinically improved, now off
   pressors.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Hold on LP for now given hemodynamic
   instability
   - ID recs appreciated
   .
   * Hypotension, Question of Ventilator Associated Pneumonia
   Multiple possible contributors including meds (eg ativan, dilantin),
   sepsis, volume removal with CVVH, poor pump function. Adrenal
   insufficiency also a possibility. On levophed currently
   - Consider checking cortisol level
   - Check MVO2
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60
   - Follow lactate daily
   .
   * Ventilator acquired pneumonia, suspected
   - Continue vancomycin and zosyn
   - Repeat sputum gram stain and culture
   .
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now, 50cc/hr off
   - Appreciate continued renal input
   *. Transaminitis with history of cirrhosis.
   LFTS have been trending down
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC). Check D bili today.
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Repeat fibrinogen tomorrow. No active bleeding.
   *. Tachyarrhythmia.  Pt had run of likely NSVT last evening, maintained
   BP at the time. Likely predisposed with low EF, systemic infection,
   acid base disturbance in setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs daily
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.
   - DIC labs daily
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-11**] 12:00 AM 40 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT:
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Communication: Patient discussed on interdisciplinary rounds , ICU
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   Correction to above no plan for SBT as no plan to extubate given mental
   status
   ------ Protected Section Addendum Entered By:[**First Name4 (NamePattern1) 82**] [**Last Name (NamePattern1) 3900**], MD
   on:[**2134-5-11**] 10:41 ------

2134-05-11 10:38:00 Physician Attending Progress Note
Chief Complaint: unresponsiveness
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with listeria sepsis, bacteremia, and likely meningitis, with
   NSTEMI and CHF:
   24 Hour Events:
 EEG - At [**2134-5-10**] 10:00 AM
   increased sputum and change in color -- started on vap tx.
   change to dilantin from keppra given persistent sz.
   bp lower, started on pressors (after cx).
   History obtained from Medical records
   Patient unable to provide history: Encephalopathy, Unresponsive
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-11**] 06:06 AM
   Ampicillin - [**2134-5-11**] 07:13 AM
   Vancomycin - [**2134-5-11**] 08:13 AM
   Bactrim (SMX/TMP) - [**2134-5-11**] 10:11 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 1 mEq./hour
   Propofol - 20 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-10**] 03:30 PM
   Other medications:
   riss, mvi, lansopr, amp, lactulose, levophed, dilantin, zosyn, vanco,
   bactrim, prop
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Genitourinary: Foley
   Integumentary (skin): No(t) Jaundice, No(t) Rash
   Signs or concerns for abuse : No
   Pain: No pain / appears comfortable
   Flowsheet Data as of  [**2134-5-11**] 10:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.8
C (96.4
   Tcurrent: 35.7
C (96.3
   HR: 66 (54 - 73) bpm
   BP: 87/50(61) {77/50(58) - 128/76(92)} mmHg
   RR: 28 (23 - 46) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 25 (17 - 215)mmHg
   Total In:
                                                                 10,482 mL
                                                                  4,651 mL
   PO:
   TF:
                                                                    833 mL
                                                                    414 mL
   IVF:
                                                                  9,160 mL
                                                                  3,917 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                  6,020 mL
                                                                  4,562 mL
   Urine:
                                                                    180 mL
                                                                     44 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,462 mL
                                                                     89 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 600) mL
   Vt (Spontaneous): 116 (116 - 581) mL
   PS : 0 cmH2O
   RR (Set): 18
   RR (Spontaneous): 13
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 126
   PIP: 31 cmH2O
   Plateau: 19 cmH2O
   SpO2: 98%
   ABG: 7.47/32/118/22/1
   Ve: 12.1 L/min
   PaO2 / FiO2: 295
   Physical Examination
   General Appearance: Thin
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Extremities: Right: 2+, Left: 2+
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.8 g/dL
   117 K/uL
   195 mg/dL
   2.2 mg/dL
   22 mEq/L
   4.2 mEq/L
   41 mg/dL
   99 mEq/L
   138 mEq/L
   29.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2134-5-10**]  10:29 AM
                             [**2134-5-10**]  04:35 PM
                             [**2134-5-10**]  05:03 PM
                             [**2134-5-10**]  09:53 PM
                             [**2134-5-10**]  10:06 PM
                             [**2134-5-10**]  11:16 PM
                             [**2134-5-11**]  03:54 AM
                             [**2134-5-11**]  04:12 AM
                             [**2134-5-11**]  09:26 AM
                             [**2134-5-11**]  09:39 AM
   WBC
   8.5
   Hct
   29.5
   Plt
   117
   Cr
   2.2
   2.1
   2.2
   TCO2
   24
   22
   22
   23
   21
   24
   Glucose
   173
   244
   198
   195
   Other labs: PT / PTT / INR:25.5/51.3/2.5, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:193/149, Alk Phos / T Bili:80/5.8,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:79.3 mg/dL, Lactic Acid:2.4 mmol/L, Albumin:4.2 g/dL,
   LDH:301 IU/L, Ca++:9.7 mg/dL, Mg++:1.9 mg/dL, PO4:3.0 mg/dL
   Imaging: cxr: ?r infrahilar opacity
   Microbiology: ngtd
   Assessment and Plan
 MENINGITIS, BACTERIAL
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with listeria sepsis from bacteremia and likely meningitis,
   seizures, and now possible vap, in background of cardiomyopathy, shock
   liver:
   listerial meningitis, c/b seizures
   -continuous eeg, will check levels  of dilantin when therapeutic
   -cont amp and bactrim
   -may get LP when better to clarify length of treatment
   new hypotension: vap possible, although does have cardiomyopathy
   -fu cultures
   -treat for vap for now
   -central venous sat (does have cardiomyopathy)
   arf:
   -cont cvvh, no attempts at fluid removal
   Chf:
   -may need to repeat tte in am [**5-12**] to assess LV function, need for
   inotrope
   DIC: ?resolving
   -dic labs repeat tomorrow
   -repeat lfts tomorrow as well
   NSTEMI:
   -reintroduce bb when bp tolerating
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-11**] 12:00 AM 40 mL/hour
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-12 07:42:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   [**5-11**]
   - Free dilantin level not processed -> re-sent
   - EEG still with intermittent seizure activity -> loaded with
   additional dilantin 500mg IV x1 -> dropped pressure again, had to
   increase levophed slightly
   - Mv02 63, LFTs decreased
   - Made no changes to antimicrobials
   - Had generalized tonic-clonic seizure this AM shortly after propofol
   was weaned down
   Patient unable to provide history: Encephalopathy
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-5-11**] 08:13 AM
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-12**] 12:00 AM
   Ampicillin - [**2134-5-12**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-12**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   None
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Unobtainable
   Flowsheet Data as of  [**2134-5-12**] 07:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.7
C (98
   HR: 74 (65 - 86) bpm
   BP: 101/56(70) {87/49(61) - 117/73(83)} mmHg
   RR: 28 (25 - 33) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 22 (22 - 34)mmHg
   CO/CI (Fick): (6 L/min) / (2.7 L/min/m2)
   Mixed Venous O2% Sat: 63 - 63
   Total In:
                                                                 10,028 mL
                                                                  2,934 mL
   PO:
   TF:
                                                                    933 mL
                                                                    266 mL
   IVF:
                                                                  8,575 mL
                                                                  2,218 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                 10,175 mL
                                                                  2,900 mL
   Urine:
                                                                    134 mL
                                                                     50 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -147 mL
                                                                     34 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 18 cmH2O
   Plateau: 15 cmH2O
   SpO2: 99%
   ABG: 7.45/35/163/22/1
   Ve: 13.9 L/min
   PaO2 / FiO2: 408
   Physical Examination
   Intubated
   PEARL
   Neck supple
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd soft nontender +bowel sounds
   Extrem warm palpable pulses 1+ dependent edema
   Not following commands, does not withdrawl to noxious stimuli, toes
   downgoing bilaterally
   Labs / Radiology
   101 K/uL
   9.4 g/dL
   197 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   35 mg/dL
   96 mEq/L
   137 mEq/L
   28.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2134-5-11**]  03:54 AM
                             [**2134-5-11**]  04:12 AM
                             [**2134-5-11**]  09:26 AM
                             [**2134-5-11**]  09:39 AM
                             [**2134-5-11**]  04:12 PM
                             [**2134-5-11**]  04:31 PM
                             [**2134-5-11**]  09:35 PM
                             [**2134-5-11**]  09:55 PM
                             [**2134-5-12**]  03:41 AM
                             [**2134-5-12**]  03:54 AM
   WBC
   8.5
   9.5
   Hct
   29.5
   27.8
   28.0
   Plt
   117
   101
   Cr
   2.1
   2.2
   1.9
   2.0
   2.0
   TCO2
   21
   24
   24
   25
   25
   Glucose
   198
   195
   223
   162
   197
   Other labs: PT / PTT / INR:22.2/48.4/2.1, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:96/73, Alk Phos / T Bili:118/5.5,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:79.3 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:5.4 g/dL,
   LDH:301 IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   CXR
   Increased opacification of R hemithorax with R effusion
   Total phenytoin 18.3
   Free phenytoin pending
   Mvo2 63
   Micro
   [**5-11**] sputum [**10-17**] polys and <10 epis, 1+ yeast, cx NGTD; legionella cx
   NGTD
   [**5-10**] blood cx NGTD
   [**5-6**] blood cx NGTD
   [**5-9**] sputum yeast
   [**5-6**] urine negative
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and seizures.
   * Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.
   - Neurology input appreciated.
   - treat seizures as below
   .
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   EEG showed persistent seizure activity.
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Hold on LP for now given hemodynamic
   instability
   - ID recs appreciated
   .
   * Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (now w/ low-grade fevers on CVVH).  Mvo2 more consistent with
   cardiogenic than septic etiology (although unclear if CVVH could affect
   this).
   Multiple possible contributors including meds (eg ativan, dilantin),
   sepsis, volume removal with CVVH, poor pump function. Adrenal
   insufficiency also a possibility. On levophed currently
   - Consider checking cortisol level in am if still on pressors
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60
   - Follow lactate daily, recently stable
   .
   * r/o Ventilator acquired pneumonia
   Sputum without pathogen identified yet. Temp curve improving on
   antibiotics
   - Continue vancomycin and zosyn x8d course (d1 = [**5-10**])
   - Follow up pending cultures and CIS
   .
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now, 50cc/hr off
   - Appreciate continued renal input
   *. Transaminitis with history of cirrhosis.
   LFTS have been trending down
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC). Check D bili today.
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Fibrinogen continues to be low but will not give cryo given that he
   does not have any active bleeding.
   *. Tachyarrhythmia.  Pt had runsNSVT, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs daily
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.
   - DIC labs daily
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   ICU Care
   Nutrition: Novasource Renal Full strength; Additives: Beneprotein, 20
   gm/day
   Nutren Renal (Full) - [**2134-5-12**] 02:15 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale (will change from
   humalog to regular given that he is on TF), Comments: tighten sliding
   scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds  Comments:
   Code status: Full code
   Disposition:ICU

2134-05-12 10:17:00 Physician Attending Progress Note
Chief Complaint: listeria bacteremia, ?meningitis
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with listeria bacteremia, septic shock, unresponsive with
   persistent seizure activity likely from meningitis vs anoxic brain
   injury:
   24 Hour Events:
 EEG - At [**2134-5-11**] 09:00 AM
   cont
 SPUTUM CULTURE - At [**2134-5-11**] 10:49 AM
   gtc seizure this am during rounds -- after stopping propofol, broke on
   its own, propofol restarted.
   persistent minimal norepi requirement.
   secretions thick.
   History obtained from Medical records
   Patient unable to provide history: Unresponsive
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-12**] 12:00 AM
   Bactrim (SMX/TMP) - [**2134-5-12**] 04:00 AM
   Ampicillin - [**2134-5-12**] 08:00 AM
   Vancomycin - [**2134-5-12**] 08:30 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-12**] 08:00 AM
   Other medications:
   riss, thiamine, mvi, fa, albumin iv, lansopr, asa, amp, lactulose,
   norepi, dilantin, zosyn, vanco, bactrim, prop
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Constitutional: No(t) Fever
   Nutritional Support: Tube feeds
   Respiratory: No(t) Dyspnea, Tachypnea
   Genitourinary: Foley
   Signs or concerns for abuse : No
   Pain: Unable to answer
   Flowsheet Data as of  [**2134-5-12**] 10:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.2
C (97.2
   HR: 70 (65 - 86) bpm
   BP: 112/62(77) {87/49(61) - 125/68(86)} mmHg
   RR: 27 (21 - 36) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 22 (22 - 34)mmHg
   Mixed Venous O2% Sat: 63 - 63
                                Total In:
                                                                 10,028 mL
                                                                  3,986 mL
   PO:
                                TF:
                                                                    933 mL
                                                                    348 mL
   IVF:
                                                                  8,575 mL
                                                                  3,048 mL
   Blood products:
                                                                    400 mL
                                                                    200 mL
   Total out:
                                                                 10,175 mL
                                                                  3,776 mL
   Urine:
                                                                    134 mL
                                                                     85 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                   -147 mL
                                                                    210 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 157
   PIP: 27 cmH2O
   Plateau: 14 cmH2O
   Compliance: 56.3 cmH2O/mL
   SpO2: 99%
   ABG: 7.45/35/163/22/1
   Ve: 10.2 L/min
   PaO2 / FiO2: 408
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: mechanical bs)
   Abdominal: Soft, Non-tender, No(t) Bowel sounds present, Distended,
   Obese
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   9.4 g/dL
   101 K/uL
   197 mg/dL
   2.0 mg/dL
   22 mEq/L
   4.0 mEq/L
   35 mg/dL
   96 mEq/L
   137 mEq/L
   28.0 %
   9.5 K/uL
        [image002.jpg]
                             [**2134-5-11**]  03:54 AM
                             [**2134-5-11**]  04:12 AM
                             [**2134-5-11**]  09:26 AM
                             [**2134-5-11**]  09:39 AM
                             [**2134-5-11**]  04:12 PM
                             [**2134-5-11**]  04:31 PM
                             [**2134-5-11**]  09:35 PM
                             [**2134-5-11**]  09:55 PM
                             [**2134-5-12**]  03:41 AM
                             [**2134-5-12**]  03:54 AM
   WBC
   8.5
   9.5
   Hct
   29.5
   27.8
   28.0
   Plt
   117
   101
   Cr
   2.1
   2.2
   1.9
   2.0
   2.0
   TCO2
   21
   24
   24
   25
   25
   Glucose
   198
   195
   223
   162
   197
   Other labs: PT / PTT / INR:22.2/48.4/2.1, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:96/73, Alk Phos / T Bili:118/5.5,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:105 mg/dL, Lactic Acid:2.3 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.2 mg/dL, Mg++:1.9 mg/dL, PO4:2.8 mg/dL
   Imaging: cxr: worsening effusions
   Microbiology: sputum: cx pending
   Assessment and Plan
 MENINGITIS, BACTERIAL
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with listeria bactermia and persistent seizures, possible from
   listeria meningitis:
   seizures: meningitis vs hypoxic brain injury from shock
   -aed per neuron, need for second [**Doctor Last Name **] vs pentobarb coma?
   -treating possible infection
   -ongoing discussion about etiology ( ? neuronal hypoixemia)
   hypotension: with low ef
   -if significant change will repeat tte
   -broad abx for possible vap
   -cont low dose norepi
   -?neurogenic
   -check cortisol
   Distended abdomen: good bm
s, likely ascites
   -will consider para
   dic: improving
   -check fibrinogen in a few days
   mi/cad:
   -cont asa
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-12**] 02:15 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots(Systemic anticoagulation: None)
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: ICU consent signed Comments: need family meeting
   Code status: Full code
   Disposition :ICU
   Total time spent: 35 minutes

2134-05-13 08:03:00 Physician Resident Progress Note
Chief Complaint: Encephalopathy
   Renal failure
   Seizures
   Hypotension
   24 Hour Events:
   - had continued seizures this AM. given addl 400mg dilantin per neuro
   recs
   - DCd Zosyn (could lower sz threshold) per d/w ID
   - loaded with phenobarbital for burst suppression per neuro recs
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-12**] 12:00 AM
   Vancomycin - [**2134-5-12**] 08:30 AM
   Ampicillin - [**2134-5-13**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-13**] 04:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 20 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-12**] 08:00 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-13**] 08:01 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 36.7
C (98.1
   HR: 69 (67 - 75) bpm
   BP: 115/63(78) {93/51(65) - 223/220(222)} mmHg
   RR: 24 (20 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 14 (14 - 28)mmHg
   Total In:
                                                                  9,416 mL
                                                                  2,790 mL
   PO:
   TF:
                                                                    843 mL
                                                                    281 mL
   IVF:
                                                                  7,843 mL
                                                                  2,449 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                 10,941 mL
                                                                  3,527 mL
   Urine:
                                                                    210 mL
                                                                     85 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                   -737 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/38/144/23/0
   Ve: 12 L/min
   PaO2 / FiO2: 360
   Physical Examination
   Intubated
   PEARL
   Neck supple
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd distended but soft, no r/g, hypoactive bs
   Extrem warm palpable pulses, anasarca w/ 2+ bilateral UE and LE edema,
   R femoral HD line w/ ecchymosis and oozing around entry site
   Not following commands, does not withdraw to noxious stimuli, toes
   downgoing bilaterally
   Labs / Radiology
   93 K/uL
   9.4 g/dL
   186 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   137 mEq/L
   28.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2134-5-12**]  03:41 AM
                             [**2134-5-12**]  03:54 AM
                             [**2134-5-12**]  09:58 AM
                             [**2134-5-12**]  10:03 AM
                             [**2134-5-12**]  03:58 PM
                             [**2134-5-12**]  04:09 PM
                             [**2134-5-12**]  10:44 PM
                             [**2134-5-12**]  11:00 PM
                             [**2134-5-13**]  03:25 AM
                             [**2134-5-13**]  03:41 AM
   WBC
   9.5
   9.0
   9.5
   Hct
   28.0
   27.4
   28.9
   Plt
   101
   87
   93
   Cr
   2.0
   2.0
   1.9
   1.9
   TCO2
   25
   25
   25
   24
   25
   Glucose
   197
   219
   167
   173
   169
   186
   Other labs: PT / PTT / INR:20.2/43.4/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:84/65, Alk Phos / T Bili:129/4.9,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:105 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Micro:
   [**5-10**] Blood cx X 4 w/ ngtd
[**2134-5-11**] 10:39 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2134-5-11**]):
      [**10-17**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Preliminary):
      ? OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
      LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   Imaging:
   [**5-12**] CXR
   TECHNIQUE: Single portable AP radiograph of the chest was performed.
   Comparison is made with prior radiograph of [**2134-5-11**].
   FINDINGS:
   The ET tube has its tip approximately 46 mm from the carina. The NG
   tube has
   its tip projected over the stomach. The right-sided central venous line
   has
   its tip projected over the right atrium. The lungs are of low volume.
   There
   is increased density over the lower right hemithorax most likely
   attributable
   to patient rotation and a probale layering pleural effusion. There is
   minimal
   atelectasis at the lung bases. There is no focal pulmonary
   consolidation. The
   cardiomediastinal silhouette is stable.
   CONCLUSION:
   Minimal bibasilar atelectasis and a small right basal effusion.
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and seizures.
   * Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.
   - Neurology input appreciated.
   - treat seizures as below
   - attempt to wean propofol
   .
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   EEG showed persistent seizure activity.
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - started phenobarbital
   - discuss with neuro re: utility of repeat imaging vs. LP
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP
   - ID recs appreciated
   .
   * Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (now w/ low-grade fevers on CVVH).  Mvo2 more consistent with
   cardiogenic than septic etiology (although unclear if CVVH could affect
   this).
   Multiple possible contributors including meds (eg ativan, dilantin),
   sepsis, volume removal with CVVH, poor pump function. Adrenal
   insufficiency also a possibility. On levophed currently
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean
   - Follow lactate daily, recently stable
   - Will change CVVH to run even to see if this improves hypotension
   .
   * r/o Ventilator acquired pneumonia
   Sputum without pathogen identified yet. Temp curve improving on
   antibiotics
   - Continue zosyn x8d course (d1 = [**5-10**])
   - Will D/C vanco
   - Follow up pending cultures and CIS
   .
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now, but will run even now to see if this improves
   hypotensiion
   - Appreciate continued renal input
   *. Transaminitis with history of cirrhosis.
   LFTS have been trending down
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue albumin 50mg [**Hospital1 **] per hepatology recommendations
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC). Check D bili today.
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Fibrinogen continues to be low but will not give cryo given that he
   does not have any active bleeding
   - monitor fibrinogen.
   *. Tachyarrhythmia.  Pt had runsNSVT, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs daily
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.
   - DIC labs daily
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-13**] 03:51 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Blood sugar well
   controlled
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition:ICU

2134-05-13 08:14:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   - Seizure [**5-12**]: received extra dilantin and phenobarbitol
   - CVVH with net neg removal
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-12**] 12:00 AM
   Vancomycin - [**2134-5-12**] 08:30 AM
   Bactrim (SMX/TMP) - [**2134-5-13**] 04:00 AM
   Ampicillin - [**2134-5-13**] 08:06 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Propofol - 20 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-13**] 08:13 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.7
C (98.1
   Tcurrent: 35.9
C (96.7
   HR: 67 (67 - 75) bpm
   BP: 119/64(80) {93/51(65) -
   RR: 24 (20 - 38) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 14 (14 - 28)mmHg
   Total In:
                                                                  9,416 mL
                                                                  3,095 mL
   PO:
   TF:
                                                                    843 mL
                                                                    288 mL
   IVF:
                                                                  7,843 mL
                                                                  2,597 mL
   Blood products:
                                                                    200 mL
   Total out:
                                                                 10,941 mL
                                                                  3,896 mL
   Urine:
                                                                    210 mL
                                                                     90 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                 -1,525 mL
                                                                   -801 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 20 cmH2O
   Plateau: 17 cmH2O
   Compliance: 37.5 cmH2O/mL
   SpO2: 99%
   ABG: 7.41/38/144/23/0
   Ve: 12 L/min
   PaO2 / FiO2: 360
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: mechanical BS)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: Trace, Left: Trace
   Musculoskeletal: Unable to stand
   Skin:  Warm
   Neurologic: No(t) Follows simple commands, Responds to: Not assessed,
   Movement: Not assessed, Sedated, Tone: Normal
   Labs / Radiology
   9.4 g/dL
   93 K/uL
   186 mg/dL
   1.9 mg/dL
   23 mEq/L
   3.9 mEq/L
   29 mg/dL
   99 mEq/L
   137 mEq/L
   28.9 %
   9.5 K/uL
        [image002.jpg]
                             [**2134-5-12**]  03:41 AM
                             [**2134-5-12**]  03:54 AM
                             [**2134-5-12**]  09:58 AM
                             [**2134-5-12**]  10:03 AM
                             [**2134-5-12**]  03:58 PM
                             [**2134-5-12**]  04:09 PM
                             [**2134-5-12**]  10:44 PM
                             [**2134-5-12**]  11:00 PM
                             [**2134-5-13**]  03:25 AM
                             [**2134-5-13**]  03:41 AM
   WBC
   9.5
   9.0
   9.5
   Hct
   28.0
   27.4
   28.9
   Plt
   101
   87
   93
   Cr
   2.0
   2.0
   1.9
   1.9
   TCO2
   25
   25
   25
   24
   25
   Glucose
   197
   219
   167
   173
   169
   186
   Other labs: PT / PTT / INR:20.2/43.4/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:84/65, Alk Phos / T Bili:129/4.9,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:105 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.4 mg/dL
   Cortisol 25
   CXR: [**5-13**]: ETT tube at thoracic inlet
   Assessment and Plan
 INEFFECTIVE COPING
 MENINGITIS, BACTERIAL
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   76M with listeria bactermia (at OSH) and persistent seizures, possibly
   from listeria meningitis and hx of EtOH:
   >seizures: meningitis/ cerebritis vs hypoxic brain injury from shock
   with MRI showing evidence of cerebritis as a likely cause. Now with
   seizures yesterday on dilantin (phenobarb was added)
   - Currently on propofol, dilantin and phenobarb. ? can we d/c propofol
   will try to determine whether had seizure last night prior to making
   changes. It is concerning if three agents are required to prevent
   seizure.
   - Clarify with neurology repeat  imaging modality and ? need to repeat
   LP. Will proceed ro MRI with gadolinium
   - Cont abx: ampicillin, vancomycin, bactrim for ? of listeria
   meningitis (on MRI).  Will stop Vancomycin today (was for VAP)
   - ongoing discussion about etiology ( ? neuronal hypoixemia)
   - cont thiamine, folate
   - phenobarbitol level tonight
   >hypotension: with low ef could be [**1-25**] CVVH,  propofol and/or
   phenobarb. No new infectious source obvious, cortisol level  was normal
   -requiring low dose pressors, will try to wean as the propofol comes
   off
   - Run CVVH at even for now as he has good O2 exchange
   >CRI: stable Cr on CVVH (net negative yesterday) with goal for even
   today.
   >Distended abdomen with hx of underlying EtOH cirrhosis and portal
   hypertension and esoph varices s/p banding x 2: good bm
s, likely
   ascites
   -para at OSH was neg by report
   >DIC: improving over last few days likely [**1-25**] underlying infectious
   process.
   -check fibrinogen [**5-14**]
    >mi/cad: unclear causal event  with anterior AK with EF 15%, troponin
   22. Limited management options at present given hypotension (unable to
   give B blocker)
   -cont asa
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-13**] 03:51 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication:  Comments: family meeting today (with neurology team) to
   update regarding his condition. He will continue with all supportive
   measures unless there is indication that therapy is futile. Hopefully
   with cessation of seizure activity, he will have sedation stopped to
   give him time to awakening
   Code status: Full code
   Disposition :ICU
   Total time spent: 40 minutes
   Patient is critically ill

2134-05-14 07:31:00 Physician Resident Progress Note
Chief Complaint: Seizure, bacteremia
   24 Hour Events:
   - family mtg w/ neuro attending
   - MRI brain w/ and w/o contrast pending
   - propofol stopped
   - will start po phenobarbital in am
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Piperacillin/Tazobactam (Zosyn) - [**2134-5-12**] 12:00 AM
   Vancomycin - [**2134-5-13**] 09:27 AM
   Bactrim (SMX/TMP) - [**2134-5-13**] 10:01 PM
   Ampicillin - [**2134-5-14**] 02:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.03 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Ear, Nose, Throat: OG / NG tube
   Nutritional Support: Tube feeds
   Flowsheet Data as of  [**2134-5-14**] 07:31 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.6
C (97.8
   Tcurrent: 36.2
C (97.2
   HR: 69 (63 - 73) bpm
   BP: 109/57(72) {82/43(54) - 128/65(83)} mmHg
   RR: 30 (21 - 44) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 21 (13 - 22)mmHg
   Total In:
                                                                  8,590 mL
                                                                  1,812 mL
   PO:
   TF:
                                                                    736 mL
   IVF:
                                                                  7,484 mL
                                                                  1,812 mL
   Blood products:
   Total out:
                                                                  8,914 mL
                                                                  1,782 mL
   Urine:
                                                                    213 mL
                                                                     75 mL
   NG:
   Stool:
                                                                    600 mL
                                                                    400 mL
   Drains:
   Balance:
                                                                   -324 mL
                                                                     30 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 450 (450 - 450) mL
   RR (Set): 18
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 89
   PIP: 20 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.41/41/157/22/1
   Ve: 10.1 L/min
   PaO2 / FiO2: 393
   Physical Examination
   Intubated
   PEARL
   Neck supple
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd distended but soft, no r/g, hypoactive bs
   Extrem warm palpable pulses, anasarca w/ 2+ bilateral UE and LE edema,
   R femoral HD line w/ ecchymosis and oozing around entry site
   Not following commands, does not withdraw to noxious stimuli, toes
   downgoing bilaterally
   Labs / Radiology
   104 K/uL
   8.9 g/dL
   157 mg/dL
   1.7 mg/dL
   22 mEq/L
   4.2 mEq/L
   24 mg/dL
   98 mEq/L
   135 mEq/L
   26.8 %
   8.4 K/uL
        [image002.jpg]
                             [**2134-5-12**]  11:00 PM
                             [**2134-5-13**]  03:25 AM
                             [**2134-5-13**]  03:41 AM
                             [**2134-5-13**]  09:35 AM
                             [**2134-5-13**]  09:53 AM
                             [**2134-5-13**]  04:13 PM
                             [**2134-5-13**]  11:03 PM
                             [**2134-5-13**]  11:17 PM
                             [**2134-5-14**]  03:50 AM
                             [**2134-5-14**]  03:58 AM
   WBC
   9.5
   8.4
   Hct
   28.9
   26.8
   Plt
   93
   104
   Cr
   1.9
   1.8
   1.8
   1.8
   1.7
   TCO2
   24
   25
   25
   29
   27
   Glucose
   169
   186
   254
   175
   103
   99
   157
   Other labs: PT / PTT / INR:20.2/44.4/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:76/62, Alk Phos / T Bili:121/4.4,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:154 mg/dL, Lactic Acid:2.2 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.7 mg/dL
   Blood cx [**5-10**]: NGTD
   Sputum [**5-11**]:
[**2134-5-11**] 10:39 am SPUTUM     Site: ENDOTRACHEAL
      Source: Endotracheal.
   GRAM STAIN (Final [**2134-5-11**]):
      [**10-17**] PMNs and <10 epithelial cells/100X field.
      1+    (<1 per 1000X FIELD):   BUDDING YEAST.
   RESPIRATORY CULTURE (Final [**2134-5-13**]):
      OROPHARYNGEAL FLORA ABSENT.
      YEAST.    SPARSE GROWTH.
   LEGIONELLA CULTURE (Preliminary):    NO LEGIONELLA ISOLATED.
   CXR [**5-13**]:
   The ET tube tip is 5 cm above the carina. The NG tube tip is in the
   stomach.
   The right internal jugular line tip is at the cavoatrial junction.
   Cardiomediastinal silhouette is stable. Right basal opacity is
   unchanged.
   There is minimal bilateral pleural effusion that is most likely
   present. No
   pneumothorax has been demonstrated.
   MRI pending
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and seizures.
   * Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.
   - Neurology input appreciated.
   - treat seizures as below
   - attempt to wean propofol
   - lactulose
   - MRI today
   .
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   EEG showed persistent seizure activity.  NO seizures currently
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - started Phenobarbital, switch to PO this AM, follow levels next on
   [**5-16**]
   - discuss with neuro re: no LP for now
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   .
   * Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (now w/ low-grade fevers on CVVH).  Mvo2 more consistent with
   cardiogenic than septic etiology (although unclear if CVVH could affect
   this).
   Multiple possible contributors including meds (eg ativan, dilantin),
   sepsis, volume removal with CVVH, poor pump function. Adrenal
   insufficiency also a possibility. On levophed currently.  Ran even on
   CVVH, Levophed lower today.  Likely multifactorial
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean to off
   - Follow lactate daily, recently stable
   - Cont to run CVVH even as levophed requirement appears lower
   .
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   *. Transaminitis with history of cirrhosis.
   LFTS have been trending down and cont to do so
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following. DC
d albumin
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Fibrinogen continues to be low but will not give cryo given that he
   does not have any active bleeding.  Fibrino is increasing currently
   *. Tachyarrhythmia.  Pt had runsNSVT, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs daily
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.  Stable
   - DIC labs daily
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   *. Vent
   Atelectasis R base, will increase PEEP today. Gas shows improved pH.
   Trial of PSV again when returns from MRI
   ICU Care
   Nutrition: tube feeds
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-8**] 12:35 AM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   He is no longer seizing by EEG on both dilantin and phenobarbitol. His
   respiratory alkalosis is improved on current settings. He has begun to
yawn
, cough and be less tacypneic on the ventilator. Lfts and renal
   function are no worse. His CXR does show features of a RLL infiltrate
   although secretions are no worse.
   He will proceed to MRI today and we will then attempt transition to
   CPAP/ PSV later today if stable.
   Agree with plan to continue full supportive care and have low threshold
   for adding Antibiotics for VAP if febrile or with any signs of
   worsening hemodynamics. We will follow levels of AED in 24-48 hrs.
   Prognosis remains guarded.
   Remainder of plan as outlined above.
   Patient is critically ill
   Total time: 50 min
   _________
   [**First Name8 (NamePattern2) **] [**Name8 (MD) 803**],  MD
   Division of Pulmonary, Critical Care and Sleep Medicine
   [**Hospital1 **]
   [**Location (un) 4113**], KS-B23
   [**Location (un) **], [**Numeric Identifier 4114**]
   ------ Protected Section Addendum Entered By:[**Name (NI) **] [**Name8 (MD) 803**], MD
   on:[**2134-5-14**] 12:32 ------

2134-05-15 06:19:00 Physician Resident Progress Note
Chief Complaint: seizure
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2134-5-14**] 10:00 AM
 DIALYSIS CATHETER - START [**2134-5-14**] 04:26 PM
 DIALYSIS CATHETER - STOP [**2134-5-14**] 08:49 PM
   - MRI: signs consistent with unchanged meningitis/cerebritis, small
   areas of ? septic infarcts
   - Neuro: Given additional phenobarb 10mg/kg, check TTE given MRI
   findings, hold sedation
   - Tolerated PSV 10/8 with ABG: 7.4/40/130
   - Femoral HD line replaced for temporary RIJ HD line
   - Femoral HD line D/Cd
   History obtained from Medical records
   Patient unable to provide history: Sedated, Encephalopathy
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-5-13**] 09:27 AM
   Ampicillin - [**2134-5-15**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-15**] 04:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems: no change
   Flowsheet Data as of  [**2134-5-15**] 06:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 35.8
C (96.4
   HR: 68 (64 - 78) bpm
   BP: 95/47(60) {95/47(60) - 142/101(107)} mmHg
   RR: 30 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,662 mL
                                                                  2,222 mL
   PO:
             TF:
             66 mL
   IVF:
                                                                  4,422 mL
                                                                  1,856 mL
   Blood products:
   Total out:
                                                                  3,572 mL
                                                                  1,656 mL
   Urine:
                                                                    340 mL
                                                                    108 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                    566 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 462 (417 - 462) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 24
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 19 cmH2O
   Plateau: 18 cmH2O
   SpO2: 99%
   ABG: 7.37/41/149/21/-1
   Ve: 10.1 L/min
   PaO2 / FiO2: 373
   Physical Examination
   Intubated, sedated, unresponsive
   PERRL, mild icteric sclera
   Neck supple, CVLs intact
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd distended but soft, no r/g, hypoactive bs
   Extrem warm palpable pulses, anasarca w/ 2+ bilateral UE and LE edema
   Not following commands, does not withdraw to noxious stimuli, toes
   downgoing bilaterally
   Labs / Radiology
   114 K/uL
   8.5 g/dL
   235 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   30 mg/dL
   97 mEq/L
   134 mEq/L
   26.5 %
   7.8 K/uL
        [image002.jpg]
   Pheno 21.7
   Dilatin 12.4
   Free dilantin: pending
                             [**2134-5-13**]  11:03 PM
                             [**2134-5-13**]  11:17 PM
                             [**2134-5-14**]  03:50 AM
                             [**2134-5-14**]  03:58 AM
                             [**2134-5-14**]  09:48 AM
                             [**2134-5-14**]  10:01 AM
                             [**2134-5-14**]  06:15 PM
                             [**2134-5-14**]  06:33 PM
                             [**2134-5-15**]  03:57 AM
                             [**2134-5-15**]  04:13 AM
   WBC
   8.4
   9.4
   7.8
   Hct
   26.8
   28.5
   26.5
   Plt
   104
   127
   114
   Cr
   1.8
   1.7
   2.1
   1.9
   TCO2
   29
   27
   26
   26
   25
   Glucose
   103
   99
   157
   208
   104
   235
   Other labs: PT / PTT / INR:19.2/39.0/1.8, ALT / AST:69/58, Alk Phos / T
   Bili:99/4.9, , Fibrinogen:154 mg/dL, Lactic Acid:2.1 mmol/L,
   Albumin:5.4 g/dL, LDH:301 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.4
   mg/dL
   Blood cx [**5-10**]: NGTD
   Sputum cx [**5-11**]: sparse yeast
   MRI Head [**5-14**]:
   Persistent meningitis, cerebritis. Multiple foci of septic infarcts
   particularly in the deep white matter in the right insular ribbon and
   medial to the
   internal capsule on the left.
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
 INEFFECTIVE COPING
 MENINGITIS, BACTERIAL
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   Assessment and Plan: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and presumed meningitis/cerebritis and difficult to control
   seizures.
   * Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.  MRI showing persistent signs of
   meningitis/cerebritis, and areas of possible septic infarct
   - Neurology input appreciated.
   - treat seizures as below
   - maintain off propofol
   - lactulose
   - f/u MRI final read -> discuss with neurology re: findings
   .
   *. Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess.
   EEG showed persistent seizure activity.  Now without seizures currently
   on 2 agents.  Given MRI findings, unclear if septic infarcts serving as
   nidus for seizure activity
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - Cont Phenobarbital.  Level at 21.7 and goal 20, would continue at
   current dose, follow levels next on [**5-16**]
   - discuss with neuro re: no LP for now
   *. Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   .
   * Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (low-grade fevers on CVVH).  Mvo2 more consistent with cardiogenic than
   septic etiology (although unclear if CVVH could affect this).
   Multiple possible contributors including meds (eg ativan, dilantin),
   sepsis, volume removal with CVVH, poor pump function. Adrenal
   insufficiency less likely. On levophed currently.  Ran even on CVVH,
   Levophed lower today.  Likely multifactorial
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean to off
   - Follow lactate daily, recently stable
   - Cont to run CVVH even as levophed requirement appears lower overall
   .
   *. Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.
   DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis. Abdominal compartment
   syndrome seems un likely. No IV contrast, from what I can tell from
   records. Could have AIN in the setting of abx but I think less likely.
   Renal U/S w/o hydro.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   - Replaced femoral HD line for IJ HD line on [**5-14**]
   *. Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so
   In setting of sepsis likely from shock liver. DDx includes med
   toxicity, hepatic congestion in setting of low EF. Acute infectious
   hepatitis less likely.
   - Continue to trends LFTs periodically
   - Holding spironolactone
   - Liver following. DC
d albumin
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   *. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC
   Fibrinogen continues to be low but will not give cryo given that he
   does not have any active bleeding.  Fibrino is increasing currently
   *. Tachyarrhythmia.  Pt had runsNSVT, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Likely from cirrhosis.  ? from DIC.  Stable
   - DIC labs every other day
   *. DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   *. Vent
   Atelectasis R base.  Put on PSV with increased PEEP [**5-14**], patient
   tolerating well.  ABG has been stable
   - Cont PSV ventilation with high PEEP for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-15**] 02:00 AM 20 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Family meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2134-05-15 09:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and seizures.
   24 Hour Events:
   MRI done yest. Per Neuro rec's additional phenobarbital given.
   Tolerated PSV yest. Replaced femoral HD cath yest w/ temporary IJ HD
   cath.
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-5-13**] 09:27 AM
   Bactrim (SMX/TMP) - [**2134-5-15**] 04:00 AM
   Ampicillin - [**2134-5-15**] 08:00 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.05 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Other medications:
   thiamine, folate, RISS, Peridex, ampicillin, lactulose, ASA, Bactrim,
   Dilantin, Phenobarb, MVI
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-15**] 09:54 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1
C (98.8
   Tcurrent: 36.7
C (98.1
   HR: 69 (64 - 78) bpm
   BP: 101/52(65) {95/47(60) - 142/101(107)} mmHg
   RR: 27 (20 - 30) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  4,662 mL
                                                                  3,668 mL
   PO:
             TF:
             133 mL
   IVF:
                                                                  4,422 mL
                                                                  3,085 mL
   Blood products:
   Total out:
                                                                  3,572 mL
                                                                  2,516 mL
   Urine:
                                                                    340 mL
                                                                    183 mL
   NG:
   Stool:
                                                                  1,150 mL
   Drains:
   Balance:
                                                                  1,090 mL
                                                                  1,152 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 450 (450 - 450) mL
   Vt (Spontaneous): 448 (417 - 462) mL
   PS : 10 cmH2O
   RR (Set): 18
   RR (Spontaneous): 21
   PEEP: 8 cmH2O
   FiO2: 40%
   RSBI: 66
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.37/41/149/21/-1
   Ve: 9.1 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Cardiovascular: (PMI Normal), (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds: Clear : )
   Abdominal: Soft, Non-tender, Distended
   Extremities: Right: 3+, Left: 3+, anasarcic
   Skin:  Not assessed
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, Movement: No spontaneous movement, Tone: Not assessed
   Labs / Radiology
   8.5 g/dL
   114 K/uL
   235 mg/dL
   1.9 mg/dL
   21 mEq/L
   4.4 mEq/L
   30 mg/dL
   97 mEq/L
   134 mEq/L
   26.5 %
   7.8 K/uL
        [image002.jpg]
                             [**2134-5-13**]  11:03 PM
                             [**2134-5-13**]  11:17 PM
                             [**2134-5-14**]  03:50 AM
                             [**2134-5-14**]  03:58 AM
                             [**2134-5-14**]  09:48 AM
                             [**2134-5-14**]  10:01 AM
                             [**2134-5-14**]  06:15 PM
                             [**2134-5-14**]  06:33 PM
                             [**2134-5-15**]  03:57 AM
                             [**2134-5-15**]  04:13 AM
   WBC
   8.4
   9.4
   7.8
   Hct
   26.8
   28.5
   26.5
   Plt
   104
   127
   114
   Cr
   1.8
   1.7
   2.1
   1.9
   TCO2
   29
   27
   26
   26
   25
   Glucose
   103
   99
   157
   208
   104
   235
   Other labs: PT / PTT / INR:19.2/39.0/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:69/58, Alk Phos / T Bili:99/4.9,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:154 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:4.4 mg/dL
   Fluid analysis / Other labs: phenobarb- 20.7
   Imaging: MR head (prelim)- persistent enhancement of meninges and
   cerebral cortex; multiple foci of septic infarcts
   CXR ([**5-15**])- sm bilat effusions, o/w mostly clear parenchyma, ETT approx
   6cm above carina
   Assessment and Plan
   * Altered mental status: Persists w/o signs of improvement, probably
   multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy.  Not interactive off of sedatives.
   - continue monitoring off sedation
   - Neurology input appreciated.
   - treat seizures as below
   - lactulose for encephalopathy
   - f/u final MRI read --> septic emboli may be related to hematogenous
   Listeria spread but need to eval for endovascular sources --> check
   echo
   * Seizures.  Pt has had multiple seizures may be due to CNS listeria
   infection. CT head noncontrast without mass or abscess. EEG showed
   persistent seizure activity.  NO seizures currently
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - started Phenobarbital, switch to PO this AM, follow levels next on
   [**5-16**]
   - discuss with neuro re: no LP for now
    *Listeriosis with bacteremia and septic shock.  Likely c/b meningitis
   as presented w/ HA and lethargy.
   - Blood cx here pending w/ NGTD
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   * Hypotension-Unclear etiology although clinically seems most
   consistent w/ sepsis (now w/ low-grade fevers on CVVH).  Mvo2 more
   consistent with cardiogenic than septic etiology (although unclear if
   CVVH could affect this). Multiple possible contributors including meds
   (eg ativan, dilantin), sepsis, volume removal with CVVH, poor pump
   function. Adrenal insufficiency also a possibility. On levophed
   currently.  Ran even on CVVH, Levophed lower today.  Likely
   multifactorial
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean to off
   - Follow lactate daily, recently stable
   - Cont to run CVVH even as levophed requirement appears lower
   *Acute oliguric renal failure: Most likely from ATN in the setting of
   hypotension.  Not fluid responsive.  DDx includes ATN in setting of
   sepsis and recent vol depletion from diarrhea. Also consider HRS given
   cirrhosis. Abdominal compartment syndrome seems un likely. No IV
   contrast, from what I can tell from records. Could have AIN in the
   setting of abx but I think less likely.  Renal U/S w/o hydro.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   *Transaminitis with history of cirrhosis.  LFTS have been trending down
   and cont to do so In setting of sepsis likely from shock liver. DDx
   includes med toxicity, hepatic congestion in setting of low EF. Acute
   infectious hepatitis less likely.
   - Continue to trends LFTs daily
   - Holding spironolactone
   - Liver following. DC
d albumin
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   * Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, BB
   - Monitor on telemetry given NSVT
   * DIC- Fibrinogen continues to be low but will not give cryo given that
   he does not have any active bleeding.  Fibrino is increasing currently
   *Tachyarrhythmia.  Pt had runs of NSVT, maintained BP at the time.
   Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   * DM
   - Hold home metformin
   - Insulin sliding scale, goal glucose <150
   * Vent- Atelectasis R base, will increase PEEP today. Gas shows
   improved pH. Trial of PSV again when returns from MRI
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-15**] 02:00 AM 30 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes
   Patient is critically ill

2134-05-16 06:43:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   [**5-15**]
   - tried to wean levophed but with decrease in MAPs to 50s
   - awaiting free phenytoin level
   - decreased FiO2 from 40 to 30% with ABG - 7.43 / 36/ 100
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-5-13**] 09:27 AM
   Ampicillin - [**2134-5-16**] 03:13 AM
   Bactrim (SMX/TMP) - [**2134-5-16**] 04:35 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-16**] 06:43 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 35.9
C (96.7
   HR: 74 (64 - 74) bpm
   BP: 106/53(68) {84/47(59) - 127/76(82)} mmHg
   RR: 23 (21 - 31) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,324 mL
                                                                  2,439 mL
   PO:
             TF:
                                                                    547 mL
                                                                    168 mL
   IVF:
                                                                  7,267 mL
                                                                  1,911 mL
   Blood products:
   Total out:
                                                                  6,696 mL
                                                                  2,354 mL
   Urine:
                                                                    308 mL
                                                                     71 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,628 mL
                                                                     85 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 435 (424 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 35
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 88
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.45/37/95.[**Numeric Identifier 253**]/21/1
   Ve: 14.6 L/min
   PaO2 / FiO2: 320
   Physical Examination
   Intubated, sedated, unresponsive
   PERRL, mild icteric sclera
   Neck supple, RIJ and HD CVLs intact
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd distended but soft, no r/g, NABS
   Extrem warm palpable radial pulses, anasarca w/ 2+ bilateral UE and LE
   edema
   Not following commands, does not withdraw to noxious stimuli
   Labs / Radiology
   115 K/uL
   8.6 g/dL
   141 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   24 mg/dL
   99 mEq/L
   136 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2134-5-15**]  03:57 AM
                             [**2134-5-15**]  04:13 AM
                             [**2134-5-15**]  09:20 AM
                             [**2134-5-15**]  09:45 AM
                             [**2134-5-15**]  03:35 PM
                             [**2134-5-15**]  04:21 PM
                             [**2134-5-15**]  09:46 PM
                             [**2134-5-15**]  09:56 PM
                             [**2134-5-16**]  04:05 AM
                             [**2134-5-16**]  04:32 AM
   WBC
   7.8
   8.5
   Hct
   26.5
   26.5
   Plt
   114
   115
   Cr
   1.9
   1.8
   1.8
   1.6
   TCO2
   25
   22
   25
   26
   27
   Glucose
   235
   153
   131
   156
   141
   Other labs: PT / PTT / INR:19.2/39.0/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:72/74, Alk Phos / T Bili:125/4.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:2.1 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Micro:
   [**5-10**] Blood cx NGTD
   Imaging:
   [**5-15**] CXR
   The ET tube tip is 6 cm above the carina. The NG tube tip is in the
   stomach.
   The right internal jugular line tip is at the cavoatrial junction.
   Interval
   insertion of the double-lumen catheter also through the right internal
   jugular
   line tip also terminates at the same level. Cardiomediastinal
   silhouette is
   stable. Lungs are essentially clear with improvement of bibasilar
   atelectasis, currently mild.
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   1. Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.  MRI showing persistent signs of
   meningitis/cerebritis, and areas of possible septic infarct
   - Neurology input appreciated.
   - treat seizures as below
   - maintain off propofol
   - lactulose
   - f/u MRI final read -> discuss with neurology re: findings
   2. Seizures.
   Pt has had multiple seizures may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG showed persistent seizure
   activity.  Now without seizures currently on 2 agents.  Given MRI
   findings, unclear if septic infarcts serving as nidus for seizure
   activity
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - Cont Phenobarbital.  Level at 21.7 and goal 20, would continue at
   current dose, follow levels next on [**5-16**]
   - discuss with neuro re: no LP for now
    3. Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cx here w/o growth
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   4. Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (low-grade fevers on CVVH).  Mvo2 more consistent with cardiogenic than
   septic etiology (although unclear if CVVH could affect this). Multiple
   possible contributors including meds (eg ativan, dilantin), sepsis,
   volume removal with CVVH, poor pump function. Adrenal insufficiency
   less likely. On levophed currently.  Ran even on CVVH, Levophed lower
   today.  Likely multifactorial
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean to off
   - Follow lactate daily, recently stable
   - Cont to run CVVH even as levophed requirement appears lower overall
   - surveillance blood cx today
   5. Acute oliguric renal failure:
   Most likely from ATN in the setting of hypotension.  Not fluid
   responsive. DDx includes ATN in setting of sepsis and recent vol
   depletion from diarrhea. Also consider HRS given cirrhosis. Abdominal
   compartment syndrome seems un likely. No IV contrast, from what I can
   tell from records. Could have AIN in the setting of abx but I think
   less likely.  Renal U/S w/o hydro.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   - Replaced femoral HD line for IJ HD line on [**5-14**]
   6. Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely.
   - Continue to trends LFTs periodically
   - Holding spironolactone
   - Liver following. DC
d albumin
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   7. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - continue ASA, no metop as low blood pressure
   - Monitor on telemetry given NSVT
   8. DIC: now resolved
   9. Tachyarrhythmia.
   Pt had runsNSVT, maintained BP at the time. Likely predisposed with low
   EF, systemic infection, acid base disturbance in setting of renal
   failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   10. Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   11. Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable
   - continue to trend
   12. DM: BS < 200
   - Hold home metformin
   - Insulin regualr sliding scale, goal glucose <150
    13. Vent
   Atelectasis R base.  Put on PSV with increased PEEP [**9-30**], patient
   tolerating well.  ABG has been stable
   - Cont PSV ventilation with high PEEP for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-15**] 02:00 AM 35 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: hep sc, boots
   Stress ulcer: PPI
   VAP:  usual prophylaxis
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2134-05-16 10:34:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male w/ Listeriosis- cerebritis/ meningitis, bacteremia, and
   multiorgan failure.
   24 Hour Events:
   With levophed weaning MAPS decreased to 50s. CVVH running even. Off
   propofol for approx 4d now.
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-16**] 08:00 AM
   Bactrim (SMX/TMP) - [**2134-5-16**] 10:11 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Peridex, thiamine, folate, lansoprazole, ASA, lactulose, MVI,
   phenobarbital, RISS, Dilantin
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-16**] 10:33 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.2
   Tcurrent: 36.7
C (98
   HR: 78 (64 - 78) bpm
   BP: 104/48(64) {84/47(59) - 120/76(80)} mmHg
   RR: 25 (21 - 30) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,324 mL
                                                                  3,862 mL
   PO:
             TF:
                                                                    547 mL
                                                                    296 mL
   IVF:
                                                                  7,267 mL
                                                                  3,106 mL
   Blood products:
   Total out:
                                                                  6,696 mL
                                                                  3,516 mL
   Urine:
                                                                    308 mL
                                                                    102 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,628 mL
                                                                    346 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 458 (424 - 487) mL
   PS : 10 cmH2O
   RR (Spontaneous): 29
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 88
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.44/38/102/21/1
   Ve: 13.2 L/min
   PaO2 / FiO2: 340
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: No(t) Clear : , Rhonchorous:
   scattered)
   Abdominal: Soft, Bowel sounds present, No(t) Distended
   Extremities: 2+ anasarca
   Skin:  Not assessed
   Neurologic: Responds to: Noxious stimuli, Movement: No spontaneous
   movement, Tone: Not assessed
   Labs / Radiology
   8.6 g/dL
   115 K/uL
   141 mg/dL
   1.6 mg/dL
   21 mEq/L
   4.1 mEq/L
   24 mg/dL
   99 mEq/L
   136 mEq/L
   26.5 %
   8.5 K/uL
        [image002.jpg]
                             [**2134-5-15**]  04:13 AM
                             [**2134-5-15**]  09:20 AM
                             [**2134-5-15**]  09:45 AM
                             [**2134-5-15**]  03:35 PM
                             [**2134-5-15**]  04:21 PM
                             [**2134-5-15**]  09:46 PM
                             [**2134-5-15**]  09:56 PM
                             [**2134-5-16**]  04:05 AM
                             [**2134-5-16**]  04:32 AM
                             [**2134-5-16**]  10:06 AM
   WBC
   8.5
   Hct
   26.5
   Plt
   115
   Cr
   1.8
   1.8
   1.6
   TCO2
   25
   22
   25
   26
   27
   27
   Glucose
   153
   131
   156
   141
   Other labs: PT / PTT / INR:19.2/39.0/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:72/74, Alk Phos / T Bili:125/4.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:1.9 mg/dL, PO4:3.5 mg/dL
   Fluid analysis / Other labs: fibrinogen ([**5-16**])- 172
   Imaging: CXR ([**5-16**])- ETT 5.9cm above carina, underpenetrated film but
   no obvious change from yesterday
   Microbiology: [**5-11**] Sputum- yeast
   Assessment and Plan
   OBTUNDATION
   -Listeria cerebritis and refractory seizures, now on tx for both.
   -Repeat MRI [**5-15**] suggesting poss septic emboli
   -continue holding sedation
   -neuro following --> Dilantin and phenobarb; will f/u levels
   -echo pending to eval for poss enndovascular source of any septic
   embolism
   -lactulose for any component of hepatic encephalopathy
   -Listeria mgmt as below
   LISTERIOSIS
   -Continue ampicilin dose for CVVH.
   -Added TMP-SMX for synergy.
   -Anticipate 6 week course of amp, probable 3 week course of TMP-SMX
   PERSISTENT HYPOTENSION
   -may be related to poss cardiogenic component + meds + CVVH
   -cont Levophed support, daily weaning assessment
   -close monitoring for signs of pump failure or impending infection
   ACUTE RENAL FAILURE
   - DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   CHRONIC LIVER DISEASE
   -stable, shock liver picture resolving
   -lactulose as above
   SYSTOLIC HEART FAILURE
   -EF 15% on recent echo, runs of NSVT on telemetry
   -continue ASA, BB
   -monitor and replete K, Mg
   -monitor on telemetry given NSVT
   RESPIRATORY FAILURE
   -stable on minimal vent settings
   -cont supportive ventilation pending full Neuro evaluation
   DIC
   - resolving, fibrinogen normal
   DM
   - Hold home metformin, Insulin sliding scale, goal glucose <150
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-16**] 09:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-17 07:46:00 Physician Resident Progress Note
Chief Complaint: listeriosis, fever
   24 Hour Events:
 BLOOD CULTURED - At [**2134-5-16**] 04:33 PM
   - spoke w/ family
   - adv ETT 2 cm
   History obtained from Medical records
   Patient unable to provide history: intuabated
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-17**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-17**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.2 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-16**] 08:30 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-16**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-17**] 07:46 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.9
C (96.6
   HR: 72 (63 - 82) bpm
   BP: 121/60(77) {101/48(64) - 145/70(93)} mmHg
   RR: 22 (16 - 37) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,792 mL
                                                                  2,799 mL
   PO:
             TF:
                                                                    746 mL
                                                                    219 mL
   IVF:
                                                                  7,256 mL
                                                                  2,330 mL
   Blood products:
   Total out:
                                                                  7,979 mL
                                                                  1,961 mL
   Urine:
                                                                    271 mL
                                                                     76 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                    838 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 551 (451 - 551) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 93
   PIP: 19 cmH2O
   SpO2: 98%
   ABG: 7.43/40/114/23/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 380
   Physical Examination
   Intubated, sedated, opens eyes non-purposefully
   PERRL, mild icteric sclera
   Neck supple, RIJ and HD CVLs intact
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally, no rales or wheezing
   Abd distended but soft, no r/g, NABS
   Extrem warm palpable radial pulses, anasarca w/ 2+ bilateral UE and LE
   edema
   Not following commands, does not withdraw to noxious stimuli
   Labs / Radiology
   130 K/uL
   8.4 g/dL
   167 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   21 mg/dL
   98 mEq/L
   136 mEq/L
   25.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2134-5-16**]  04:05 AM
                             [**2134-5-16**]  04:32 AM
                             [**2134-5-16**]  09:56 AM
                             [**2134-5-16**]  10:06 AM
                             [**2134-5-16**]  03:57 PM
                             [**2134-5-16**]  04:46 PM
                             [**2134-5-16**]  10:38 PM
                             [**2134-5-16**]  10:40 PM
                             [**2134-5-17**]  04:00 AM
                             [**2134-5-17**]  04:11 AM
   WBC
   8.5
   8.1
   Hct
   26.5
   25.9
   Plt
   115
   130
   Cr
   1.6
   1.6
   1.5
   TCO2
   27
   27
   27
   29
   27
   Glucose
   141
   134
   139
   121
   167
   Other labs: PT / PTT / INR:18.6/42.4/1.7, Ca++:9.5 mg/dL, Mg++:1.9
   mg/dL, PO4:3.3 mg/dL
   Blood cx [**Date range (1) 6654**]: NGTD
   CXR:
   ET tube tip in standard placement at the thoracic inlet. Borderline
   cardiac
   enlargement unchanged. Mild pulmonary vascular and mediastinal venous
   engorgement and borderline edema in the right lung not appreciably
   changed.
   Right jugular catheters both end low in the SVC. Nasogastric tube
   passes into
   the distal stomach
   Assessment and Plan
 SEIZURE, WITH STATUS EPILEPTICUS
 INEFFECTIVE COPING
 MENINGITIS, BACTERIAL
 MYOCARDIAL INFARCTION, ACUTE (AMI, STEMI, NSTEMI)
 SEPSIS, SEVERE (WITH ORGAN DYSFUNCTION)
 RESPIRATORY FAILURE, ACUTE (NOT ARDS/[**Doctor Last Name 76**])
 RENAL FAILURE, ACUTE (ACUTE RENAL FAILURE, ARF)
 HYPERKALEMIA (HIGH POTASSIUM, HYPERPOTASSEMIA)
 HEPATIC ENCEPHALOPATHY
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   1. Altered mental status:
   Persists w/o signs of improvement, probably multifactorial with CNS
   listerial infection, seizures, hepatic encephalopathy.  Not interactive
   off of sedatives.  MRI showing persistent signs of
   meningitis/cerebritis, and areas of possible septic infarct
   - Neurology input appreciated.
   - treat seizures as below
   - maintain off propofol
   - lactulose
   - f/u MRI final read -> discuss with neurology re: findings ->
   recommend TTE
   2. Seizures.
   Pt has had multiple seizures may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG showed persistent seizure
   activity.  Now without seizures currently on 2 agents.  Given MRI
   findings, unclear if septic infarcts serving as nidus for seizure
   activity
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin, checking regular and free dilantin levels and will
   f/u w/ neurology re dosing given artificially elevated albumin
   - Cont Phenobarbital.  Level at 21.7 and goal 20, would continue at
   current dose, follow levels next on [**5-16**] -> 16
   - discuss with neuro
    3. Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cx here w/o growth
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH. Added TMP-SMX for synergy.
   Anticipate 6 week course of amp, probably 3 week course of TMP-SMX
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   4. Hypotension
   Unclear etiology although clinically seems most consistent w/ sepsis
   (low-grade fevers on CVVH).  Mvo2 more consistent with cardiogenic than
   septic etiology (although unclear if CVVH could affect this). Multiple
   possible contributors including meds (eg ativan, dilantin), sepsis,
   volume removal with CVVH, poor pump function. Adrenal insufficiency
   less likely. On levophed currently.  Ran even on CVVH, Levophed lower
   today.  Likely multifactorial
   - Cortisol level not drastically low
   - Follow up cultures, CIS, infection tx as above
   - Continue levophed target MAP>60 -> attempt to wean to off
   - Follow lactate daily, recently stable
   - Cont to run CVVH even as levophed requirement appears lower overall
   - surveillance blood cx
   5. Acute oliguric renal failure:
   Most likely from ATN in the setting of hypotension.  Not fluid
   responsive. DDx includes ATN in setting of sepsis and recent vol
   depletion from diarrhea. Also consider HRS given cirrhosis. Abdominal
   compartment syndrome seems un likely. No IV contrast, from what I can
   tell from records. Could have AIN in the setting of abx but I think
   less likely.  Renal U/S w/o hydro.
   - CVVH for now, but will cont to run even
   - Appreciate continued renal input
   - Replaced femoral HD line for IJ HD line on [**5-14**]
   6. Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely.
   - Continue to trends LFTs periodically
   - Holding spironolactone
   - Liver following. DC
d albumin
   - elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   7. Systolic heart failure w/ EF 15% from either recent or remote MI.
   - continue ASA, no metop as low blood pressure
   - Monitor on telemetry given NSVT
   8. DIC: now resolved
   9. Tachyarrhythmia.
   Pt had runsNSVT, maintained BP at the time. Likely predisposed with low
   EF, systemic infection, acid base disturbance in setting of renal
   failure
   - Continue monitoring on telemetry and continue metoprolol
   - Will keep pads on for now
   10. Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   11. Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable
   - continue to trend
   12. DM: BS < 200
   - Hold home metformin
   - Insulin regualr sliding scale, goal glucose <150
    13. Vent
   Atelectasis R base.  Put on PSV with increased PEEP [**9-30**], patient
   tolerating well.  ABG has been stable
   - Cont PSV ventilation with high PEEP for now
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-16**] 09:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2134-05-17 09:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   76 yo male with Lesteriosis and cerebritis/meningitis leading to
   repiratory failure and multiorgan failure.
   24 Hour Events:
   Overnight, no events
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-17**] 04:00 AM
   Ampicillin - [**2134-5-17**] 08:00 AM
   Infusions:
   Norepinephrine - 0.07 mcg/Kg/min
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-17**] 08:00 AM
   Lansoprazole (Prevacid) - [**2134-5-17**] 08:00 AM
   Other medications:
   Peridex, thiamine, folate, MVI, ASA, lactulose, phenobarbital, RISS,
   Dilantin 150 tid
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-17**] 09:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.8
C (96.4
   HR: 71 (63 - 82) bpm
   BP: 138/67(86) {101/48(63) - 145/70(93)} mmHg
   RR: 22 (16 - 37) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,792 mL
                                                                  3,554 mL
   PO:
             TF:
                                                                    746 mL
                                                                    284 mL
   IVF:
                                                                  7,256 mL
                                                                  2,840 mL
   Blood products:
   Total out:
                                                                  7,979 mL
                                                                  2,729 mL
   Urine:
                                                                    271 mL
                                                                    126 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    813 mL
                                                                    825 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 551 (451 - 551) mL
   PS : 10 cmH2O
   RR (Spontaneous): 23
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 93
   PIP: 19 cmH2O
   SpO2: 99%
   ABG: 7.43/40/114/23/2
   Ve: 9.7 L/min
   PaO2 / FiO2: 380
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: anteriorly)
   Abdominal: Soft, No(t) Non-tender, Bowel sounds present
   Extremities: Right: 1+, Left: 1+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Non -purposeful, Tone:
   Not assessed, eyes open but not clearly purposeful
   Labs / Radiology
   8.4 g/dL
   130 K/uL
   167 mg/dL
   1.5 mg/dL
   23 mEq/L
   4.2 mEq/L
   21 mg/dL
   98 mEq/L
   136 mEq/L
   25.9 %
   8.1 K/uL
        [image002.jpg]
                             [**2134-5-16**]  04:05 AM
                             [**2134-5-16**]  04:32 AM
                             [**2134-5-16**]  09:56 AM
                             [**2134-5-16**]  10:06 AM
                             [**2134-5-16**]  03:57 PM
                             [**2134-5-16**]  04:46 PM
                             [**2134-5-16**]  10:38 PM
                             [**2134-5-16**]  10:40 PM
                             [**2134-5-17**]  04:00 AM
                             [**2134-5-17**]  04:11 AM
   WBC
   8.5
   8.1
   Hct
   26.5
   25.9
   Plt
   115
   130
   Cr
   1.6
   1.6
   1.5
   TCO2
   27
   27
   27
   29
   27
   Glucose
   141
   134
   139
   121
   167
   Other labs: PT / PTT / INR:18.6/42.4/1.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:72/74, Alk Phos / T Bili:125/4.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:5.4 g/dL, LDH:301
   IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:3.3 mg/dL
   Fluid analysis / Other labs: [**5-16**] phenobarb- 16.3
   Imaging: CXR ([**5-17**])- sm L > r effusions, ETT 4 cm above carina; o/w no
   change
   Assessment and Plan
   OBTUNDATION-Listeria cerebritis and refractory seizures, now on tx for
   both.
   -Repeat MRI [**5-15**] suggesting poss septic emboli
   -continue holding sedation
   -neuro following --> Dilantin and phenobarb
   -echo pending to eval for poss enndovascular source of any septic
   embolism
   -lactulose for any component of hepatic encephalopathy
   -Listeria mgmt as below
   LISTERIOSIS
   -Continue ampicilin dose for CVVH.
   -Added TMP-SMX for synergy.
   -Anticipate 6 week course of amp, probable 3 week course of TMP-SMX
   PERSISTENT HYPOTENSION
   -may be related to poss cardiogenic component + meds + CVVH
   -cont Levophed support, daily weaning assessment
   -close monitoring for signs of pump failure or impending infection
   ACUTE RENAL FAILURE
   - DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis.
   - CVVH for now, per Renal will run negative today w/ increased pressor
   support if needed
   - Appreciate continued renal input
   CHRONIC LIVER DISEASE
   -stable, shock liver picture resolving
   -lactulose as above
   SYSTOLIC HEART FAILURE
   -EF 15% on recent echo, runs of NSVT on telemetry
   -continue ASA, BB
   -monitor and replete K, Mg
   -monitor on telemetry given NSVT
   RESPIRATORY FAILURE
   -stable on minimal vent settings, continueing to support pending
   additional fluid removal with cvvh
   -cont supportive ventilation pending full Neuro evaluation
   DIC- resolved, fibrinogen normal
   DM- Hold home metformin, Insulin sliding scale, goal glucose <150
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-16**] 09:00 AM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 30 minutes

2134-05-19 08:11:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the
   for key portions of the services provided.  I agree with his / her note
   above, including assessment and plan.
   HPI:
   24 Hour Events:
 TRANSTHORACIC ECHO - At [**2134-5-18**] 09:00 AM: nl EF no veg
   > transiently off NE.
   > no seizure activity in last 24 hr on  EEG
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-19**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-19**] 04:00 AM
   Infusions:
   Norepinephrine - 0.02 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 2 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-18**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-19**] 08:11 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 35.2
C (95.4
   HR: 72 (64 - 81) bpm
   BP: 94/47(59) {81/40(52) - 112/68(80)} mmHg
   RR: 18 (17 - 26) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,773 mL
                                                                  2,574 mL
   PO:
             TF:
                                                                    741 mL
                                                                    285 mL
   IVF:
                                                                  7,392 mL
                                                                  2,139 mL
   Blood products:
   Total out:
                                                                  9,827 mL
                                                                  2,792 mL
   Urine:
                                                                    220 mL
                                                                     52 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                 -1,054 mL
                                                                   -214 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 297 (297 - 506) mL
   PS : 10 cmH2O
   RR (Spontaneous): 28
   PEEP: 8 cmH2O
   FiO2: 30%
   RSBI: 84
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.41/43/118/23/2
   Ve: 14.1 L/min
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: No acute distress, spont and non purposefully opens
   eyes
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : diffuse)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 2+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: No spontaneous
   movement, Tone: Normal, no clonus
   Labs / Radiology
   7.7 g/dL
   135 K/uL
   208 mg/dL
   1.4 mg/dL
   23 mEq/L
   4.0 mEq/L
   19 mg/dL
   96 mEq/L
   134 mEq/L
   24.3 %
   6.5 K/uL
        [image002.jpg]
                             [**2134-5-18**]  04:30 AM
                             [**2134-5-18**]  04:39 AM
                             [**2134-5-18**]  09:34 AM
                             [**2134-5-18**]  09:39 AM
                             [**2134-5-18**]  04:21 PM
                             [**2134-5-18**]  04:27 PM
                             [**2134-5-18**]  10:11 PM
                             [**2134-5-18**]  10:41 PM
                             [**2134-5-19**]  03:49 AM
                             [**2134-5-19**]  04:01 AM
   WBC
   8.4
   6.5
   Hct
   25.7
   24.3
   Plt
   138
   135
   Cr
   1.4
   1.5
   1.5
   1.4
   TCO2
   28
   28
   28
   30
   28
   Glucose
   168
   180
   90
   162
   208
   Other labs: PT / PTT / INR:18.3/48.4/1.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:72/74, Alk Phos / T Bili:125/4.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.5 g/dL, LDH:301
   IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9 mg/dL
   CXR [**5-19**]: right HD and CVC cath, clear lung bases, good vols,
   Assessment and Plan
   > OBTUNDATION-  Listeria cerebritis and refractory seizures, now on tx
   for both. Seizures appear to be well controlled on phenobarb and
   dilantin.  Cerebrititis/meningitis now complicated by likely septic
   emboli.  No evidence of veg on TTE
   -continue holding sedation
   -neuro following --> Dilantin and phenobarb. ? can we lighten the
   anti-convulsant regimen specifically the phenobarb
   -Listeria mgmt as below
    >LISTERIOSIS
   -Ampicillin    (day 1 = [**5-4**])    and Bactrim   (day 1 = [**5-10**])
   -Anticipate 6 week course of amp, probable 3 week course of TMP-SMX
    >PERSISTENT HYPOTENSION
    -may be related to  meds + CVVH. Will try to run even today
    -cont Levophed support,
   - notably TTE shows improved LV function
    >ACUTE RENAL FAILURE
    - DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis.
    -CVVH for now, per Renal will run negative today w/ increased pressor
   support if needed
    - Appreciate continued renal input
    >CHRONIC LIVER DISEASE
   -stable, shock liver picture resolving
   >SYSTOLIC HEART FAILURE
   -EF improved to 55% from 15%
   -continue ASA
    >RESPIRATORY FAILURE
   -stable on minimal vent settings, continuing to support pending
   additional fluid removal with cvvh
   -cont supportive ventilation
   -  will need to think about tracheostomy if this is consistent with the
   overall goals of care.
   >DIC- resolved, fibrinogen normal
   - check coags today
   >DM- Hold home metformin, Insulin sliding scale, goal glucose <150
    Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-18**] 01:00 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up
   Comments:
   Communication: Family meeting held  Comments: Had long (60 min) meeting
   to discuss current status, prognosis, goals of care. Initiated
   conversation about DNR
   Code status: Full code
   Disposition :ICU
   Total time spent: 105  minutes
   Patient is critically ill

2134-05-20 07:58:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > family meeting: plan for PEG and trach
   > phenobarb was decreased to tid and plan to wean
    > CVVH running at even
   > increased sputum (discolored)
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-20**] 02:00 AM
   Bactrim (SMX/TMP) - [**2134-5-20**] 04:08 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-19**] 09:53 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-20**] 07:58 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 72 (67 - 75) bpm
   BP: 100/47(62) {85/42(54) - 123/75(82)} mmHg
   RR: 18 (14 - 25) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  8,420 mL
                                                                  2,636 mL
   PO:
             TF:
                                                                  1,053 mL
                                                                    436 mL
   IVF:
                                                                  6,898 mL
                                                                  2,200 mL
   Blood products:
   Total out:
                                                                  9,014 mL
                                                                  2,492 mL
   Urine:
                                                                    152 mL
                                                                     32 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                   -594 mL
                                                                    144 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 653 (413 - 653) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 74
   PIP: 13 cmH2O
   SpO2: 100%
   ABG: 7.44/40/182/24/3
   Ve: 7.5 L/min
   PaO2 / FiO2: 607
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, Tone: Not assessed. Opens eyes non
   purposefully to verbal, withdraws to pain (localized)
   Labs / Radiology
   8.4 g/dL
   152 K/uL
   164 mg/dL
   1.4 mg/dL
   24 mEq/L
   3.8 mEq/L
   18 mg/dL
   97 mEq/L
   135 mEq/L
   26.5 %
   7.5 K/uL
        [image002.jpg]
                             [**2134-5-18**]  10:11 PM
                             [**2134-5-18**]  10:41 PM
                             [**2134-5-19**]  03:49 AM
                             [**2134-5-19**]  04:01 AM
                             [**2134-5-19**]  10:49 AM
                             [**2134-5-19**]  04:24 PM
                             [**2134-5-19**]  09:33 PM
                             [**2134-5-19**]  09:54 PM
                             [**2134-5-20**]  03:53 AM
                             [**2134-5-20**]  04:05 AM
   WBC
   6.5
   7.5
   Hct
   24.3
   26.5
   Plt
   135
   152
   Cr
   1.4
   1.5
   1.4
   TCO2
   30
   28
   26
   28
   Glucose
   162
   208
   111
   175
   175
   164
   Other labs: PT / PTT / INR:18.3/48.4/1.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:72/74, Alk Phos / T Bili:125/4.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L, Albumin:3.5 g/dL, LDH:301
   IU/L, Ca++:9.5 mg/dL, Mg++:1.9 mg/dL, PO4:2.5 mg/dL
   CXR [**5-20**]:  ETT in good position, no obvious new infiltrate
   Assessment and Plan
   > OBTUNDATION-  Listeria cerebritis and refractory seizures, now on tx
   for both. Seizures appear to be well controlled on phenobarb and
   dilantin.  Cerebrititis/meningitis now complicated by likely septic
   emboli.  No evidence of veg on TTE.
   -continue holding sedation
   -neuro following --> Dilantin and phenobarb. We are now working on
   weaning off the phenobarb today and the qd on Friday
   -Listeria mgmt as below
    >LISTERIOSIS
   -Ampicillin    (day 1 = [**5-4**])    and Bactrim   (day 1 = [**5-10**])
   -Anticipate 6 week course of amp, probable 3 week course of TMP-SMX
    >PERSISTENT HYPOTENSION
   -may be related to  meds + CVVH. Cont to run even for the day and wean
   phenbarb
    -cont Levophed support,
   - notably TTE shows improved LV function
   - repeat clx for now (blood, sputum, c. diff)
   - repeat random cortisol
   - would not change the central lines unless pos clx or change in
   clinical status
     >ACUTE RENAL FAILURE
    - DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis.
    -CVVH for now
    - Appreciate continued renal input
    >CHRONIC LIVER DISEASE
   -stable, shock liver picture resolving
    >SYSTOLIC HEART FAILURE
   -EF improved to 55% from 15%
   -continue ASA
    >RESPIRATORY FAILURE
   -stable on minimal vent settings, continuing to support pending
   additional fluid removal with cvvh
   - plan for PEG and trachesotomy
   - seems to be an increase in sputum, will check clx (no fevers although
   on CVVH) or change to WBC
    >DIC- resolved, fibrinogen normal
   - follow coags repeat [**5-21**]
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-20**] 02:44 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale, can add long acting
   (NPH)
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Need for restraints reviewed
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code (patient remains FULL code a this time)
   Disposition :ICU
   Total time spent: 45 minutes

2134-05-21 07:59:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2134-5-20**] 09:00 AM
 BLOOD CULTURED - At [**2134-5-20**] 01:01 PM
 URINE CULTURE - At [**2134-5-20**] 01:01 PM
   > Plan for trach and PEG today
   > Off CVVH since yesterday 3PM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-21**] 02:06 AM
   Bactrim (SMX/TMP) - [**2134-5-21**] 06:33 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-20**] 11:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-21**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 38.1
C (100.5
   Tcurrent: 37.8
C (100.1
   HR: 84 (74 - 91) bpm
   BP: 118/56(73) {81/37(49) - 119/58(74)} mmHg
   RR: 20 (17 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
             Total In:
                                                                  6,605 mL
                                                                    364 mL
   PO:
             TF:
                                                                  1,317 mL
                                                                      1 mL
   IVF:
                                                                  4,808 mL
                                                                    303 mL
   Blood products:
   Total out:
                                                                  4,876 mL
                                                                     15 mL
   Urine:
                                                                    147 mL
                                                                     15 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,729 mL
                                                                    349 mL
   Respiratory support
   O2 Delivery Device: Endotracheal tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 467 (420 - 820) mL
   PS : 14 cmH2O
   RR (Spontaneous): 25
   PEEP: 5 cmH2O
   FiO2: 30%
   RSBI: 238
   PIP: 20 cmH2O
   SpO2: 97%
   ABG: 7.49/33/164/25/3
   Ve: 10.5 L/min
   PaO2 / FiO2: 547
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: , Rhonchorous: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended and dull
   to percussion.
   Extremities: Right: 3+, Left: 3+, anasarca
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, Tone:
   Not assessed No change in MS
   [**Name13 (STitle) 358**] / Radiology
   8.5 g/dL
   154 K/uL
   151 mg/dL
   2.0 mg/dL
   25 mEq/L
   4.4 mEq/L
   30 mg/dL
   96 mEq/L
   134 mEq/L
   26.1 %
   8.3 K/uL
        [image002.jpg]
                             [**2134-5-19**]  04:01 AM
                             [**2134-5-19**]  10:49 AM
                             [**2134-5-19**]  04:24 PM
                             [**2134-5-19**]  09:33 PM
                             [**2134-5-19**]  09:54 PM
                             [**2134-5-20**]  03:53 AM
                             [**2134-5-20**]  04:05 AM
                             [**2134-5-20**]  10:15 AM
                             [**2134-5-21**]  03:16 AM
                             [**2134-5-21**]  03:31 AM
   WBC
   7.5
   8.3
   Hct
   26.5
   26.1
   Plt
   152
   154
   Cr
   1.5
   1.4
   2.0
   TCO2
   28
   26
   28
   26
   Glucose
   111
   175
   175
   164
   206
   151
   Other [**Year (4 digits) **]: PT / PTT / INR:17.0/34.1/1.5, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:63/94, Alk Phos / T Bili:248/3.0,
   Differential-Neuts:87.0 %, Lymph:8.3 %, Mono:3.9 %, Eos:0.7 %,
   Fibrinogen:172 mg/dL, Lactic Acid:2.6 mmol/L, Albumin:3.5 g/dL, LDH:301
   IU/L, Ca++:9.4 mg/dL, Mg++:2.0 mg/dL, PO4:3.0 mg/dL
   [**5-20**] Blood: NGTD, sputum (budding yeast),
   CXR [**5-21**]: rotated, ETT in good position, HD and central in good
   position. No new infiltrate.
   Assessment and Plan
   > OBTUNDATION-  Listeria cerebritis and refractory seizures, now on tx
   for both. Seizures appear to be well controlled on phenobarb and
   dilantin and working on weaning phenobarb off.  Cerebrititis/meningitis
   now complicated by likely septic emboli.  No evidence of veg on TTE.
   There has been no evidence of improvement over the last several days
   -continue holding sedation
   -neuro following --> Dilantin and phenobarb. Phenobarb down to qd
   dosing today and last day is [**5-22**] then off.
   - repeat MRI early next week for prognosticating
   -Listeria mgmt as below
   >LISTERIOSIS
   -Ampicillin    (day 1 = [**5-4**])   and Bactrim   (day 1 = [**5-10**]) (Changed
   to PO yesterday)
   - change abx to HD dosing
   -Anticipate 6 week course of amp, probable 3 week course of TMP-SMX
   > Fevers: broad differential including line infection, ,  sinusitis,
   pancreatitis, cholecystitis
   - Clx pending
   - follow Alk Phos
   - RUQ U/S
   - check amylase,lipase
   - Could consider re-tapping the ascites, DVTs, sinusitis as additional
   causes.
     >PERSISTENT HYPOTENSION
   -may be related to  meds + CVVH. Cont to run even for the day and wean
   phenbarb as above
    -cont Levophed support,
   - notably TTE shows improved LV function
   - repeat clx for now (blood, sputum, c. diff)
   - repeat random cortisol  was 20.1 [**5-20**]
   - would not change the central lines unless pos clx or change in
   clinical status (follow up clx)
     >ACUTE RENAL FAILURE
   - DDx includes ATN in setting of sepsis and recent vol depletion from
   diarrhea. Also consider HRS given cirrhosis.
    -CVVH  on hold
    - Appreciate continued renal input
    >CHRONIC LIVER DISEASE
   -stable, shock liver picture resolving
   >SYSTOLIC HEART FAILURE
   -EF improved to 55% from 15%
   -continue ASA
   >RESPIRATORY FAILURE
   -Increasing PS requirement likely [**1-25**] CVVH stopping (increasing acid
   load)
   - plan for PEG and trachesotomy today
   - will change to vol control for the day
   - seems to be an increase in sputum, will check clx (no fevers although
   on CVVH) or change to WBC
   >DIC- resolved, fibrinogen normal
   - follow coags repeat [**5-21**]
   Remainder of plan as outlined in resident note.
   ICU Care
   Nutrition:
   Tube feeds on hold for procedure.
   Glycemic Control:  NPH (on hold for now given procedure)
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:  Plan on family meeting after MRI early next
   week
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-22 08:05:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - got trach/peg a little oozy after procedure -> gave ddAVP per IP
   recs. ok to use pills via peg x24h then may use for feeds.
   - RUQ u/s with large ascites and some GB wall thickening, but no
   stones, [**Doctor First Name **]/lip elevated --> ordered CT abd to further assess ?
   - probable aspiration while getting contrast via peg, CXR with possible
   R basilar infiltrate
   - early evening bilateral arm shaking initially concerned for recurrent
   seizure got ativan 2mg, 2mg, 4mg with minimal effect. also hypothermic,
   seeming more likely to be rigors, discussed with neuro resident who
   evaluated pt and agreed.
   - broaded abx to meropenem (dc'd amp)
   - changed foley
   - wrote for repeat EEG in AM
   - stabilized, CT abd done late in the PM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-21**] 06:33 AM
   Ampicillin - [**2134-5-21**] 08:00 AM
   Vancomycin - [**2134-5-21**] 10:02 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-21**] 06:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 08:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.8
C (98.3
   Tcurrent: 36.8
C (98.3
   HR: 86 (75 - 86) bpm
   BP: 93/48(62) {89/48(62) - 139/78(90)} mmHg
   RR: 23 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 19 (11 - 20)mmHg
   Total In:
                                                                  1,862 mL
                                                                    422 mL
   PO:
   TF:
                                                                      1 mL
   IVF:
                                                                  1,801 mL
                                                                    362 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    565 mL
   Urine:
                                                                     80 mL
                                                                     65 mL
   NG:
                                                                    750 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                   -143 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 427 (427 - 440) mL
   PS : 10 cmH2O
   RR (Set): 20
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 17 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.40/36/166/19/-1
   Ve: 10.6 L/min
   PaO2 / FiO2: 415
   Physical Examination
   Intubated
   PEARL
   RIJ and HD cath in place, trach in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally no rales/wheezing
   Abd distender but soft +bowel sounds PEG tube in place
   Extrem anasarca palpable pulses warm (on warming blanket)
   No rash
   Not opening eyes to voice or sternal rub, does not withdrawl to pain,
   toes mute to plantar stimulation
   Foley with dark yellow urine, brown stool from rectal tube
   Labs / Radiology
   155 K/uL
   8.0 g/dL
   158 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   45 mg/dL
   95 mEq/L
   132 mEq/L
   24.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2134-5-19**]  09:54 PM
                             [**2134-5-20**]  03:53 AM
                             [**2134-5-20**]  04:05 AM
                             [**2134-5-20**]  10:15 AM
                             [**2134-5-21**]  03:16 AM
                             [**2134-5-21**]  03:31 AM
                             [**2134-5-21**]  06:18 PM
                             [**2134-5-21**]  06:35 PM
                             [**2134-5-22**]  04:18 AM
                             [**2134-5-22**]  04:23 AM
   WBC
   7.5
   8.3
   8.5
   9.0
   Hct
   26.5
   26.1
   24.9
   24.7
   Plt
   152
   154
   197
   155
   Cr
   1.4
   2.0
   2.7
   2.9
   TCO2
   26
   28
   26
   24
   23
   Glucose
   164
   206
   151
   108
   158
   Other labs: PT / PTT / INR:18.0/40.4/1.6, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:54/89, Alk Phos / T Bili:174/4.4,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:3.3 mmol/L,
   Albumin:3.5 g/dL, LDH:301 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.4
   mg/dL
   Micro
   [**5-20**], [**5-21**] blood cx NGTD
   [**5-21**] urine cx NGTD
   [**5-20**] urine cx yeast
   No other new micro
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   * Hypotension, low-grade temperatures, hypothermia
   Concern for aspiration event yesterday during contrast administration.
   Pancreatic enzymes elevated of unclear etiology
 question
   pancreatitis.
   Now off of CVVH, changing to intermittent HD per renal recs.
   Low BPs likely multifactorial
 may include meds, sepsis, intravascular
   volume depletion. CNS dysfunction and thromboembolic disease also on
   the differential. Normal pump function on repeat echo, no evidence of
   adrenal insufficiency (random [**Last Name (un) **] 20 [**5-20**]).
   - Broadened to meropenem yesterday, continue
   - Follow-up read of CT abdomen from yesterday
   - Obtain sputum culture today
   - Follow-up pending cultures, CIS
   - Keep in lines for now
   - Wean pressors as tolerated
 MAP goal 60
   - Follow lactate daily, recently stable
   - Check LENIS
   - Will start midodrine post-dialysis in case of central dysfunction
   * Altered mental status:
   Persists.  Some eye opening now but does not appear  purposful.
   Probably multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy, medications.  Not interactive off of sedatives, now 6
   days without sedation.  MRI showing persistent signs of
   meningitis/cerebritis, and areas of possible septic infarct. TTE
   without evidence of vegetations.  Had been trying to ween down
   anticonvulsants due to concern these were contributing to sedation
   - Neurology input appreciated
   - Repeat EEG
   - Continue phenobarbitol, dilantin for now pending EEG
   - Maintain off propofol
   - Lactulose off
   - Repeat MRI early in week of [**5-24**]
   * Seizures.
   Shaking yesterday afternoon seemed more consistent with rigoring than
   seizures, nevertheless must have low suspicion for seizure activity esp
   in setting of weaning anticonvulsants and recurrent seizures here
   Pt has had multiple seizures may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG showed persistent seizure
   activity.  Given MRI findings ? septic infarcts serving as nidus for
   seizure activity
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin and Phenobarbital, will maintain current doses
   - Repeat EEG today
    * Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cx here w/o growth
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH (day 1=[**5-4**]). Added TMP-SMX for
   synergy. Anticipate 6 week course of amp, probably 3 week course of
   TMP-SMX (day 1=[**5-10**]). Discuss TMP-SMX dosing for HD w pharmacy.
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   * Aspiration pna, suspected.
   - On meropenem as above
   - Obtaining sputum culture
   - Monitor chest x-ray, clinic examination
   * Pancreatitis, suspected. Pancreatic enzymes elevated of unclear
   etiology.
   - Follow-up read of CT abdomen
   - Monitor enzymes
   * Acute oliguric renal failure:
   Most likely from ATN in the setting of hypotension.  Not fluid
   responsive. DDx includes ATN in setting of sepsis and recent vol
   depletion from diarrhea. Also consider HRS given cirrhosis. Abdominal
   compartment syndrome seems un likely. No IV contrast, from what I can
   tell from records. Could have AIN in the setting of abx but I think
   less likely.  Renal U/S w/o hydro.
   - HD per renal recs, had been on CVVH
   * Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely. Status post albumin. Liver consult has signed off.
   - Following LFTs
   - Holding spironolactone
   - Elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   - D/C
d lactulose as does not appear to be helping mental status
   * Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, no metoprolol as low blood pressure
   - Monitor on telemetry given NSVT
   * DIC: now resolved
   - Follow INR
   * Tachyarrhythmia.
   Resolved
   Pt had runs NSVT early in admission, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH with TF
   off prior to trach/peg
   * Respiratory failure: In the setting of CNS disease and sepsis.
   - Status post trach yesterday
   ICU Care
   Nutrition:
   Comments: can restart TFs
   Glycemic Control:  Blood sugar well controlled
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition: ICU

2134-05-22 09:35:00 Physician Attending Progress Note
Chief Complaint: Fevers/chills, deltaMS
   HPI:
   76yo with EtOH cirrhosis, DM, admit [**5-3**] with lethargy, diarrhea,
   fevers/chills, deltaMS. Found to have listerosis sepsis and likely
   listeria meningitis c/b seizures.  Course c/b MODs (stress
   cardiomyopathy, ARF requiring HD, poor mental status).
   24 Hour Events:
   + s/p tracheosotomy [**5-21**]
   + RUQ US- thickened GB wall and sludge, no stones; CT abdomen performed
   --> results pending.
   + Underwent CT Abdomen for fever evaluation; complicated by aspiration
   event
   + Question of seizure activity, received BZDs with no response.
   Evaluated by neurology, who felt this was more rigoring then seizures.
   Will be evaluated with repeat EEG.
   + Abx chnaged from Ampicillin / Bactrim to Meropenem given likely new
   infection -->  with fevers, rigors
   + Continues on Vasopressor support with Levophed, currently at
   0.2mcg/kg/min
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-21**] 06:33 AM
   Ampicillin - [**2134-5-21**] 08:00 AM
   Vancomycin - [**2134-5-21**] 10:02 AM
   Infusions:
   Norepinephrine - 0.2 mcg/Kg/min
   Other ICU medications:
   Lorazepam (Ativan) - [**2134-5-21**] 06:02 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-22**] 09:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.1 on CVVH
C (98.7
   Tcurrent: 37.1
C (98.7
   HR: 85 (75 - 86) bpm
   BP: 134/65(85) {89/48(62) - 139/78(90)} mmHg
   RR: 26 (0 - 27) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 18 (11 - 20)mmHg
   Total In:
                                                                  1,862 mL
                                                                    629 mL
   PO:
   TF:
                                                                      1 mL
   IVF:
                                                                  1,801 mL
                                                                    399 mL
   Blood products:
   Total out:
                                                                    830 mL
                                                                    570 mL
   Urine:
                                                                     80 mL
                                                                     70 mL
   NG:
                                                                    750 mL
                                                                    500 mL
   Stool:
   Drains:
   Balance:
                                                                  1,032 mL
                                                                     59 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 539 (427 - 539) mL
   PS : 14 cmH2O
   RR (Set): 20
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 60
   PIP: 20 cmH2O
   Plateau: 16 cmH2O
   SpO2: 99%
   ABG: 7.40/36/166/19/-1
   Ve: 8.2 L/min
   PaO2 / FiO2: 415
   Physical Examination
   General Appearance: Unarousable
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, s/p Trach
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Respiratory / Chest: (Expansion: Symmetric), (Breath Sounds:
   Rhonchorous: at bases)
   Extremities: Right: 4+, Left: 4+
   Skin:  Not assessed
   Neurologic: Responds to: Unresponsive, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   8.0 g/dL
   155 K/uL
   158 mg/dL
   2.9 mg/dL
   19 mEq/L
   4.8 mEq/L
   45 mg/dL
   95 mEq/L
   132 mEq/L
   24.7 %
   9.0 K/uL
        [image002.jpg]
                             [**2134-5-19**]  09:54 PM
                             [**2134-5-20**]  03:53 AM
                             [**2134-5-20**]  04:05 AM
                             [**2134-5-20**]  10:15 AM
                             [**2134-5-21**]  03:16 AM
                             [**2134-5-21**]  03:31 AM
                             [**2134-5-21**]  06:18 PM
                             [**2134-5-21**]  06:35 PM
                             [**2134-5-22**]  04:18 AM
                             [**2134-5-22**]  04:23 AM
   WBC
   7.5
   8.3
   8.5
   9.0
   Hct
   26.5
   26.1
   24.9
   24.7
   Plt
   152
   154
   197
   155
   Cr
   1.4
   2.0
   2.7
   2.9
   TCO2
   26
   28
   26
   24
   23
   Glucose
   164
   206
   151
   108
   158
   Other labs: PT / PTT / INR:18.0/40.4/1.6, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:54/89, Alk Phos / T Bili:174/4.4,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:3.3 mmol/L,
   Albumin:3.5 g/dL, LDH:301 IU/L, Ca++:9.1 mg/dL, Mg++:2.0 mg/dL, PO4:5.4
   mg/dL
   Assessment and Plan
   76yo with listeriosis meningitis and sepsis, remains unresponsive,
   febrile, on vasopressors.  With poor overall prognosis given MODS.
   1. Listerosis
        - Continues on Bactrim
        - ampicillin switched to Meropenem last night to broaden coverage.
   1. Fevers
       - Unclear etiology--> ? aspiration given RLL infiltrate, vs biliary
   source, vs drug fever vs VTE.
          + f/u blood cultures and Abd CT scan.  [**Month (only) 8**] need HIDA scan
          + Will send sputum cultures
          + ? VTE --> will check LENIs; contraindication to anticoag but
   could place IVC filter.
          + ? Drug fever --> No eosinophilia.  Will consider
   2. Hypotension with increased vasopressor requirement
         + Concern for infectious process / sepsis
         + f/u cultures
         + Urine with fungi --> less inclined to treat, but may reconsider
   if rest of evaluation negative
         + Unlikely cardiogenic given TTE showed improved cardiac function
         + Unlikely due to AI, given normal cortisol
         + Is this neurogenic shock? Will add midodrine in effort to
   titrate off IV vasopressors.
         + MAP goal = 60 given underlying CNS dysfunction
   3.  Delta MS
         + Differential broad- toxic metabolic from renal failure,
   cirrhosis, infection.  Continued meningitis / cerebritis. Continued
            seizures?  Phenobarbital toxicity.
         + Will repeat EEG
         + Repeat phenobarbital level.
         + Seizures --> will remain on Dilantin and Phenobarb
         + Will repeat MRI / MRA next week for prognostication
         + Does have cirrhosis --> would ensure 3 BM daily with lactulose
   and start Rifaximin.
   4. ARF
         + Presumably [**1-25**] ATN from hypotension
         + Remains on CVVH.
          + I/O goal -1L (likely not pre-load dependent at this point)
   5. Cirrhosis
        + Presumed [**1-25**] EtOH, though if recovers may require further eval,
   incl biopsy (Assoc b/t hemachromatosis and listeriosis).
   6.  s/p Tracheostomy
        + will continue trach care
   7. ICU
        + will start tube feeds today
        + FULL CODE
        + Access: A-line, TLC, HD catheter --> will consider changing
   lines
        + Prophy:  On SQ heparin, PPI
        + Dipso- needs ICU care.
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :
   Total time spent:
   ------ Protected Section ------
   MICU ATTENDING ADDENDUM
   I saw and examined the patient, and was physically present with the ICU
   team for the key portions of the services provided. I agree with the
   note above, including the assessment and plan. I would emphasize and
   add the following points:
   Multiple medical problems remain relatively unchanged
 including
   persistent respiratory failure, renal failure, shock, meningitis,
   cirrhosis and fevers. He underwent a trach yesterday.
   Exam notable for Tmax: 37.1 on CVVH
C (98.7
F)  Tcurrent: 37.1
   (98.7
F) HR: 85 (75 - 86) bpm BP: 134/65(85)  89/48(62) - 139/78(90)}
   mmHg RR: 26 (0 - 27) insp/min  SpO2: 99%
   Trach, unresponsive, no purposeful movements
   RRR
   Decreaseded bs
   Abd benign, PEG
   Extrem edematous
   Labs notable for stable anemia, stable lytes
   Problems: respiratory failure, listeria bacteremia and meningitis, ARF,
   cirrhosis, fevers
   Agree with plan to continue supportive care on vent, continue
   antibiotics, re-image brain to assist with prognosis determination,
   continue CVVH though renal interested in trying HD
   Remainder of plan as outlined above.
   Patient is critically ill.
   Total time: 39 min
   ------ Protected Section Addendum Entered By:[**Name (NI) 103**] [**Last Name (NamePattern1) 104**], MD
   on:[**2134-5-22**] 14:14 ------

2134-05-23 07:04:00 Physician Resident Progress Note
TITLE:
   Chief Complaint: Sepsis
   24 Hour Events:
   - HD - no fluid removed
   - LENIs negative for DVT
   - continuous EEG placed
   - dilantin level 10.6 corrects to 14.3, phenobarbital level 9.3
   - started rifaxamin for encephalopathy
   - started midodrine for hypotension
   - TF restarted
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-21**] 08:00 AM
   Vancomycin - [**2134-5-21**] 10:02 AM
   Bactrim (SMX/TMP) - [**2134-5-22**] 06:07 PM
   Meropenem - [**2134-5-22**] 09:11 PM
   Infusions:
   Norepinephrine - 0.12 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-23**] 07:04 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.4
C (99.3
   Tcurrent: 36.9
C (98.5
   HR: 77 (77 - 89) bpm
   BP: 113/55(72) {87/50(64) - 134/65(85)} mmHg
   RR: 19 (14 - 27) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 14 (8 - 32)mmHg
   Total In:
                                                                  1,617 mL
                                                                    534 mL
   PO:
   TF:
                                                                    223 mL
                                                                    239 mL
   IVF:
                                                                    964 mL
                                                                    176 mL
   Blood products:
   Total out:
                                                                    645 mL
                                                                     20 mL
   Urine:
                                                                    115 mL
                                                                     20 mL
   NG:
                                                                    530 mL
   Stool:
   Drains:
   Balance:
                                                                    972 mL
                                                                    514 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 422 (422 - 560) mL
   PS : 14 cmH2O
   RR (Spontaneous): 17
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 59
   PIP: 19 cmH2O
   SpO2: 100%
   ABG: 7.46/39/170/20/4
   Ve: 8.2 L/min
   PaO2 / FiO2: 425
   Physical Examination
   Intubated
   PEARL
   RIJ and HD cath in place, trach in place
   Regular S1 S2 no m/r/g
   Lungs clear bilaterally no rales/wheezing
   Abd distender but soft +bowel sounds PEG tube in place
   Extrem anasarca palpable pulses warm (on warming blanket)
   No rash
   Not opening eyes to voice or sternal rub, does not withdrawl to pain,
   toes mute to plantar stimulation
   Foley with dark yellow urine, brown stool from rectal tube
   Labs / Radiology
   154 K/uL
   7.3 g/dL
   173 mg/dL
   2.4 mg/dL
   20 mEq/L
   3.9 mEq/L
   34 mg/dL
   104 mEq/L
   138 mEq/L
   23.2 %
   7.8 K/uL
        [image002.jpg]
                             [**2134-5-20**]  04:05 AM
                             [**2134-5-20**]  10:15 AM
                             [**2134-5-21**]  03:16 AM
                             [**2134-5-21**]  03:31 AM
                             [**2134-5-21**]  06:18 PM
                             [**2134-5-21**]  06:35 PM
                             [**2134-5-22**]  04:18 AM
                             [**2134-5-22**]  04:23 AM
                             [**2134-5-23**]  03:08 AM
                             [**2134-5-23**]  03:38 AM
   WBC
   8.3
   8.5
   9.0
   7.8
   Hct
   26.1
   24.9
   24.7
   23.2
   Plt
   154
   197
   155
   154
   Cr
   2.0
   2.7
   2.9
   2.4
   TCO2
   28
   26
   24
   23
   29
   Glucose
   [**Telephone/Fax (3) 6742**]58
   173
   Other labs: PT / PTT / INR:20.1/39.2/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:48/91, Alk Phos / T Bili:147/3.2,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:9.1 mg/dL, Mg++:2.1 mg/dL, PO4:5.4
   mg/dL
   CT Abd/pelvis [**5-22**]:
   1. No definite abscess collection.
   2. Unchanged small bilateral pleural effusion and bibasilar
   atelectasis.
   Underlying pneumonia can not be excluded.
   3. Unchanged cirrhosis and ascites.
   4. Status post G-tube placement with small pneumoperitoneum.
   5. Possible gastric diverticulum, containing oral contrast, present
   since at
   least the comparison scan of [**2134-5-4**].
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   * Hypotension, low-grade temperatures, hypothermia
   Concern for aspiration event yesterday during contrast administration.
   Pancreatic enzymes elevated of unclear etiology
 question
   pancreatitis.
   Now off of CVVH, changing to intermittent HD per renal recs.
   Low BPs likely multifactorial
 may include meds, sepsis, intravascular
   volume depletion. CNS dysfunction and thromboembolic disease also on
   the differential. Normal pump function on repeat echo, no evidence of
   adrenal insufficiency (random [**Last Name (un) **] 20 [**5-20**]).
   - Broadened to meropenem, continue
   - Follow-up read of CT abdomen from yesterday
   - Obtain sputum culture today
   - Follow-up pending cultures, CIS
   - Keep in lines for now
   - Wean pressors as tolerated
 MAP goal 60
   - Follow lactate daily, recently stable
   - Check LENIS
   - Will start midodrine post-dialysis in case of central dysfunction
   * Altered mental status:
   Persists.  Some eye opening now but does not appear  purposful.
   Probably multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy, medications.  Not interactive off of sedatives, now 6
   days without sedation.  MRI showing persistent signs of
   meningitis/cerebritis, and areas of possible septic infarct. TTE
   without evidence of vegetations.  Had been trying to ween down
   anticonvulsants due to concern these were contributing to sedation
   - Neurology input appreciated
   - Repeat EEG
   - Continue phenobarbitol, dilantin for now pending EEG
   - Maintain off propofol
   - Lactulose off
   - Repeat MRI early in week of [**5-24**]
   * Seizures.
   Shaking yesterday afternoon seemed more consistent with rigoring than
   seizures, nevertheless must have low suspicion for seizure activity esp
   in setting of weaning anticonvulsants and recurrent seizures here
   Pt has had multiple seizures may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG showed persistent seizure
   activity.  Given MRI findings ? septic infarcts serving as nidus for
   seizure activity
   - Ativan prn
   - Neuro recs appreciated
   - Now on dilantin and Phenobarbital, will maintain current doses
   - Repeat EEG today
    * Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cx here w/o growth
   - Reculture if febrile, follow up pending micro at OSH re sensitivities
   - Continue ampicilin dose for CVVH (day 1=[**5-4**]). Added TMP-SMX for
   synergy. Anticipate 6 week course of amp, probably 3 week course of
   TMP-SMX (day 1=[**5-10**]). Discuss TMP-SMX dosing for HD w pharmacy.
   - ID recommending LP - but very likely had meningitis would favor just
   treating him with 6wk CNS course. Will discuss with neuro re: ultility
   of LP -> not indicated currently
   - ID recs appreciated
   * Aspiration pna, suspected.
   - On meropenem as above
   - Obtaining sputum culture
   - Monitor chest x-ray, clinic examination
   * Pancreatitis, suspected. Pancreatic enzymes elevated of unclear
   etiology.
   - Follow-up read of CT abdomen
   - Monitor enzymes
   * Acute oliguric renal failure:
   Most likely from ATN in the setting of hypotension.  Not fluid
   responsive. DDx includes ATN in setting of sepsis and recent vol
   depletion from diarrhea. Also consider HRS given cirrhosis. Abdominal
   compartment syndrome seems un likely. No IV contrast, from what I can
   tell from records. Could have AIN in the setting of abx but I think
   less likely.  Renal U/S w/o hydro.
   - HD per renal recs, had been on CVVH
   * Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely. Status post albumin. Liver consult has signed off.
   - Following LFTs
   - Holding spironolactone
   - Elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   - D/C
d lactulose as does not appear to be helping mental status
   * Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, no metoprolol as low blood pressure
   - Monitor on telemetry given NSVT
   * DIC: now resolved
   - Follow INR
   * Tachyarrhythmia.
   Resolved
   Pt had runs NSVT early in admission, maintained BP at the time. Likely
   predisposed with low EF, systemic infection, acid base disturbance in
   setting of renal failure
   - Continue monitoring on telemetry
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Stable
   on serial checks since yesterday. Pt did have borderline fibrinogen
   concerning for DIC
   - DIC labs every other day
   - daily hct, transfuse hb>7, T+S
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH with TF
   off prior to trach/peg
   * Respiratory failure: In the setting of CNS disease and sepsis.
   - Status post trach yesterday
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-22**] 02:18 PM 35 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care, Daily wake up, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-05-24 07:12:00 Physician Resident Progress Note
Chief Complaint: altered mental status
   24 Hour Events:
   - Switched back to CVVH in attempt to take off fluid
   - Increased dose of midodrine to 5 tid given persistant hypotension
   - Tolerated trach mask for 9 hours in afternoon
   - EEG pending
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-21**] 08:00 AM
   Vancomycin - [**2134-5-21**] 10:02 AM
   Bactrim (SMX/TMP) - [**2134-5-22**] 06:07 PM
   Meropenem - [**2134-5-23**] 10:08 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-23**] 08:49 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-23**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-24**] 07:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (74 - 82) bpm
   BP: 103/59(74) {97/45(60) - 124/89(95)} mmHg
   RR: 25 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 21 (14 - 24)mmHg
   Total In:
                                                                  4,121 mL
                                                                  2,296 mL
   PO:
   TF:
                                                                    834 mL
                                                                    278 mL
   IVF:
                                                                  2,958 mL
                                                                  1,868 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                  2,337 mL
   Urine:
                                                                     65 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    676 mL
                                                                    -41 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   10l trach mask
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 583 (583 - 583) mL
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 165
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/31/174/23/0
   Ve: 9 L/min
   PaO2 / FiO2: 435
   Physical Examination
   Intubated
   PEARL
   Trach in place, RIJ and R HD line
   Lungs clear bilaterally, no rales or wheezing
   CV regular S1 S2 no m/r/g
   Abd distended but soft +bowel sounds PEG in place
   Extrem anasarca warm (has warming blanket), palpable pulses
   Opens eyes to loud voice but does not track, blinks to threat, does not
   follow commands or withdraw to painful stimuli. Toes mute on plantar
   stimulation.
   Labs / Radiology
   129 K/uL
   7.3 g/dL
   148 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.6 mEq/L
   33 mg/dL
   103 mEq/L
   139 mEq/L
   23.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-5-21**]  06:35 PM
                             [**2134-5-22**]  04:18 AM
                             [**2134-5-22**]  04:23 AM
                             [**2134-5-23**]  03:08 AM
                             [**2134-5-23**]  03:38 AM
                             [**2134-5-23**]  09:47 PM
                             [**2134-5-23**]  10:03 PM
                             [**2134-5-24**]  03:50 AM
                             [**2134-5-24**]  04:06 AM
                             [**2134-5-24**]  05:57 AM
   WBC
   9.0
   7.8
   6.3
   Hct
   24.7
   23.2
   23.1
   Plt
   155
   154
   129
   Cr
   2.9
   2.4
   2.6
   2.2
   TCO2
   24
   23
   29
   25
   24
   23
   Glucose
   158
   173
   139
   148
   Other labs: PT / PTT / INR:19.8/49.2/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:48/78, Alk Phos / T Bili:154/3.0,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   CXR [**5-24**]
   atelectasis vs consolidation at right base, right CP angle not seen on
   today
s film
   CT abd/pelvis [**5-22**]
   1. No definite abscess collection.
   2. Unchanged small bilateral pleural effusion and bibasilar
   atelectasis.
   Underlying pneumonia can not be excluded.
   3. Unchanged cirrhosis and ascites.
   4. Status post G-tube placement with small pneumoperitoneum.
   5. Possible gastric diverticulum, containing oral contrast, present
   since at
   least the comparison scan of [**2134-5-4**].
   LENIS [**5-23**] negative
   Micro
   [**5-22**] sputum yeast
   5/28,[**5-21**] blood cx NGTD; [**5-17**] and earlier blood cx no growth
   5/28,[**5-21**] urine cx yeast
   [**5-17**] C diff negative
   other micro here negative/pending
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   * Altered mental status
   Persists.  Some eye opening now but does not appear purposful. Probably
   multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy, medications. Not interactive off of sedatives.  MRI
   showing persistent signs of meningitis/cerebritis, and areas of
   possible septic infarct. TTE without evidence of vegetations.  Had been
   trying to wean down anticonvulsants due to concern these were
   contributing to sedation.
   Had questionable seizure (vs rigoring) [**5-21**] in setting of weaning
   anticonvulsants end of last week, no further clear episodes of seizures
   - Neurology input appreciated
   - Repeat EEG
   - Continue phenobarbitol, dilantin for now pending further neurology
   input. Hold off on further anticonvulsant weaning.
   - Repeat MRI early in week of [**5-24**]
   - Started rifaxamin for potential contribution from liver disease
   - Maintain off propofol
   * Seizures.
   Shaking [**5-21**] seemed more consistent with rigoring than seizures,
   nevertheless must have low suspicion for seizure activity esp in
   setting of weaning anticonvulsants and recurrent seizures here. Pt has
   had multiple seizures that may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG earlier in admit with
   persistent seizure activity. Given MRI findings question septic
   infarcts serving as nidus for seizure activity
   - Neurology input appreciated
   - EEG, anticonvulsants plan as above
   - Attempt to wean off phenobarb
   - Repeat MRI to asses for interval change to help prognosticate
   * Aspiration pneumonia, suspected.
   Pt with witnessed aspiration event [**5-21**], subsequently evidence of R
   base consolidation and increased O2 requirement. Now O2 requirement
   near baseline with minimal secretions. Sputum growing only yeast.
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], restart amp, day 1=[**5-4**]
   - Aspiration precautions
   - Follow O2 requirement, daily CXR
   * Hypothermia
   Recently with low grade temps (99s) but hypothermic again to 96 in last
   day on CVVH.  ?Persistent/untreated infection, but recent micro has
   been negative. Concern for aspiration event [**5-21**] during contrast
   administration. Pancreatic enzymes elevated of unclear etiology
   evidence of pancreatitis or intraabdominal abscess on imaging. LENIS
   negative [**5-22**].
   - Resume amp and d/c meropenem
   - Follow up pending micro and CIS
   - Keep in lines for now
   * Hypotension
   Low BPs likely multifactorial
 may include meds, sepsis, intravascular
   volume depletion. CNS dysfunction and thromboembolic disease also on
   the differential. Normal pump function on repeat echo, no evidence of
   adrenal insufficiency (random cortisol 20 [**5-20**]).
   - Wean pressors as tolerated
 MAP goal 60, will d/c levo and see what
   happens to his BP
   - Currently on midodrine AND levophed, would D/C midodrine today
   - Follow lactate daily, recently stable
    * Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cultures here w/o growth
   - Initially on ampicillin started [**5-4**] with TMP-SMX added for synergy
   [**5-10**]
 broadened to meropenem [**5-21**]. Anticipate 6 week course of
   antibiotics.  Change back to amp today
   - ID recommending LP - but very likely had meningitis and would favor
   empirically treating him with 6-week CNS course. Will discuss with
   neuro re: ultility of LP -> not indicated currently
   - ID input appreciated
   * Acute oliguric renal failure.
   Thought due to ATN in the setting of hypotension.
   - CVVH today for goal -500-1L
   - Renal input appreciated
   * Respiratory failure.
   - Status post trach
   - Trach mask as tolerates
   * Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely. Status post albumin. Liver consult has signed off.
   - Following LFTs
   - Holding spironolactone
   - Elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   - Holding lactulose, on rifaximin
   * Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, holding metoprolol as low blood pressure
   - Monitor on telemetry given NSVT
   * DIC: Now resolved.
   - Follow INR
   * Tachyarrhythmia.
   Resolved. Pt had runs NSVT early in admission, maintained BP at the
   time. Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Now
   stable.
   - Transfuse hematocrit < 21
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - Continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH if TFs off
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-23**] 10:19 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale, Comments: increase
   NPH
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Communication: Patient discussed on interdisciplinary rounds , Family
   meeting held , ICU consent signed Comments:
   Code status: Full code
   Disposition:ICU

2134-05-24 07:55:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-21**] 08:00 AM
   Vancomycin - [**2134-5-21**] 10:02 AM
   Bactrim (SMX/TMP) - [**2134-5-22**] 06:07 PM
   Meropenem - [**2134-5-23**] 10:08 PM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.08 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-23**] 08:49 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-23**] 10:08 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-24**] 07:55 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 35.9
C (96.7
   HR: 77 (74 - 82) bpm
   BP: 103/59(74) {97/45(60) - 124/89(95)} mmHg
   RR: 25 (14 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 21 (14 - 24)mmHg
   Total In:
                                                                  4,121 mL
                                                                  2,532 mL
   PO:
   TF:
                                                                    834 mL
                                                                    313 mL
   IVF:
                                                                  2,958 mL
                                                                  2,069 mL
   Blood products:
   Total out:
                                                                  3,445 mL
                                                                  2,337 mL
   Urine:
                                                                     65 mL
                                                                     15 mL
   NG:
   Stool:
                                                                    800 mL
   Drains:
   Balance:
                                                                    676 mL
                                                                    195 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool, Trach mask , Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 583 (583 - 583) mL
   RR (Set): 20
   RR (Spontaneous): 18
   PEEP: 5 cmH2O
   FiO2: 50%
   RSBI: 165
   PIP: 20 cmH2O
   Plateau: 22 cmH2O
   SpO2: 100%
   ABG: 7.47/31/174/23/0
   Ve: 9 L/min
   PaO2 / FiO2: 435
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Diminished: bases)
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, anasarca
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   7.3 g/dL
   129 K/uL
   148 mg/dL
   2.2 mg/dL
   23 mEq/L
   3.6 mEq/L
   33 mg/dL
   103 mEq/L
   139 mEq/L
   23.1 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-5-21**]  06:35 PM
                             [**2134-5-22**]  04:18 AM
                             [**2134-5-22**]  04:23 AM
                             [**2134-5-23**]  03:08 AM
                             [**2134-5-23**]  03:38 AM
                             [**2134-5-23**]  09:47 PM
                             [**2134-5-23**]  10:03 PM
                             [**2134-5-24**]  03:50 AM
                             [**2134-5-24**]  04:06 AM
                             [**2134-5-24**]  05:57 AM
   WBC
   9.0
   7.8
   6.3
   Hct
   24.7
   23.2
   23.1
   Plt
   155
   154
   129
   Cr
   2.9
   2.4
   2.6
   2.2
   TCO2
   24
   23
   29
   25
   24
   23
   Glucose
   158
   173
   139
   148
   Other labs: PT / PTT / INR:19.8/49.2/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:48/78, Alk Phos / T Bili:154/3.0,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:8.2 mg/dL, Mg++:2.1 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis and septic shock with MODS, still
   critically ill, with continued vasopressor requirement and altered
   mental status.
   >Fevers
    - Has been afebrile for past 24 hours- did broaden Abx to meropenem in
   setting of aspiration and RLL infiltrate.   Will complete 8 day course
   of Meropenem for presumed VAP ([**Date range (1) 6745**])
   > Hypotension
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   - Is this persistent sepsis versus neurogenic shock?
   + Did start midodrine, will uptitrate up  to 5mg tid in attempt to wean
   of  IV vasopressors (rationale is that patient likely has
    component of neurogenic shock; also this would help limit volume)
   > Altered mental status
 thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction)
    - f/u EEG
   - Will d/c phenobarbital given potential deltaMS due to that.  Will d/w
   neuro anti-epileptic regimen (addition Keppra, titrate up
    Dilantin?)
    - Will repeat MRI next week to look for evolution of parenchymal
   lesions for prognostication
    > Renal failure
   -  Still with minimal urine output, with little liklihood of recovery
   of this ATN
   -  Did not tolerate HD yesterday, due to hypotension
    -  Will re-start CVVH today with goal I/O = -500 to -1L
   - Patient  likely  more preload dependent so will keep CVP~8.
   > Mechanical Ventilation
   - Will SBT today to see if patient can withstand coming off of
   mechanical ventilation.
   >Cardiomyopathy
    - TTE [**5-18**] showed improved function.
   > EtOH Cirrhosis
   >Coagulopathy
       - Will replete with vit K  5mg po x 3 days
   Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-23**] 10:19 PM 45 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care, RSBI
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-25 07:06:00 Physician Resident Progress Note
Chief Complaint: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis, continued AMS and
   persistant seizures, now on anticonvulsants
   24 Hour Events:
   - changed back to ampicillin from meropenem, no compelling evidence for
   an aspiration pneumonia
   - changed A line over wire
   - DCd phenobarbital
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-22**] 06:07 PM
   Meropenem - [**2134-5-24**] 10:04 AM
   Ampicillin - [**2134-5-25**] 05:55 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-25**] 07:06 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 64 (59 - 79) bpm
   BP: 103/53(69) {77/41(53) - 109/77(86)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 23 (16 - 24)mmHg
   Total In:
                                                                  7,841 mL
                                                                  2,425 mL
   PO:
   TF:
                                                                    820 mL
                                                                    394 mL
   IVF:
                                                                  6,602 mL
                                                                  1,910 mL
   Blood products:
   Total out:
                                                                  7,444 mL
                                                                  2,196 mL
   Urine:
                                                                     25 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                    229 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 99%
   ABG: 7.40/43/203/23/1
   PaO2 / FiO2: 406
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   93 K/uL
   7.5 g/dL
   139 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   23 mg/dL
   102 mEq/L
   137 mEq/L
   23.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2134-5-24**]  04:06 AM
                             [**2134-5-24**]  05:57 AM
                             [**2134-5-24**]  10:27 AM
                             [**2134-5-24**]  10:52 AM
                             [**2134-5-24**]  04:30 PM
                             [**2134-5-24**]  04:32 PM
                             [**2134-5-24**]  10:56 PM
                             [**2134-5-24**]  11:09 PM
                             [**2134-5-25**]  04:11 AM
                             [**2134-5-25**]  04:22 AM
   WBC
   5.0
   Hct
   23.9
   Plt
   93
   Cr
   2.0
   1.7
   TCO2
   24
   23
   25
   26
   25
   28
   Glucose
   70
   133
   213
   139
   Other labs: PT / PTT / INR:20.2/51.2/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:51/93, Alk Phos / T Bili:170/2.9,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   * Altered mental status
   Persists.  Some eye opening now but does not appear purposful. Probably
   multifactorial with CNS listerial infection, seizures, hepatic
   encephalopathy, medications. Not interactive off of sedatives.  MRI
   showing persistent signs of meningitis/cerebritis, and areas of
   possible septic infarct. TTE without evidence of vegetations.  Had been
   trying to wean down anticonvulsants due to concern these were
   contributing to sedation.
   Had questionable seizure (vs rigoring) [**5-21**] in setting of weaning
   anticonvulsants end of last week, no further clear episodes of seizures
   - Neurology input appreciated
   - Repeat EEG
   - Continue phenobarbitol, dilantin for now pending further neurology
   input. Hold off on further anticonvulsant weaning.
   - Repeat MRI early in week of [**5-24**]
   - Started rifaxamin for potential contribution from liver disease
   - Maintain off propofol
   * Seizures.
   Shaking [**5-21**] seemed more consistent with rigoring than seizures,
   nevertheless must have low suspicion for seizure activity esp in
   setting of weaning anticonvulsants and recurrent seizures here. Pt has
   had multiple seizures that may be due to CNS listeria infection. CT
   head noncontrast without mass or abscess. EEG earlier in admit with
   persistent seizure activity. Given MRI findings question septic
   infarcts serving as nidus for seizure activity
   - Neurology input appreciated
   - EEG, anticonvulsants plan as above
   - Attempt to wean off phenobarb
   - Repeat MRI to asses for interval change to help prognosticate
   * Aspiration pneumonia, suspected.
   Pt with witnessed aspiration event [**5-21**], subsequently evidence of R
   base consolidation and increased O2 requirement. Now O2 requirement
   near baseline with minimal secretions. Sputum growing only yeast.
   - d/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) **], restart amp, day 1=[**5-4**]
   - Aspiration precautions
   - Follow O2 requirement, daily CXR
   * Hypothermia
   Recently with low grade temps (99s) but hypothermic again to 96 in last
   day on CVVH.  ?Persistent/untreated infection, but recent micro has
   been negative. Concern for aspiration event [**5-21**] during contrast
   administration. Pancreatic enzymes elevated of unclear etiology
   evidence of pancreatitis or intraabdominal abscess on imaging. LENIS
   negative [**5-22**].
   - Resume amp and d/c meropenem
   - Follow up pending micro and CIS
   - Keep in lines for now
   * Hypotension
   Low BPs likely multifactorial
 may include meds, sepsis, intravascular
   volume depletion. CNS dysfunction and thromboembolic disease also on
   the differential. Normal pump function on repeat echo, no evidence of
   adrenal insufficiency (random cortisol 20 [**5-20**]).
   - Wean pressors as tolerated
 MAP goal 60, will d/c levo and see what
   happens to his BP
   - Currently on midodrine AND levophed, would D/C midodrine today
   - Follow lactate daily, recently stable
    * Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy.
   - Blood cultures here w/o growth
   - Initially on ampicillin started [**5-4**] with TMP-SMX added for synergy
   [**5-10**]
 broadened to meropenem [**5-21**]. Anticipate 6 week course of
   antibiotics.  Change back to amp today
   - ID recommending LP - but very likely had meningitis and would favor
   empirically treating him with 6-week CNS course. Will discuss with
   neuro re: ultility of LP -> not indicated currently
   - ID input appreciated
   * Acute oliguric renal failure.
   Thought due to ATN in the setting of hypotension.
   - CVVH today for goal -500-1L
   - Renal input appreciated
   * Respiratory failure.
   - Status post trach
   - Trach mask as tolerates
   * Transaminitis with history of cirrhosis.
   LFTS have been trending down/stable and cont to do so. In setting of
   sepsis likely from shock liver. DDx includes med toxicity, hepatic
   congestion in setting of low EF. Acute infectious hepatitis less
   likely. Status post albumin. Liver consult has signed off.
   - Following LFTs
   - Holding spironolactone
   - Elevated bilis may reflect lag in liver recovery. Also consider
   contrib from hemolysis (DIC) which is slowly improving
   - Holding lactulose, on rifaximin
   * Systolic heart failure w/ EF 15% from either recent or remote MI.
   - Continue ASA, holding metoprolol as low blood pressure
   - Monitor on telemetry given NSVT
   * DIC: Now resolved.
   - Follow INR
   * Tachyarrhythmia.
   Resolved. Pt had runs NSVT early in admission, maintained BP at the
   time. Likely predisposed with low EF, systemic infection, acid base
   disturbance in setting of renal failure
   - Continue monitoring on telemetry
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Now
   stable.
   - Transfuse hematocrit < 21
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - Continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH if TFs off
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-25**] 03:08 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-05-25 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > stopped phenobarbitol
   > hypothermic
   > on CVVH running even
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-22**] 06:07 PM
   Ampicillin - [**2134-5-25**] 05:55 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-24**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-25**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.9
C (96.6
   HR: 64 (59 - 79) bpm
   BP: 103/53(69) {77/41(53) - 109/77(86)} mmHg
   RR: 23 (18 - 32) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 23 (16 - 24)mmHg
   Total In:
                                                                  7,841 mL
                                                                  2,713 mL
   PO:
   TF:
                                                                    820 mL
                                                                    445 mL
   IVF:
                                                                  6,602 mL
                                                                  2,149 mL
   Blood products:
   Total out:
                                                                  7,444 mL
                                                                  2,196 mL
   Urine:
                                                                     25 mL
                                                                      4 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                    397 mL
                                                                    517 mL
   Respiratory support
   O2 Delivery Device: Aerosol-cool
   Ventilator mode: Standby
   FiO2: 50%
   SpO2: 99%
   ABG: 7.40/43/203/23/1
   PaO2 / FiO2: 406
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, Endotracheal tube, OG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Rhonchorous: )
   Abdominal: Soft, Non-tender, Distended, anasarca
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: No spontaneous
   movement, No(t) Sedated, Tone: Normal
   Labs / Radiology
   7.5 g/dL
   93 K/uL
   139 mg/dL
   1.7 mg/dL
   23 mEq/L
   3.7 mEq/L
   23 mg/dL
   102 mEq/L
   137 mEq/L
   23.9 %
   5.0 K/uL
        [image002.jpg]
                             [**2134-5-24**]  04:06 AM
                             [**2134-5-24**]  05:57 AM
                             [**2134-5-24**]  10:27 AM
                             [**2134-5-24**]  10:52 AM
                             [**2134-5-24**]  04:30 PM
                             [**2134-5-24**]  04:32 PM
                             [**2134-5-24**]  10:56 PM
                             [**2134-5-24**]  11:09 PM
                             [**2134-5-25**]  04:11 AM
                             [**2134-5-25**]  04:22 AM
   WBC
   5.0
   Hct
   23.9
   Plt
   93
   Cr
   2.0
   1.7
   TCO2
   24
   23
   25
   26
   25
   28
   Glucose
   70
   133
   213
   139
   Other labs: PT / PTT / INR:20.2/51.2/1.9, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:51/93, Alk Phos / T Bili:170/2.9,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:2.0 mmol/L,
   Albumin:3.2 g/dL, LDH:301 IU/L, Ca++:8.6 mg/dL, Mg++:1.9 mg/dL, PO4:2.4
   mg/dL
   CXR [**5-25**]: venous congestion no obv new infiltrates
   Assessment and Plan
   76yo with Listeria meningitis and septic shock with MODS, still
   critically ill, multi organ dysfunction  and very poor prognosis
   >Hypothermia and rigors:  had an ? pf aspiration event on [**5-21**] (during
   CT scan). CT abd /pelv on [**5-21**]: essentially unremarkable. No obv
   infiltrate on CXR.  Has been afebrile on Abx back to ampicillin and
   bactrim
   - f/u blood clx
   - check TSH
   > Listeriosis: go back to ampicillin (d 1 = [**5-4**], stopped on [**4-26**])
   and bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   > Hypotension: unclear etiology with likely low grade SIRS and ?
   neurogenic components as well as his anti-epileptic regimen.
   - off  phenobarb
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  Unable to get NE off (persistently hypotensive). Uncl
   - Cortisol was nl last week.
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction)
    - f/u EEG from over weekend.
   - Off phenobarb now on dilantin alone (CVVH dosing), check level on [**5-28**]
    - Will repeat MRI to look for evolution of parenchymal lesions for
   prognostication
    > Renal failure   Did not tolerate HD yesterday, due to hypotension,
   now back on CVVH
   -  essentially anuric.  Little liklihood of recovery of this ATN
   -  cont  CVVH with goal I/O = even and off NE
   > Mechanical Ventilation: s/p trach on [**5-21**]
   - Tolerating TM well.
   >Cardiomyopathy
    - TTE [**5-18**] showed improved function.
    > EtOH Cirrhosis
   - cont rifax
   Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-25**] 03:08 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-26 06:42:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -per nurse patient opened eyes, closed eyes on command, shook head
   "yes" and "no" to questions briefly
   -neuro recs: no change in plan
   -MRI bumped to [**5-26**] but if MS improving may not need as was for mainly
   prognostic reasons
   -fungal studies and fungal cultures ordered
   -TSH ordered, Pending
   -ID recs w/o any change in plan
   -some serosanguinous drainage from around PEG tube site
   -TSH slightly elevated at 5.4, added on free T4
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Meropenem - [**2134-5-24**] 10:04 AM
   Ampicillin - [**2134-5-26**] 04:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   KCl (CRRT) - 3 mEq./hour
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-25**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-26**] 06:42 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 35.8
C (96.5
   HR: 78 (60 - 84) bpm
   BP: 117/54(74) {78/46(57) - 128/68(84)} mmHg
   RR: 27 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (14 - 28)mmHg
   Total In:
                                                                  8,241 mL
                                                                  2,183 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    318 mL
   IVF:
                                                                  6,496 mL
                                                                  1,805 mL
   Blood products:
   Total out:
                                                                  6,888 mL
                                                                  1,652 mL
   Urine:
                                                                      9 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,353 mL
                                                                    531 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.44/39/157/25/2
   PaO2 / FiO2: 393
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   114 K/uL
   7.4 g/dL
   212 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   138 mEq/L
   23.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-5-25**]  04:11 AM
                             [**2134-5-25**]  04:22 AM
                             [**2134-5-25**]  10:13 AM
                             [**2134-5-25**]  10:38 AM
                             [**2134-5-25**]  04:24 PM
                             [**2134-5-25**]  04:58 PM
                             [**2134-5-25**]  10:31 PM
                             [**2134-5-25**]  10:39 PM
                             [**2134-5-26**]  03:26 AM
                             [**2134-5-26**]  03:38 AM
   WBC
   5.0
   6.3
   Hct
   23.9
   23.9
   Plt
   93
   114
   Cr
   1.7
   1.5
   1.4
   TCO2
   28
   26
   15
   27
   27
   Glucose
   139
   108
   140
   154
   212
   Other labs: PT / PTT / INR:21.4/45.8/2.0, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:49/95, Alk Phos / T Bili:170/2.8,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.3 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures.
   * Altered mental status: seems to be improving slightly as he responds
   to painful stimuli and has spontaneous eye opening, also turns head to
   voice.
   -f/u neuro recs
   -f/u EEG
   -stopped pehnobarb on [**2134-5-24**]
   -continue dilantin- recheck level on [**5-27**] or [**5-28**]
   -continue treatment for likely listeria meningitis and cerebritis
   -repeat MRI for prognostic information, family mtg following MRI
   results for goals of care discussion
   * Seizures: no seizure since [**34**] days prior.
   -continue dilantin, f/u neuro recs, MRI head as above, f/u EEG
   -off phenobarb
   * Aspiration pneumonia, suspected.
   -no infiltrate on X ray
   -d/c
d meropenem, continue amp / bactrim for listeria
   -wean FiO2
   * Hypothermia: continue abx for listeria.  f/u pending cultures.
   -f/u cultures
   -check TSH
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca.
   -continue ampicillin
   -not adrenally insufficient
   -check lactate
   -check TSH
   -echo normal
    * Listeriosis with bacteremia and septic shock.
   Likely c/b meningitis as presented w/ HA and lethargy
   -f/u repeat cultures
   -continue amp / bactrim
   * Acute oliguric renal failure.
   Thought due to ATN in the setting of hypotension.
   - CVVH today for goal even
   - Renal input appreciated
   * Respiratory failure.
   - Status post trach
   - Trach mask as tolerates
   * Transaminitis with history of cirrhosis.
   -trend LFTs, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * DIC: Now resolved.
   - Follow INR
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Now
   stable.
   - Transfuse hematocrit < 21
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - Continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH if TFs off
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-25**] 09:20 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-05-26 08:08:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-5-25**] 10:36 AM
   > Patient with improved mental status
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Meropenem - [**2134-5-24**] 10:04 AM
   Ampicillin - [**2134-5-26**] 04:00 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   KCl (CRRT) - 3 mEq./hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-25**] 10:55 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-26**] 08:08 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 34.8
C (94.6
   HR: 76 (66 - 84) bpm
   BP: 94/44(60) {78/44(57) - 128/68(84)} mmHg
   RR: 29 (20 - 33) insp/min
   SpO2: 100%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 12 (12 - 28)mmHg
   Total In:
                                                                  8,241 mL
                                                                  2,626 mL
   PO:
   TF:
                                                                  1,325 mL
                                                                    395 mL
   IVF:
                                                                  6,496 mL
                                                                  2,171 mL
   Blood products:
   Total out:
                                                                  6,888 mL
                                                                  2,097 mL
   Urine:
                                                                      9 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,353 mL
                                                                    529 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 100%
   ABG: 7.44/39/157/25/2
   PaO2 / FiO2: 393
   Physical Examination
   General Appearance: Well nourished
   Head, Ears, Nose, Throat: Endotracheal tube, OG tube, trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: Responds to: verbal stimuli, nodding head to questions.,
   Movement: Not assessed, Tone: Not assessed
   Labs / Radiology
   7.4 g/dL
   114 K/uL
   212 mg/dL
   1.4 mg/dL
   25 mEq/L
   3.8 mEq/L
   18 mg/dL
   101 mEq/L
   138 mEq/L
   23.9 %
   6.3 K/uL
        [image002.jpg]
                             [**2134-5-25**]  04:11 AM
                             [**2134-5-25**]  04:22 AM
                             [**2134-5-25**]  10:13 AM
                             [**2134-5-25**]  10:38 AM
                             [**2134-5-25**]  04:24 PM
                             [**2134-5-25**]  04:58 PM
                             [**2134-5-25**]  10:31 PM
                             [**2134-5-25**]  10:39 PM
                             [**2134-5-26**]  03:26 AM
                             [**2134-5-26**]  03:38 AM
   WBC
   5.0
   6.3
   Hct
   23.9
   23.9
   Plt
   93
   114
   Cr
   1.7
   1.5
   1.4
   TCO2
   28
   26
   15
   27
   27
   Glucose
   139
   108
   140
   154
   212
   Other labs: PT / PTT / INR:21.4/45.8/2.0, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:49/95, Alk Phos / T Bili:170/2.8,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.1 mmol/L,
   Albumin:3.3 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:1.9 mg/dL, PO4:2.3
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis and septic shock with MODS, still
   critically ill, multi organ dysfunction  and now with limited MS
   improvement
    >Hypothermia and rigors:  had an ? pf aspiration event on [**5-21**] (during
   CT scan). CT abd /pelv on [**5-21**]: essentially unremarkable. No obv
   infiltrate on CXR.  Has been afebrile on Abx back to ampicillin and
   bactrim
   - f/u blood clx
   - check TSH: close to upper limit of normal likely sick euthyroid to
   some degree
   > Listeriosis: go back to ampicillin (d 1 = [**5-4**], stopped on [**4-26**])
   and bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   > Hypotension: unclear etiology with likely low grade SIRS and ?
   neurogenic components as well as his anti-epileptic regimen.
   - off  phenobarb
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  Will try to get off NE today (tolerate MAP > 50 if mental status ok)
   - Cortisol was nl last week.
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now with improved MS
   today.
   - Off phenobarb now on dilantin alone (CVVH dosing), check level on [**5-28**]
    - MRI scheduled for today (will f/u read)
   > Renal failure   Did not tolerate HD yesterday, due to hypotension,
   now back on CVVH
   -  essentially anuric.  Little liklihood of recovery of this ATN
   -  cont  CVVH with goal I/O = even and off NE
   > Mechanical Ventilation: s/p trach on [**5-21**]
   - Tolerating TM well.
    >Cardiomyopathy
    - TTE [**5-18**] showed improved function.
    > EtOH Cirrhosis
   - cont rifax
   Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-25**] 09:20 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-7**] 01:41 PM
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Had 30 minute conversation with youngest son
   about his current status and prognosis. Aware that chances of
   meaningful survival are slim. Will communicate to the rest of the very
   large family.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-27 07:01:00 Physician Resident Progress Note
Chief Complaint: septic shock, listeriorisis, seizures
   24 Hour Events:
   Lab called with (+) yeast in blood culture from left a line
   Called ID, started Fluconazole. Per pharm will need daily free dilantin
   levels.
   Ordered [**Last Name (LF) **], [**First Name3 (LF) 124**] need to call ophto this AM
   D/C'd left A line, tip sent for culture. Placed right a line
   ID recommends MRI to r/o listeria abscess
 ARTERIAL LINE - STOP [**2134-5-27**] 12:52 AM
 ARTERIAL LINE - START [**2134-5-27**] 12:53 AM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Meropenem - [**2134-5-24**] 10:04 AM
   Fluconazole - [**2134-5-26**] 08:00 PM
   Ampicillin - [**2134-5-27**] 03:58 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-26**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-27**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 74 (69 - 79) bpm
   BP: 91/48(63) {56/33(42) - 109/74(88)} mmHg
   RR: 22 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 18 (11 - 21)mmHg
   Total In:
                                                                  8,639 mL
                                                                  2,410 mL
   PO:
   TF:
                                                                  1,275 mL
                                                                    383 mL
   IVF:
                                                                  6,944 mL
                                                                  1,967 mL
   Blood products:
   Total out:
                                                                  7,634 mL
                                                                  2,009 mL
   Urine:
                                                                     42 mL
                                                                     10 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,005 mL
                                                                    401 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.46/38/177/23/3
   PaO2 / FiO2: 506
   Physical Examination
   GEN: opens eyes to sternal rub, intermittent coughing
   HEENT: PERRL, unable to assess OP
   CHEST: CTAB anteriorly
   CV: RRR nls S1, S2, no m/r/g
   ABD: slight distension, decreased BS, PEG in place without drainage
   EXT: [**1-26**]+ swelling in all extremities, anasarca
   DERM: no rashes
   NEURO: opens eyes to sternal rub, PERRL
   Labs / Radiology
   151 K/uL
   6.9 g/dL
   86 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.5 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   21.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2134-5-26**]  03:26 AM
                             [**2134-5-26**]  03:38 AM
                             [**2134-5-26**]  09:36 AM
                             [**2134-5-26**]  09:44 AM
                             [**2134-5-26**]  03:48 PM
                             [**2134-5-26**]  04:43 PM
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
   WBC
   6.3
   5.4
   Hct
   23.9
   21.4
   Plt
   114
   151
   Cr
   1.4
   1.4
   TCO2
   27
   28
   28
   31
   28
   Glucose
   [**Telephone/Fax (2) 6826**]7
   86
   Other labs: PT / PTT / INR:23.9/68.2/2.3, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:49/95, Alk Phos / T Bili:170/2.8,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.3 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status: likely secondary to listeriosis, sz, and now
   new fungemia
   - MRI today to evaluate for ? absccess [**1-25**] listeriosis
   - f/u neuro recs
   - f/u final EEG
   - continue dilantin with daily levels (now that he is on fluc)
   -continue treatment for likely listeria meningitis and cerebritis x 6
   weeks
   - will do LP today with FFP prior
   * Fungemia: 1 bottle from a-line
   - f/u culture data
   - f/u echo
   - per ID, fluconazole treatment for now
   - consult ophtho
   - culture CVL and HD line, will pull HD line and replace CVL today
   - LP today
   * Seizures: no seizure since [**34**] days prior.
   -continue dilantin
   - f/u neuro recs,
   - MRI head as above
   - f/u EEG
   * Hypothermia: now may be [**1-25**] low grade fungemia
   - f/u cultures
   - f/u FT4
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca. Also now with fungemia
   - wean off levophed to keep MAP>50
   -continue ampicillin/bactrim for listeria
   - monitor lactate
   - investigate CNS with LP today
   * Acute oliguric renal failure.
   Thought due to ATN in the setting of hypotension.
   - d/c HD line today due to fungemia
   - hold on CVVH today
   - appreciate renal recs
   * Respiratory failure.
   - decrease FiO2 and monitor sats
   - Trach mask as tolerates
   * Transaminitis with history of cirrhosis.
   -trend LFTs, INR, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Now
   stable.
   - Transfuse hematocrit < 21
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - Continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH if TFs off
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-26**] 04:20 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Arterial Line - [**2134-5-27**] 12:53 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2134-05-27 07:35:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 ARTERIAL LINE - STOP [**2134-5-27**] 12:52 AM
 ARTERIAL LINE - START [**2134-5-27**] 12:53 AM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Meropenem - [**2134-5-24**] 10:04 AM
   Fluconazole - [**2134-5-26**] 08:00 PM
   Ampicillin - [**2134-5-27**] 03:58 AM
   Infusions:
   Calcium Gluconate (CRRT) - 1.4 grams/hour
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-26**] 04:30 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-27**] 07:35 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.9
C (98.4
   Tcurrent: 36.2
C (97.1
   HR: 74 (69 - 79) bpm
   BP: 91/48(63) {56/33(42) - 109/74(88)} mmHg
   RR: 22 (15 - 33) insp/min
   SpO2: 97%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 18 (11 - 21)mmHg
   Total In:
                                                                  8,639 mL
                                                                  2,631 mL
   PO:
   TF:
                                                                  1,275 mL
                                                                    414 mL
   IVF:
                                                                  6,944 mL
                                                                  2,098 mL
   Blood products:
   Total out:
                                                                  7,634 mL
                                                                  2,279 mL
   Urine:
                                                                     42 mL
                                                                     10 mL
   NG:
   Stool:
                                                                    900 mL
   Drains:
   Balance:
                                                                  1,005 mL
                                                                    352 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   SpO2: 97%
   ABG: 7.46/38/177/23/3
   PaO2 / FiO2: 506
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, Poor dentition, Endotracheal
   tube, PEG
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.9 g/dL
   151 K/uL
   86 mg/dL
   1.4 mg/dL
   23 mEq/L
   5.5 mEq/L
   17 mg/dL
   106 mEq/L
   138 mEq/L
   21.4 %
   5.4 K/uL
        [image002.jpg]
                             [**2134-5-26**]  03:26 AM
                             [**2134-5-26**]  03:38 AM
                             [**2134-5-26**]  09:36 AM
                             [**2134-5-26**]  09:44 AM
                             [**2134-5-26**]  03:48 PM
                             [**2134-5-26**]  04:43 PM
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
   WBC
   6.3
   5.4
   Hct
   23.9
   21.4
   Plt
   114
   151
   Cr
   1.4
   1.4
   TCO2
   27
   28
   28
   31
   28
   Glucose
   [**Telephone/Fax (2) 6826**]7
   86
   Other labs: PT / PTT / INR:23.9/68.2/2.3, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:49/95, Alk Phos / T Bili:170/2.8,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.3 mmol/L,
   Albumin:3.3 g/dL, LDH:301 IU/L, Ca++:8.7 mg/dL, Mg++:1.7 mg/dL, PO4:2.0
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis and septic shock with MODS, still
   critically ill, multi organ dysfunction  and now with limited MS
   improvement
    >Hypothermia and rigors:  had an ? pf aspiration event on [**5-21**] (during
   CT scan). CT abd /pelv on [**5-21**]: essentially unremarkable. No obv
   infiltrate on CXR.  Has been afebrile on Abx back toampicillin and
   bactrim
   - f/u blood clx
   \- check TSH: close to upper limit of normal likely sick euthyroid to
   some degree
   > Listeriosis: go back to ampicillin (d 1 = [**5-4**], stopped on [**4-26**])
   and bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   > Hypotension: unclear etiology with likely low grade SIRS and ?
   neurogenic components as well as his anti-epileptic regimen.
   - off  phenobarb
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  Will try to get off NE today (tolerate MAP > 50 if mental status ok)
   - Cortisol was nl last week.
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now with improved MS
   today.
   - Off phenobarb now on dilantin alone (CVVH dosing), check level on [**5-28**]
    - MRI scheduled for today (will f/u read)
   > Renal failure   Did not tolerate HD yesterday, due to hypotension,
   now back on CVVH
   -  essentially anuric.  Little liklihood of recovery of this ATN
   -  cont  CVVH with goal I/O = even and off NE
   > Mechanical Ventilation: s/p trach on [**5-21**]
   - Tolerating TM well.
   >Cardiomyopathy
   - TTE [**5-18**] showed improved function.
    > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-26**] 04:20 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Multi Lumen - [**2134-5-7**] 02:19 PM
   Dialysis Catheter - [**2134-5-14**] 04:26 PM
   Arterial Line - [**2134-5-27**] 12:53 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-28 07:01:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 MULTI LUMEN - STOP [**2134-5-27**] 05:17 PM
 DIALYSIS CATHETER - STOP [**2134-5-27**] 05:17 PM
 MULTI LUMEN - START [**2134-5-27**] 05:21 PM
 INVASIVE VENTILATION - START [**2134-5-27**] 08:00 PM
   - BCx from a-line with fungal growth (YEAST, PRESUMPTIVELY NOT C.
   ALBICANS)
   - ID recommends MRI head, TTE, opth c/s, and LP for fungemia
   - No endophthalmitis per Optho
   - TTE negative for vegetations, EF>65%
   - D/C'ed RIJ and R temporary HD catheter and cultured tips
   - Given FFP prior to placing LIJ
   - Ordered for temp HD access by IR
   - Renal recs agree with resiting HD line and holding CVVH for now
   - Neuro agrees with MRI head and continue daily dilantin levels
   - MRI head STILL pending
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Fluconazole - [**2134-5-27**] 08:00 PM
   Ampicillin - [**2134-5-28**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-27**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-28**] 07:00 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (74 - 83) bpm
   BP: 102/49(65) {88/45(60) - 128/64(84)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 25 (18 - 50)mmHg
   Total In:
                                                                  7,449 mL
                                                                    616 mL
   PO:
   TF:
                                                                  1,326 mL
                                                                    338 mL
   IVF:
                                                                  4,766 mL
                                                                    278 mL
   Blood products:
                                                                  1,148 mL
   Total out:
                                                                  4,321 mL
                                                                      8 mL
   Urine:
                                                                     95 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,128 mL
                                                                    609 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 393 (393 - 409) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/40/187/27/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 468
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   113 K/uL
   6.8 g/dL
   104 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   140 mEq/L
   21.8 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-5-26**]  09:44 AM
                             [**2134-5-26**]  03:48 PM
                             [**2134-5-26**]  04:43 PM
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
   WBC
   5.4
   4.9
   Hct
   21.4
   21.8
   Plt
   151
   113
   Cr
   1.4
   1.4
   1.8
   TCO2
   28
   28
   31
   28
   28
   Glucose
   84
   117
   86
   125
   104
   Other labs: PT / PTT / INR:19.4/39.1/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:40/94, Alk Phos / T Bili:156/3.2,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.2 g/dL, LDH:230 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status:  likely secondary to listeriosis, sz, and now
   new fungemia
   - MRI today to evaluate for ? absccess [**1-25**] listeriosis- f/u MRI read
   - f/u neuro recs
   - EEG w/o seizure activity, only slowing
   - continue dilantin with daily levels (now that he is on fluc)
   -continue treatment for likely listeria meningitis and cerebritis
   - plan for LP pending MRI read and family meeting
   * Fungemia: 1 bottle from a-line
   - f/u culture data, send surveillance cultures
   - TTE w/o significant valvular vegetation or regurgitation, hold off on
   TEE for now as will not change immediate management and less likely
   fungal endocarditis given isolated + blood cultures and no significant
   valvular regurg
   - per ID, fluconazole treatment for now
   - per ophtho no endophthalmitis
   - HD and CVL removed on R, awaiting HD reinsertion for tentatively
   Monday
   * Seizures: no seizure since [**34**] days prior.
   -continue dilantin
   - f/u neuro recs
   - MRI head as above
   - f/u EEG
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca. Also now with fungemia
   - wean off levophed to keep MAP>50
   -continue ampicillin/bactrim for listeria
   - monitor lactate
   * Acute oliguric renal failure.
   Thought due to ATN in the setting of hypotension, still no UOP.
   - d/c HD line today due to fungemia
   * Respiratory failure.
   - switch to trach collar when sedation weaned (on propofol temporarily
   for procedures)
   * Transaminitis with history of cirrhosis.
   -trend LFTs, INR, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * Anemia:  Microcytic.  Drop from admission in setting of IVF. Now
   stable.
   - Transfuse hematocrit < 21
   * Thrombocytopenia: Now stable, Likely from cirrhosis.  ? from DIC
   initially.  Stable.
   - Continue to trend
   * DM2: BS < 200
   - Hold home metformin
   - Insulin regular sliding scale, goal glucose <150. hold NPH if TFs off
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-28**] 05:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: sc heparin tid
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-05-28 07:50:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MULTI LUMEN - STOP [**2134-5-27**] 05:17 PM
 DIALYSIS CATHETER - STOP [**2134-5-27**] 05:17 PM
 MULTI LUMEN - START [**2134-5-27**] 05:21 PM
 INVASIVE VENTILATION - START [**2134-5-27**] 08:00 PM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Fluconazole - [**2134-5-27**] 08:00 PM
   Ampicillin - [**2134-5-28**] 04:00 AM
   Infusions:
   Norepinephrine - 0.1 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-27**] 10:03 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-28**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (98.9
   Tcurrent: 37.2
C (98.9
   HR: 79 (74 - 83) bpm
   BP: 102/49(65) {92/45(60) - 128/64(84)} mmHg
   RR: 18 (16 - 31) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 25 (19 - 50)mmHg
   Total In:
                                                                  7,449 mL
                                                                    677 mL
   PO:
   TF:
                                                                  1,326 mL
                                                                    383 mL
   IVF:
                                                                  4,766 mL
                                                                    294 mL
   Blood products:
                                                                  1,148 mL
   Total out:
                                                                  4,321 mL
                                                                      8 mL
   Urine:
                                                                     95 mL
                                                                      8 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,128 mL
                                                                    669 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: SIMV/PSV/AutoFlow
   Vt (Set): 550 (550 - 550) mL
   Vt (Spontaneous): 393 (393 - 409) mL
   PS : 10 cmH2O
   RR (Set): 12
   RR (Spontaneous): 7
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: RR >35
   PIP: 21 cmH2O
   Plateau: 17 cmH2O
   Compliance: 45.8 cmH2O/mL
   SpO2: 99%
   ABG: 7.44/40/187/27/3
   Ve: 8.6 L/min
   PaO2 / FiO2: 468
   Physical Examination
   General Appearance: No acute distress, Overweight / Obese
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Endotracheal tube, NG tube
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Present), (Left radial pulse:
   Present), (Right DP pulse: Not assessed), (Left DP pulse: Not assessed)
   Respiratory / Chest: (Breath Sounds: Clear : , Crackles : , Bronchial:
   )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 4+, Left: 4+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, No(t) Oriented (to): , Movement: Not assessed, No(t)
   Sedated, Tone: Normal
   Labs / Radiology
   6.8 g/dL
   113 K/uL
   104 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   140 mEq/L
   21.8 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-5-26**]  09:44 AM
                             [**2134-5-26**]  03:48 PM
                             [**2134-5-26**]  04:43 PM
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
   WBC
   5.4
   4.9
   Hct
   21.4
   21.8
   Plt
   151
   113
   Cr
   1.4
   1.4
   1.8
   TCO2
   28
   28
   31
   28
   28
   Glucose
   84
   117
   86
   125
   104
   Other labs: PT / PTT / INR:19.4/39.1/1.8, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:40/94, Alk Phos / T Bili:156/3.2,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.5 mmol/L,
   Albumin:3.2 g/dL, LDH:230 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement
    >Hypothermia and rigors:  Now with fungemia (A line), on Fluconazole
   d1= [**5-26**], neg TTE and neg opth eval, defer TEE for now.
   - removed CVC and HD cath
   - cont Fluconazole.
   - surveillance clx from mycolytic
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**]) and
   bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   > Hypotension: likely appears [**1-25**] fungemia.
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  MAP goal > 50
   - Cortisol was nl last week.
    > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS (awaiting read MRI done today)
   - Dilantin alone (CVVH dosing), check level on [**5-28**]
    - MRI read
   - Consider LP based on MRI read
    > Renal failure : dialysis break given the removal of the
   -  essentially anuric.  Little potential for recovery of this ATN
   - break from  CVVH
    > Mechanical Ventilation: s/p trach on [**5-21**]
   - Tolerating TM well wean FiO2, will restart when sedation from MRI
   wears off.
   >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   > EtOH Cirrhosis
   - cont rifax
   Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-28**] 05:20 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments: Family meeting planned for today.
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-29 04:40:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -[** 6894**] of head with two small abscesses, unchanged from [**5-14**], diffuse
   meningeal enhancement, plan for LP on Sat a.m.
   -plan for HD catheter replacement on Monday
   -family meeting, no significant change in management
   -diarrhea- sending C diff, banana flakes added to feeds
   -surveillance cultures sent
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Fluconazole - [**2134-5-27**] 08:00 PM
   Ampicillin - [**2134-5-29**] 04:01 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-28**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-29**] 04:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.6
C (99.7
   Tcurrent: 37.5
C (99.5
   HR: 80 (77 - 86) bpm
   BP: 92/46(60) {73/36(48) - 138/67(88)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
    CVP: 15 (10 - 29)mmHg
   Total In:
                                                                  2,301 mL
                                                                    440 mL
   PO:
   TF:
                                                                  1,225 mL
                                                                    199 mL
   IVF:
                                                                    727 mL
                                                                    181 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,741 mL
                                                                    440 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 550) mL
   Vt (Spontaneous): 321 (321 - 370) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.44/38/85.[**Numeric Identifier 299**]//1
   Ve: 10.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   GEN: nad
   CARD: RRR, NO M/R/G
   PULM: CTAB
   ABD: Soft, NT, ND, no masses or organomegaly
   EXT: WWP, + edema bilaterally
   Neuro: occasional head movements, spontaneous eye opening, tracks to
   voice
   Labs / Radiology
   119 K/uL
   6.4 g/dL
   104 mg/dL
   1.8 mg/dL
   27 mEq/L
   3.9 mEq/L
   23 mg/dL
   103 mEq/L
   140 mEq/L
   20.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
                             [**2134-5-28**]  04:35 PM
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
   WBC
   5.4
   4.9
   4.9
   Hct
   21.4
   21.8
   20.0
   Plt
   151
   113
   119
   Cr
   1.4
   1.4
   1.8
   TCO2
   31
   28
   28
   28
   27
   Glucose
   117
   86
   125
   104
   Other labs: PT / PTT / INR:18.5/43.7/1.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:40/94, Alk Phos / T Bili:156/3.2,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.2 g/dL, LDH:230 IU/L, Ca++:9.1 mg/dL, Mg++:1.8 mg/dL, PO4:2.9
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status:  likely secondary to listeriosis (listeria
   meningitis and cerebritis) and fungemia
   -[**Year (4 digits) 6894**] revealing continued abnormal signal intensity in CSF, diffuse
   meningeal enhancement and 2 small abscesses
   -perform LP- send for cell count, diff, gram stain / culture, fungal
   culture, protein, glucose and save extra fluid. Will need FFP prior to
   LP (
   -f/u neuro and ID recs
   -continue ampicillin and bactrim for listerosis
   -continue fluconazole for fungemia
   -EEG w/o seizure activity, only slowing, continue dilantin and follow
   daily levels while on fluconazole
   * Fungemia: 1 bottle from a-line
   -continue to f/u cultures, surveillance cultures
   -[**First Name5 (NamePattern1) 474**] [**Last Name (NamePattern1) 5744**]
   -TTE negative
   - per ID, fluconazole treatment for now
   - per ophtho no endophthalmitis
   - HD and CVL removed on R, awaiting HD reinsertion for tentatively
   Monday
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca.
   -continue levophed, wean as tolerated, MAP goal > 50mmHg
   -continue to treat above infections
   * Acute anuric renal failure:
   -ATN in setting of hypotension, however, not recovering
   -CVVH, currently on hold given lack of HD line for line holiday, plan
   to reinsert Monday unless urgently needed over the weekend
   * Respiratory failure.
   - tolerating trach collar well, wean O2 as tolerated
   * Transaminitis with history of cirrhosis.
   -trend LFTs, INR, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * Anemia:  Microcytic.  transfuse for hct < 21
   -daily hct for now
   * Thrombocytopenia: stable, Likely from cirrhosis.
   - Continue to trend daily
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-28**] 05:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-05-29 08:04:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 MAGNETIC RESONANCE IMAGING - At [**2134-5-28**] 08:30 AM
 BLOOD CULTURED - At [**2134-5-28**] 12:15 PM
 STOOL CULTURE - At [**2134-5-28**] 12:15 PM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Fluconazole - [**2134-5-27**] 08:00 PM
   Ampicillin - [**2134-5-29**] 04:01 AM
   Infusions:
   Norepinephrine - 0.08 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-28**] 08:09 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-28**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-29**] 08:03 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.5
C (99.5
   Tcurrent: 37.5
C (99.5
   HR: 82 (77 - 86) bpm
   BP: 104/49(65) {73/36(48) - 138/67(88)} mmHg
   RR: 27 (16 - 32) insp/min
   SpO2: 95%
   Heart rhythm: SR (Sinus Rhythm)
   Height: 70 Inch
   CVP: 17 (10 - 29)mmHg
   Total In:
                                                                  2,301 mL
                                                                    687 mL
   PO:
   TF:
                                                                  1,225 mL
                                                                    386 mL
   IVF:
                                                                    727 mL
                                                                    241 mL
   Blood products:
   Total out:
                                                                    560 mL
                                                                      0 mL
   Urine:
                                                                    160 mL
   NG:
   Stool:
                                                                    400 mL
   Drains:
   Balance:
                                                                  1,741 mL
                                                                    689 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: Standby
   Vt (Set): 0 (0 - 0) mL
   Vt (Spontaneous): 321 (321 - 321) mL
   PS : 5 cmH2O
   RR (Set): 0
   RR (Spontaneous): 29
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 95%
   ABG: 7.44/38/85.[**Numeric Identifier 299**]/22/1
   Ve: 10.6 L/min
   PaO2 / FiO2: 213
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic, trach, PEG
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Not assessed, Movement: Not assessed, No(t) Sedated, Tone: Not
   assessed
   Labs / Radiology
   6.4 g/dL
   119 K/uL
   143 mg/dL
   2.5 mg/dL
   22 mEq/L
   4.2 mEq/L
   39 mg/dL
   105 mEq/L
   141 mEq/L
   20.0 %
   4.9 K/uL
        [image002.jpg]
                             [**2134-5-26**]  09:21 PM
                             [**2134-5-26**]  09:53 PM
                             [**2134-5-27**]  03:34 AM
                             [**2134-5-27**]  04:33 AM
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
                             [**2134-5-28**]  04:35 PM
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
   WBC
   5.4
   4.9
   4.9
   Hct
   21.4
   21.8
   20.0
   Plt
   151
   113
   119
   Cr
   1.4
   1.4
   1.8
   2.5
   TCO2
   31
   28
   28
   28
   27
   Glucose
   117
   86
   125
   104
   143
   Other labs: PT / PTT / INR:18.5/43.7/1.7, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:43/104, Alk Phos / T Bili:169/2.7,
   Amylase / Lipase:216/200, Differential-Neuts:84.1 %, Lymph:10.7 %,
   Mono:3.8 %, Eos:1.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.0 g/dL, LDH:268 IU/L, Ca++:8.7 mg/dL, Mg++:2.0 mg/dL, PO4:4.1
   mg/dL
   CXR [**5-29**]:
   [**Month/Day (4) 6894**] [**5-28**]
                        Preliminary Report !! PFI !!
   PFI: Diffuse pachymeningeal enhancement. Enhancing 9-mm mass in the
   left
   basal ganglia likely abscess, stable since [**2134-5-14**]. Stable enhancing
   mass
   right subinsular measuring 5 mm likely abscess. Abnormal CSF signal
   consistent with probable meningitis with possible cerebritis, stable.
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement
   >Hypothermia and rigors:  fungemia (A line clx and tip), on Fluconazole
   d1= [**5-26**], neg TTE and neg opth eval, defer TEE for now.
   - removed CVC and HD cath, surveillance clx negative.
   - cont Fluconazole. D1= [**5-26**]
   - surveillance clx from mycolytic
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**]) and
   bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   - LP today with FFP
   - check to ensure HIV testing completed
   > High stool out: question of c. dif vs tube feeds. F/u c. dif clx.
   > Hypotension: likely appears [**1-25**] fungemia now complicated by slow drop
   in Hct [**5-29**], transfused PRBC today.
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  MAP goal > 50
   - Cortisol was nl last week.
    > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis.
   - Dilantin alone (CVVH dosing), check level on [**5-28**]
   - LP [**5-29**]
    > Renal failure : dialysis break given the removal of the
   -  essentially anuric.  Little potential for recovery of this ATN
   - break from  CVVH, with plan for line [**5-31**]
   > Mechanical Ventilation: s/p trach on [**5-21**]
   - Tolerating TM well wean FiO2 as tolerated.
    >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Stop ASA given dropping HCT
   > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-28**] 05:20 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 50 minutes
   Patient is critically ill

2134-05-30 07:15:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-5-29**] 12:00 PM
   Blood cultures x2 R radial aline and LIJ
 LUMBAR PUNCTURE - At [**2134-5-29**] 03:00 PM
   -LP attempted but unsuccessful, lots of bleeding
   -Received 2 units FFP prior to LP, 4 units afterwards (will try to get
   in neuro-IR at same time as tunneled HD line)
   -2 units pRBC's given
   -5am had another generalized seizure, responded to 4mg IV ativan
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-29**] 05:59 PM
   Fluconazole - [**2134-5-29**] 10:30 PM
   Ampicillin - [**2134-5-30**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-29**] 10:13 PM
   Lorazepam (Ativan) - [**2134-5-30**] 05:37 AM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-30**] 07:15 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 85 (69 - 86) bpm
   BP: 107/59(74) {78/43(55) - 160/82(107)} mmHg
   RR: 38 (10 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 102 kg
   Height: 70 Inch
    CVP: 13 (13 - 34)mmHg
   Total In:
                                                                  4,461 mL
                                                                  1,310 mL
   PO:
   TF:
                                                                  1,012 mL
                                                                    343 mL
   IVF:
                                                                    872 mL
                                                                    207 mL
   Blood products:
                                                                  2,036 mL
                                                                    700 mL
   Total out:
                                                                    150 mL
                                                                     50 mL
   Urine:
                                                                    150 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,311 mL
                                                                  1,260 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 413 (383 - 2,116) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.47/34/95.[**Numeric Identifier 252**]/23/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   GEN: nad, PERRL
   CARD: RRR, NO M/R/G
   PULM: RLL with rhonchi
   ABD: Slightly tense, NT, ND, no masses or organomegaly
   EXT: WWP, + edema bilaterally
   Neuro: intubated
   Labs / Radiology
   93 K/uL
   6.3 g/dL
   139 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.9 mEq/L
   51 mg/dL
   103 mEq/L
   141 mEq/L
   23.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
                             [**2134-5-28**]  04:35 PM
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
                             [**2134-5-30**]  12:30 AM
                             [**2134-5-30**]  12:35 AM
                             [**2134-5-30**]  06:11 AM
                             [**2134-5-30**]  06:27 AM
   WBC
   4.9
   4.9
   5.2
   Hct
   21.8
   20.0
   20.0
   23.4
   Plt
   113
   119
   93
   Cr
   1.4
   1.8
   2.5
   3.1
   TCO2
   28
   28
   27
   25
   25
   Glucose
   125
   104
   143
   139
   Other labs: PT / PTT / INR:17.8/35.1/1.6, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:43/120, Alk Phos / T Bili:157/2.7,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:417 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   ASSESSMENT/PLAN: 76M with DM and cirrhosis presented to an OSH in
   septic shock, likely secondary to listeriosis now w/ multiorgansystem
   failure and presumed meningitis/cerebritis and difficult to control
   seizures, now with fungemia.
   * Altered mental status/seizures:  likely secondary to listeriosis
   (listeria meningitis and cerebritis) and fungemia. Abscesses seen on
   [**Year (4 digits) 6894**].  Attempted LP yesterday.
   - can attempt LP today (at bedside vs. IR)
   - f/u neuro recs in light of new seizure and ? phenobarb resuming
   - continue amp/bactrim for listeria
   - continue fluconazole for fungemia
   - repeat EEG
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   -continue to f/u cultures, surveillance cultures
   - per ID, fluconazole treatment for now
   - per ophtho no endophthalmitis
   - HD and CVL removed on R, awaiting HD reinsertion for tentatively
   Monday
   - if continues to grow fungal cx, will need TEE
   * Respiratory failure: CXR appears that pt may have aspirated this AM
   during sz like activity
   - daily CXR
   - sputum sample
   - broaden coverage for vancomycin
   - attempt PS and check gas
   * Anemia:  Microcytic.
   -  3 PM Hct
   - add on hemolysis labs, peripheral smear
   - guiaic stools
   - transfuse 2 pRBCs
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca.
   -continue levophed, wean as tolerated, MAP goal > 50mmHg
   -continue to treat above infections
   * Acute anuric renal failure:
   -ATN in setting of hypotension, however, not recovering
   -CVVH, currently on hold given lack of HD line for line holiday, plan
   to reinsert Monday unless urgently needed over the weekend
   * Transaminitis with history of cirrhosis.
   -trend LFTs, INR, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * Thrombocytopenia: stable, Likely from cirrhosis.  [**Month (only) 8**] be in setting
   of giving blood products
   - Continue to trend daily
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-28**] 05:20 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition: ICU

2134-05-30 08:00:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 BLOOD CULTURED - At [**2134-5-29**] 12:00 PM
   Blood cultures x2 R radial aline and LIJ
 LUMBAR PUNCTURE - At [**2134-5-29**] 03:00 PM (unsuccessful) 2U FFP and 4U
   FFP afterwards.
   > Seizure overnight: generalized tonic clonic, appears to have broken
   on its own (but did receive 4 mg of ativan)
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-5-29**] 05:59 PM
   Fluconazole - [**2134-5-29**] 10:30 PM
   Ampicillin - [**2134-5-30**] 04:00 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-29**] 08:00 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-29**] 10:13 PM
   Lorazepam (Ativan) - [**2134-5-30**] 05:37 AM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-30**] 07:59 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37
C (98.6
   Tcurrent: 37
C (98.6
   HR: 85 (69 - 86) bpm
   BP: 107/59(74) {78/43(55) - 160/82(107)} mmHg
   RR: 38 (10 - 38) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 110 kg (admission): 102 kg
   Height: 70 Inch
   CVP: 13 (13 - 34)mmHg
   Total In:
                                                                  4,461 mL
                                                                  1,360 mL
   PO:
   TF:
                                                                  1,012 mL
                                                                    382 mL
   IVF:
                                                                    872 mL
                                                                    218 mL
   Blood products:
                                                                  2,036 mL
                                                                    700 mL
   Total out:
                                                                    150 mL
                                                                     50 mL
   Urine:
                                                                    150 mL
                                                                     50 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,311 mL
                                                                  1,310 mL
   Respiratory support
   O2 Delivery Device: Trach mask
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 413 (383 - 2,116) mL
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 83
   PIP: 22 cmH2O
   SpO2: 96%
   ABG: 7.47/34/95.[**Numeric Identifier 252**]/23/1
   Ve: 12.7 L/min
   PaO2 / FiO2: 238
   Physical Examination
   General Appearance: Well nourished
   Eyes / Conjunctiva: PERRL
   Head, Ears, Nose, Throat: Normocephalic
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles :predominantly on the
   right with rhonchi as well, new since [**5-28**] exam
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Not assessed
   Labs / Radiology
   6.3 g/dL
   93 K/uL
   139 mg/dL
   3.1 mg/dL
   23 mEq/L
   4.9 mEq/L
   51 mg/dL
   103 mEq/L
   141 mEq/L
   23.4 %
   5.2 K/uL
        [image002.jpg]
                             [**2134-5-27**]  09:35 AM
                             [**2134-5-28**]  04:04 AM
                             [**2134-5-28**]  04:23 AM
                             [**2134-5-28**]  04:35 PM
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
                             [**2134-5-30**]  12:30 AM
                             [**2134-5-30**]  12:35 AM
                             [**2134-5-30**]  06:11 AM
                             [**2134-5-30**]  06:27 AM
   WBC
   4.9
   4.9
   5.2
   Hct
   21.8
   20.0
   20.0
   23.4
   Plt
   113
   119
   93
   Cr
   1.4
   1.8
   2.5
   3.1
   TCO2
   28
   28
   27
   25
   25
   Glucose
   125
   104
   143
   139
   Other labs: PT / PTT / INR:17.8/35.1/1.6, CK / CKMB /
   Troponin-T:66/7/0.65, ALT / AST:43/120, Alk Phos / T Bili:157/2.7,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:417 IU/L, Ca++:9.2 mg/dL, Mg++:2.2 mg/dL, PO4:4.9
   mg/dL
   Catheter tip [**5-27**] central line and HD line: likely to be c. tropicalis
   CXR [**5-29**]: increasing right sided infiltrate.
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement and recurrent sezures on therapeutic dilantin.
   >Hypothermia and rigors:  fungemia (A line clx and tip), on Fluconazole
   d1= [**5-26**], neg TTE and neg opth eval..
   - removed CVC and HD cath (both line tips were positive), although
   blood clx were neg to date, new positive  blood cultures would be an
   indication for TEE.
   - cont Fluconazole. D1= [**5-26**]
   - surveillance clx from mycolytic
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**]) and
   bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   - Will need LP under IR.
   - check to ensure HIV testing completed
   > High stool out: question of c. dif vs tube feeds. F/u c. dif clx.
   > Hypotension: likely appears [**1-25**] fungemia now complicated by slow drop
   in Hct [**5-29**], and probably will experience SIRS from aspiration event on
   [**5-29**]
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  MAP goal > 60
   - Cortisol was nl last week.
    > Anemia: received a total of 2U PRBC (with inappropriate response
   [**5-29**]). Only recent procedure is LP attempt (with no evidnce of
   hematoma). New increase in LDH ? hemolytic process.
   - Check peripheral smear (prior to transfusion)
   - Hct goal > 25
   - guiac stool
   - transfuse 2UPRBC
   - serial HCT checks
    > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis and now [**5-29**] with new seizures.  ? Whether there is a
   source we are not treating and whether we need to add phenobarb back.
   Will need an additional EEG
   - Dilantin alone (CVVH dosing), level therapeutic
   - LP under IR when possible and will consult with neurology as to
   repeat attempt at LP given concern for alternative CNS
   infectious/inflammatory source.
   - Repeat EEG
   - Neuro rec
   > Renal failure : dialysis break given the removal of the HD catheter
   -  essentially anuric.  Little potential for recovery of this ATN
   - break from  CVVH, with plan for line [**5-31**]
   > Mechanical Ventilation: s/p trach on [**5-7**] with new right sided
   infiltrate in the setting of aspiration during a seizure.
   - Would obtain sputum culture.
   - Would change to PS ventilation if possible
   - Obtain sputum sample
   - Will add Vancomycin for GPC and discuss with ID optimal GNR coverage.
    >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Holding ASA given dropping HCT
   > EtOH Cirrhosis
   - cont rifax
   Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-29**] 05:00 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ hep
   Stress ulcer: PPI,
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-05-31 06:29:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - Neuro attempted LP but failed, in for IR guided LP
   - Extra dose of Phenytoin given 400 x 1
   - EEG not completed --> pending
   - ID recommended d/c ampicillin and starting meropenem (done)
   - Culture data still negative for new BCx growth
   - Sputum culture pending ([**10-17**] pmn, 1 + yeast)
   - started vancomycin
   - transfused 2 pRBC
   - tried PS but switched to AC
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-30**] 04:00 AM
   Vancomycin - [**2134-5-30**] 10:11 AM
   Bactrim (SMX/TMP) - [**2134-5-30**] 12:05 PM
   Fluconazole - [**2134-5-30**] 08:04 PM
   Meropenem - [**2134-5-31**] 02:31 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-30**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-31**] 06:28 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 75 (75 - 88) bpm
   BP: 107/55(71) {89/48(61) - 159/83(106)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
    CVP: 24 (21 - 35)mmHg
   Total In:
                                                                  5,023 mL
                                                                    581 mL
   PO:
   TF:
                                                                  1,053 mL
                                                                    356 mL
   IVF:
                                                                    852 mL
                                                                    196 mL
   Blood products:
                                                                  2,398 mL
   Total out:
                                                                    180 mL
                                                                     20 mL
   Urine:
                                                                    180 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,843 mL
                                                                    561 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.46/32/127/23/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 318
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   101 K/uL
   9.1 g/dL
   161 mg/dL
   3.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   63 mg/dL
   102 mEq/L
   141 mEq/L
   26.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
                             [**2134-5-30**]  12:30 AM
                             [**2134-5-30**]  12:35 AM
                             [**2134-5-30**]  06:11 AM
                             [**2134-5-30**]  06:27 AM
                             [**2134-5-30**]  11:57 AM
                             [**2134-5-30**]  02:49 PM
                             [**2134-5-30**]  07:40 PM
                             [**2134-5-31**]  04:22 AM
   WBC
   4.9
   5.2
   6.0
   6.5
   Hct
   20.0
   20.0
   23.4
   25.8
   25.1
   26.8
   Plt
   119
   93
   124
   101
   Cr
   2.5
   3.1
   3.4
   3.7
   TCO2
   27
   25
   25
   23
   Glucose
   143
   139
   98
   161
   Other labs: PT / PTT / INR:18.8/38.4/1.7, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:43/107, Alk Phos / T Bili:148/3.7,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:340 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures:  likely secondary to listeriosis
   (listeria meningitis and cerebritis) and fungemia. Abscesses seen on
   MRI.  Attempted LP yesterday.
   - can attempt LP today (at bedside vs. IR)
   - f/u neuro recs in light of new seizure and ? phenobarb resuming
   - continue amp/bactrim for listeria
   - continue fluconazole for fungemia
   - repeat EEG
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   -continue to f/u cultures, surveillance cultures
   - per ID, fluconazole treatment for now
   - per ophtho no endophthalmitis
   - HD and CVL removed on R, awaiting HD reinsertion for tentatively
   Monday
   - if continues to grow fungal cx, will need TEE
   * Respiratory failure: CXR appears that pt may have aspirated this AM
   during sz like activity
   - daily CXR
   - sputum sample
   - broaden coverage for vancomycin
   - attempt PS and check gas
   * Anemia:  Microcytic.
   -  3 PM Hct
   - add on hemolysis labs, peripheral smear
   - guiaic stools
   - transfuse 2 pRBCs
   * Hypotension: possibly related to sepsis / listeria however on
   treatment for this, also likely component of third spacing, has
   anasarca.
   -continue levophed, wean as tolerated, MAP goal > 50mmHg
   -continue to treat above infections
   * Acute anuric renal failure:
   -ATN in setting of hypotension, however, not recovering
   -CVVH, currently on hold given lack of HD line for line holiday, plan
   to reinsert Monday unless urgently needed over the weekend
   * Transaminitis with history of cirrhosis.
   -trend LFTs, INR, hold spironolactone, MS w/o response to lactulose,
   continue rifaximin
   * Thrombocytopenia: stable, Likely from cirrhosis.  [**Month (only) 8**] be in setting
   of giving blood products
   - Continue to trend daily
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-30**] 04:00 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-05-31 07:47:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
 SPUTUM CULTURE - At [**2134-5-30**] 09:58 AM
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-30**] 04:00 AM
   Vancomycin - [**2134-5-30**] 10:11 AM
   Bactrim (SMX/TMP) - [**2134-5-30**] 12:05 PM
   Fluconazole - [**2134-5-30**] 08:04 PM
   Meropenem - [**2134-5-31**] 02:31 AM
   Infusions:
   Norepinephrine - 0.05 mcg/Kg/min
   Other ICU medications:
   Lansoprazole (Prevacid) - [**2134-5-30**] 08:23 AM
   Heparin Sodium (Prophylaxis) - [**2134-5-30**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-5-31**] 07:47 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.8
C (100.1
   Tcurrent: 37.4
C (99.4
   HR: 75 (75 - 88) bpm
   BP: 107/55(71) {89/48(61) - 159/83(106)} mmHg
   RR: 26 (19 - 31) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
   CVP: 24 (21 - 35)mmHg
   Total In:
                                                                  5,023 mL
                                                                    671 mL
   PO:
   TF:
                                                                  1,053 mL
                                                                    426 mL
   IVF:
                                                                    852 mL
                                                                    215 mL
   Blood products:
                                                                  2,398 mL
   Total out:
                                                                    180 mL
                                                                     20 mL
   Urine:
                                                                    180 mL
                                                                     20 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  4,843 mL
                                                                    651 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 343 (343 - 343) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 0
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 31
   PIP: 22 cmH2O
   Plateau: 18 cmH2O
   SpO2: 96%
   ABG: 7.46/32/127/23/0
   Ve: 13.1 L/min
   PaO2 / FiO2: 318
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: [**Last Name (LF) 1022**], [**First Name3 (LF) 1023**] and trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Not assessed), (Left DP pulse: Not
   assessed)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Skin:  Warm
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Unresponsive, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, No(t) Paralyzed, Tone: Normal
   Labs / Radiology
   9.1 g/dL
   101 K/uL
   161 mg/dL
   3.7 mg/dL
   23 mEq/L
   4.3 mEq/L
   63 mg/dL
   102 mEq/L
   141 mEq/L
   26.8 %
   6.5 K/uL
        [image002.jpg]
                             [**2134-5-29**]  03:00 AM
                             [**2134-5-29**]  04:03 AM
                             [**2134-5-30**]  12:30 AM
                             [**2134-5-30**]  12:35 AM
                             [**2134-5-30**]  06:11 AM
                             [**2134-5-30**]  06:27 AM
                             [**2134-5-30**]  11:57 AM
                             [**2134-5-30**]  02:49 PM
                             [**2134-5-30**]  07:40 PM
                             [**2134-5-31**]  04:22 AM
   WBC
   4.9
   5.2
   6.0
   6.5
   Hct
   20.0
   20.0
   23.4
   25.8
   25.1
   26.8
   Plt
   119
   93
   124
   101
   Cr
   2.5
   3.1
   3.4
   3.7
   TCO2
   27
   25
   25
   23
   Glucose
   143
   139
   98
   161
   Other labs: PT / PTT / INR:18.8/38.4/1.7, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:43/107, Alk Phos / T Bili:148/3.7,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:340 IU/L, Ca++:9.2 mg/dL, Mg++:2.3 mg/dL, PO4:5.0
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement and recurrent sezures on therapeutic dilantin.
    >Hypothermia and rigors:  fungemia (A line clx and tip), on
   Fluconazole d1= [**5-26**], neg TTE and neg opth eval..
   - removed CVC and HD cath (both line tips were positive), although
   blood clx were neg to date, new positive  blood cultures would be an
   indication for TEE.
   - cont Fluconazole. D1= [**5-26**]
   - surveillance clx from mycolytic
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**]) and
   bactrim ( d1 =  [**5-10**]). Six week course planned.
   - f/u blood clx
   - Will need LP under IR.
   - check to ensure HIV testing completed
   > High stool out: question of c. dif vs tube feeds. F/u c. dif clx.
    > Hypotension: likely appears [**1-25**] fungemia now complicated by slow
   drop in Hct [**5-29**], and probably will experience SIRS from aspiration
   event on [**5-29**]
   - Initially due to Listeria sepsis, with component of cardiogenic shock
   in setting of stress cardiomyopathy.
   -  MAP goal > 60
    > Anemia: received a total of 2U PRBC (with inappropriate response
   [**5-29**]). Only recent procedure is LP attempt (with no evidnce of
   hematoma). New increase in LDH ? hemolytic process.
   - Check peripheral smear (prior to transfusion)
   - Hct goal > 25
   - guiac stool
   - transfuse 2UPRBC
   - serial HCT checks
    > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis and now [**5-29**] with new seizures.  ? Whether there is a
   source we are not treating and whether we need to add phenobarb back.
   Will need an additional EEG
   - Dilantin alone (CVVH dosing), level therapeutic
   - LP under IR when possible and will consult with neurology as to
   repeat attempt at LP given concern for alternative CNS
   infectious/inflammatory source.
   - Repeat EEG
   - Neuro rec
   > Renal failure : dialysis break given the removal of the HD catheter
   -  essentially anuric.  Little potential for recovery of this ATN
   - break from  CVVH, with plan for line [**5-31**]
   > Mechanical Ventilation: s/p trach on [**5-7**] with new right sided
   infiltrate in the setting of aspiration during a seizure.
   - Would change to PS ventilation if possible
   - Obtain sputum sample
   - Will add Vancomycin for GPC and discuss with ID optimal GNR coverage.
    >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Holding ASA given dropping HCT
   > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-5-30**] 04:00 PM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-06-01 08:46:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -free dilantin level slightly high, awaiting neuro recs regarding
   dilantin
   -d/w ID LP results- they will get back to us
   -s/p LP and L IJ HD catheter by IR
   -started CVVH with goal net fluid balance of 0.
   -fluc dosing changed to 400mg IV daily
   -neuro recs to consider stereotactic drainage of abscesses
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Ampicillin - [**2134-5-30**] 04:00 AM
   Vancomycin - [**2134-5-30**] 10:11 AM
   Fluconazole - [**2134-5-31**] 08:06 PM
   Meropenem - [**2134-6-1**] 06:08 AM
   Bactrim (SMX/TMP) - [**2134-6-1**] 06:08 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-5-31**] 10:05 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-1**] 08:38 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.4
C (97.6
   Tcurrent: 35.8
C (96.4
   HR: 69 (66 - 75) bpm
   BP: 101/60(74) {90/52(64) - 135/75(94)} mmHg
   RR: 20 (15 - 25) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
    CVP: 20 (20 - 20)mmHg
   Total In:
                                                                  3,689 mL
                                                                  3,408 mL
   PO:
   TF:
                                                                    977 mL
                                                                    417 mL
   IVF:
                                                                  1,857 mL
                                                                  2,811 mL
   Blood products:
                                                                    616 mL
   Total out:
                                                                  2,006 mL
                                                                  3,390 mL
   Urine:
                                                                     90 mL
                                                                     60 mL
   NG:
   Stool:
                                                                    500 mL
   Drains:
   Balance:
                                                                  1,683 mL
                                                                     18 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CMV/ASSIST/AutoFlow
   Vt (Set): 500 (0 - 500) mL
   Vt (Spontaneous): 494 (494 - 494) mL
   PS : 0 cmH2O
   RR (Set): 14
   RR (Spontaneous): 3
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI Deferred: Elevated ICP
   PIP: 14 cmH2O
   Plateau: 16 cmH2O
   Compliance: 45.5 cmH2O/mL
   SpO2: 96%
   ABG: 7.41/34/188/20/-1
   Ve: 13.8 L/min
   PaO2 / FiO2: 470
   Physical Examination
   GEN: nad, not responsive to verbal or noxious stimuli
   HEENT: PERRL
   CARD: RRR,  no m/r/g
   PULM: CTAB, trach
   ABD: soft, NT, ND, no masses or organomegaly
   EXT: wwp, + bilat symmetric edema
   NEURO: spontaneous eye opening and head movement, no purposeful
   movement, does not respond to verbal or noxious stimuli
   Labs / Radiology
   117 K/uL
   9.0 g/dL
   143 mg/dL
   3.2 mg/dL
   20 mEq/L
   3.8 mEq/L
   56 mg/dL
   102 mEq/L
   140 mEq/L
   26.8 %
   6.1 K/uL
        [image002.jpg]
                             [**2134-5-30**]  06:11 AM
                             [**2134-5-30**]  06:27 AM
                             [**2134-5-30**]  11:57 AM
                             [**2134-5-30**]  02:49 PM
                             [**2134-5-30**]  07:40 PM
                             [**2134-5-31**]  04:22 AM
                             [**2134-5-31**]  09:48 PM
                             [**2134-5-31**]  10:04 PM
                             [**2134-6-1**]  04:16 AM
                             [**2134-6-1**]  04:35 AM
   WBC
   6.0
   6.5
   6.1
   Hct
   23.4
   25.8
   25.1
   26.8
   26.8
   Plt
   124
   101
   117
   Cr
   3.4
   3.7
   3.2
   TCO2
   25
   23
   23
   22
   Glucose
   98
   161
   158
   143
   Other labs: PT / PTT / INR:18.4/35.0/1.7, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:46/98, Alk Phos / T Bili:146/3.2,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.6 g/dL, LDH:279 IU/L, Ca++:8.9 mg/dL, Mg++:2.2 mg/dL, PO4:4.1
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures:
   -no improvement in mental status today, possibly non convulsive status
   epilepticus- f/u EEG
   -f/u free dilantin level, d/w neuro dilantin dosing
   -d/w neurology and ID the elevated CSF in protein- possibly related to
   previous infection
   -continue fluc, [**Last Name (un) **], bactrim
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   -f/u cultures
   -treat w/ fluconazole
   - hold on TEE as has varices
   * Respiratory failure:
   -focal opacities of RLL likely related to aspiration in setting of
   seizure
   -continue meropenem x 5 days then switch to ampicillin
   -attempt to wean vent settings to PSV
   * Anemia:  Microcytic
   -trend daily
   * Hypotension: attempt to wean pressors, unclear if related to fungemia
   and listeria.
   -Wean pressors to keep MAP > 60.
   * Acute anuric renal failure:
   -CVVH, goal I/O even
   -f/u renal recs
   * cirrhosis.
   -lactulose, rifaximin
   -trend thrombocytopena
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-1**] 01:10 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: sc heparin tid
   Stress ulcer:  PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-02 06:32:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Neuro: EEG without evidence of seizure, demonstrated generalized
   slowing, EEG removed. Dilantin continued.
   -ID: sputum with yeast is final/not speciated.
   -Norepi to 0.02 but unable to decrease even with very positive fluid
   balance
   -CVVH machine dysfunction, off for ~ 4 hours
   -Thursday 2 pm family meeting
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-1**] 10:57 AM
   Meropenem - [**2134-6-1**] 05:59 PM
   Fluconazole - [**2134-6-1**] 08:00 PM
   Bactrim (SMX/TMP) - [**2134-6-2**] 06:19 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-6-1**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-2**] 06:32 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 69 (66 - 73) bpm
   BP: 104/59(74) {86/48(61) - 114/65(81)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,478 mL
                                                                  2,111 mL
   PO:
             TF:
                                                                  1,263 mL
                                                                    359 mL
   IVF:
                                                                  6,616 mL
                                                                  1,663 mL
   Blood products:
   Total out:
                                                                  5,171 mL
                                                                    301 mL
   Urine:
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,307 mL
                                                                  1,810 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 648 (399 - 648) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/34/160/21/-2
   Ve: 11.4 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   8.8 g/dL
   127 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2134-5-31**]  10:04 PM
                             [**2134-6-1**]  04:16 AM
                             [**2134-6-1**]  04:35 AM
                             [**2134-6-1**]  09:26 AM
                             [**2134-6-1**]  04:37 PM
                             [**2134-6-1**]  04:45 PM
                             [**2134-6-1**]  09:54 PM
                             [**2134-6-1**]  10:15 PM
                             [**2134-6-2**]  03:42 AM
                             [**2134-6-2**]  03:52 AM
   WBC
   6.1
   5.8
   6.7
   Hct
   26.8
   26.0
   26.4
   Plt
   117
   107
   123
   Cr
   3.2
   2.8
   2.8
   2.4
   TCO2
   23
   22
   24
   24
   22
   Glucose
   143
   152
   118
   162
   127
   Other labs: PT / PTT / INR:19.0/38.7/1.8, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:47/111, Alk Phos / T Bili:150/3.1,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures:
   -no improvement in mental status today, possibly non convulsive status
   epilepticus- f/u EEG
   -f/u free dilantin level, d/w neuro dilantin dosing
   -d/w neurology and ID the elevated CSF in protein- possibly related to
   previous infection
   -continue fluc, [**Last Name (un) **], bactrim
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   -f/u cultures
   -treat w/ fluconazole
   - hold on TEE as has varices
   * Respiratory failure:
   -focal opacities of RLL likely related to aspiration in setting of
   seizure
   -continue meropenem x 5 days then switch to ampicillin
   -continue vancomycin
   -attempt to wean vent settings to PSV
   * Anemia:  Microcytic
   -trend daily
   * Hypotension: attempt to wean pressors, unclear if related to fungemia
   and listeria.
   -Wean pressors to keep MAP > 60.
   * Acute anuric renal failure:
   -CVVH, goal I/O even
   -f/u renal recs
   * cirrhosis.
   -lactulose, rifaximin
   -trend thrombocytopena
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-1**] 01:10 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments: family meeting on Tuesday
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-02 06:37:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -Urology: d/c CBI as urine clear--tolerated well
   -GI: profuse liquid stool. Surgery consult/anoscopy with posterior anal
   fissure--rec keeping stool soft, avoid rectal tube, topical
   nitroglycerin as needed.  Bag on rectum to keep stool off decubitus
   ulcer. Stool sent for C. difficle
   -Neuro: dilantin level remained low, per neurology, gave 500 mg IV
   Dilantin slowly and patient tolerated well. Infusion finished at 2:30
   am. Plan to recheck levels in am.
   -Post transfusion HCT stable
   -Lantus decreased due to low am blood sugar
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-1**] 10:57 AM
   Meropenem - [**2134-6-1**] 05:59 PM
   Fluconazole - [**2134-6-1**] 08:00 PM
   Bactrim (SMX/TMP) - [**2134-6-2**] 06:19 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-6-1**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-2**] 06:37 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 69 (66 - 73) bpm
   BP: 104/59(74) {86/48(61) - 114/65(81)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,478 mL
                                                                  2,137 mL
   PO:
             TF:
                                                                  1,263 mL
                                                                    363 mL
   IVF:
                                                                  6,616 mL
                                                                  1,684 mL
   Blood products:
   Total out:
                                                                  5,171 mL
                                                                    301 mL
   Urine:
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,307 mL
                                                                  1,841 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 648 (399 - 648) mL
   PS : 10 cmH2O
   RR (Set): 14
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/34/160/21/-2
   Ve: 11.4 L/min
   PaO2 / FiO2: 400
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   123 K/uL
   8.8 g/dL
   127 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2134-5-31**]  10:04 PM
                             [**2134-6-1**]  04:16 AM
                             [**2134-6-1**]  04:35 AM
                             [**2134-6-1**]  09:26 AM
                             [**2134-6-1**]  04:37 PM
                             [**2134-6-1**]  04:45 PM
                             [**2134-6-1**]  09:54 PM
                             [**2134-6-1**]  10:15 PM
                             [**2134-6-2**]  03:42 AM
                             [**2134-6-2**]  03:52 AM
   WBC
   6.1
   5.8
   6.7
   Hct
   26.8
   26.0
   26.4
   Plt
   117
   107
   123
   Cr
   3.2
   2.8
   2.8
   2.4
   TCO2
   23
   22
   24
   24
   22
   Glucose
   143
   152
   118
   162
   127
   Other labs: PT / PTT / INR:19.0/38.7/1.8, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:47/111, Alk Phos / T Bili:150/3.1,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   Assessment and Plan
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-1**] 01:10 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:

2134-06-02 08:02:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Still on NE: 0.018 per min
   > EEG no evidence of seizure
   > CVVH down for 4 hrs
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-1**] 10:57 AM
   Meropenem - [**2134-6-1**] 05:59 PM
   Fluconazole - [**2134-6-1**] 08:00 PM
   Bactrim (SMX/TMP) - [**2134-6-2**] 06:19 AM
   Infusions:
   Norepinephrine - 0.03 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-6-1**] 11:10 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-2**] 08:02 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.2
C (97.2
   Tcurrent: 36.1
C (96.9
   HR: 69 (66 - 73) bpm
   BP: 104/59(74) {86/48(61) - 114/65(81)} mmHg
   RR: 21 (17 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,440 mL
                                                                  2,523 mL
   PO:
             TF:
                                                                  1,224 mL
                                                                    399 mL
   IVF:
                                                                  6,616 mL
                                                                  2,034 mL
   Blood products:
   Total out:
                                                                  5,171 mL
                                                                    301 mL
   Urine:
                                                                     85 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,269 mL
                                                                  2,222 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 648 (399 - 648) mL
   PS : 10 cmH2O
   RR (Spontaneous): 19
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 27
   PIP: 16 cmH2O
   SpO2: 98%
   ABG: 7.40/34/160/21/-2
   Ve: 11.4 L/min
   PaO2 / FiO2: 400
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema
   Head, Ears, Nose, Throat: Normocephalic, trach and peg
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 3+, Left: 3+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, Tone: Normal
   Labs / Radiology
   8.8 g/dL
   123 K/uL
   127 mg/dL
   2.4 mg/dL
   21 mEq/L
   4.5 mEq/L
   39 mg/dL
   105 mEq/L
   140 mEq/L
   26.4 %
   6.7 K/uL
        [image002.jpg]
                             [**2134-5-31**]  10:04 PM
                             [**2134-6-1**]  04:16 AM
                             [**2134-6-1**]  04:35 AM
                             [**2134-6-1**]  09:26 AM
                             [**2134-6-1**]  04:37 PM
                             [**2134-6-1**]  04:45 PM
                             [**2134-6-1**]  09:54 PM
                             [**2134-6-1**]  10:15 PM
                             [**2134-6-2**]  03:42 AM
                             [**2134-6-2**]  03:52 AM
   WBC
   6.1
   5.8
   6.7
   Hct
   26.8
   26.0
   26.4
   Plt
   117
   107
   123
   Cr
   3.2
   2.8
   2.8
   2.4
   TCO2
   23
   22
   24
   24
   22
   Glucose
   143
   152
   118
   162
   127
   Other labs: PT / PTT / INR:19.0/38.7/1.8, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:47/111, Alk Phos / T Bili:150/3.1,
   Amylase / Lipase:216/200, Differential-Neuts:77.3 %, Lymph:11.9 %,
   Mono:3.6 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:1.9 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:9.1 mg/dL, Mg++:2.2 mg/dL, PO4:3.0
   mg/dL
   CXR [**6-2**]: rll infiltrate and left HD and left IJ in good position, no
   signif changes.
   EEG [**2134-6-1**]
   IMPRESSION: This is an abnormal continuous video-EEG because of
   moderate diffuse background slowing, absent posterior dominant rhythm,
   brief periods of diffuse background attenuation, and frequent bursts of
   frontally maximal triphasic waves. These findings are indicative of
   moderate diffuse cerebral dysfunction, which is etiologically
   nonspecific. Triphasic waves are commonly seen in metabolic
   encephalopathies. There are no electrographic seizures.
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement and recurrent seizures on therapeutic dilantin on [**5-30**].
   >Fungemia:  fungemia (A line [**Month/Day (4) 6984**] and tip), on Fluconazole d1= [**5-26**], neg
   TTE and neg opth eval., subsequent  surveillance [**Month/Day (4) 6984**] neg.
   - removed CVC and HD cath (both line tips were positive), although
   blood [**Month/Day (4) 6984**] were neg to date, new positive  blood cultures would be an
   indication for TEE (so far negative). 1,3 glucan is 70
an indeterminare
   value.
   - cont Fluconazole. D1= [**5-26**] (CVVH dosing)
   - surveillance [**Month/Day (4) 6984**] from mycolytic neg to date.
   - TEE on hold given varices
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**] then
   restarted [**5-23**] and stopped [**5-30**]) and bactrim ( d1 =  [**5-10**]). Six week
   course planned.  Meropenem as additional coverage [**5-30**] (for both
   listeria and aspiration). Difficult to interpret LP (will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 6984**], [**First Name3 (LF) **]
   far negative)
   - f/u blood [**First Name3 (LF) 6984**]
   > Hypotension: likely appears [**1-25**] fungemia now complicated by slow drop
   in Hct [**5-29**], and probably some element of  SIRS from aspiration event on
   [**5-29**], conts with pressor requirement.
   -  MAP goal > 60, supportive with NE
    > Anemia: received a total of 2U PRBC (with inappropriate response
   [**5-29**]). Stable after transfusion.
   - Hct goal > 25
   - guiac stool
   - serial HCT checks
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis and  [**5-29**] with new seizures.  ? Whether there is a
   source we are not treating and whether we need to add phenobarb back.
   EEG so evidence of seizure but diffuse slowing. .  LP difficult to
   interpret: ? from traumatic taps vs infectious process (gram stain neg)
   - Dilantin alone, with additional dose given [**5-30**]
    > Renal failure : dialysis break given the removal of the HD catheter
   -  essentially anuric.  Little potential for recovery of this ATN
   - restart CVVH, run even to slightly net neg.
    > Respiratory failure: s/p trach on [**5-7**] with new right sided
   infiltrate in the setting of aspiration during a seizure.
   - wean down to PS 5/5 today and recheck ABG.
   - Obtain sputum sample
   - Cont Vanco (D1=[**5-30**]) and Meropenem (D1=[**5-30**]) for 8 day course if neg
   sputum.
     >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Holding ASA given low Hct
   > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-1**] 01:10 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication: Family meeting held  Comments:
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-06-03 06:05:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - vent to [**4-27**] --> ABG 7.41/35/172/23
   - dilantin level 12.4 and neuro stated no changes, check AM level
   - renal recs - may benefit from some fluid off, but defers to primary
   team; check vanco level
   - ID recs - TEE, fluc [**Date range (1) 6995**], cont current abx, bronch if possible,
   if not then continue vanc and [**Last Name (un) **] x 8 days
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-2**] 01:50 PM
   Bactrim (SMX/TMP) - [**2134-6-2**] 01:50 PM
   Fluconazole - [**2134-6-2**] 08:36 PM
   Meropenem - [**2134-6-3**] 05:54 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-6-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-3**] 06:05 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 66 (64 - 71) bpm
   BP: 102/56(72) {79/44(55) - 104/62(77)} mmHg
   RR: 17 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,323 mL
                                                                  2,088 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    334 mL
   IVF:
                                                                  6,673 mL
                                                                  1,635 mL
   Blood products:
   Total out:
                                                                  4,952 mL
                                                                    985 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,371 mL
                                                                  1,103 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 204 (51 - 719) mL
   PS : 5 cmH2O
   RR (Spontaneous): 22
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 11 cmH2O
   SpO2: 99%
   ABG: 7.43/33/153/20/0
   Ve: 15.2 L/min
   PaO2 / FiO2: 383
   Physical Examination
   Peripheral Vascular: (Right radial pulse: Not assessed), (Left radial
   pulse: Not assessed), (Right DP pulse: Not assessed), (Left DP pulse:
   Not assessed)
   Skin:  Not assessed
   Neurologic: Responds to: Not assessed, Movement: Not assessed, Tone:
   Not assessed
   Labs / Radiology
   111 K/uL
   9.0 g/dL
   179 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   27.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2134-6-2**]  03:42 AM
                             [**2134-6-2**]  03:52 AM
                             [**2134-6-2**]  09:55 AM
                             [**2134-6-2**]  10:18 AM
                             [**2134-6-2**]  04:48 PM
                             [**2134-6-2**]  05:04 PM
                             [**2134-6-2**]  10:56 PM
                             [**2134-6-3**]  12:41 AM
                             [**2134-6-3**]  04:50 AM
                             [**2134-6-3**]  05:15 AM
   WBC
   6.7
   6.8
   7.0
   Hct
   26.4
   25.5
   27.4
   Plt
   123
   103
   111
   Cr
   2.4
   2.1
   2.0
   1.8
   TCO2
   22
   23
   23
   24
   23
   Glucose
   127
   155
   125
   100
   179
   Other labs: PT / PTT / INR:19.7/39.2/1.8, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:47/111, Alk Phos / T Bili:150/3.1,
   Amylase / Lipase:216/200, Differential-Neuts:80.3 %, Lymph:8.2 %,
   Mono:3.7 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures:
   -no improvement in mental status today, possibly non convulsive status
   epilepticus- f/u EEG
   -f/u free dilantin level, d/w neuro dilantin dosing
   -d/w neurology and ID the elevated CSF in protein- possibly related to
   previous infection
   -continue fluc, [**Last Name (un) **], bactrim
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   -f/u cultures
   -treat w/ fluconazole
   - hold on TEE as has varices
   * Respiratory failure:
   -focal opacities of RLL likely related to aspiration in setting of
   seizure
   -continue meropenem x 5 days then switch to ampicillin
   -continue vancomycin
   -attempt to wean vent settings to PSV
   * Anemia:  Microcytic
   -trend daily
   * Hypotension: attempt to wean pressors, unclear if related to fungemia
   and listeria.
   -Wean pressors to keep MAP > 60.
   * Acute anuric renal failure:
   -CVVH, goal I/O even
   -f/u renal recs
   * cirrhosis.
   -lactulose, rifaximin
   -trend thrombocytopena
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-2**] 02:14 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: Boots
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: Full code
   Disposition:ICU

2134-06-03 07:41:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   HPI:
   24 Hour Events:
   > Switch to PS and tolerated, then apneic overnight and given a back up
   rate
   >  Briefly [**Last Name (un) **] to decrease pressor requirement (then back up)
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Vancomycin - [**2134-6-2**] 01:50 PM
   Bactrim (SMX/TMP) - [**2134-6-2**] 01:50 PM
   Fluconazole - [**2134-6-2**] 08:36 PM
   Meropenem - [**2134-6-3**] 05:54 AM
   Infusions:
   Norepinephrine - 0.04 mcg/Kg/min
   Other ICU medications:
   Heparin Sodium (Prophylaxis) - [**2134-6-2**] 10:00 PM
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-3**] 07:41 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 35.9
C (96.7
   Tcurrent: 35.6
C (96
   HR: 67 (64 - 71) bpm
   BP: 104/57(73) {79/44(55) - 104/62(77)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 99%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,323 mL
                                                                  2,481 mL
   PO:
             TF:
                                                                  1,320 mL
                                                                    420 mL
   IVF:
                                                                  6,673 mL
                                                                  1,941 mL
   Blood products:
   Total out:
                                                                  4,952 mL
                                                                  1,619 mL
   Urine:
                                                                     25 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  3,371 mL
                                                                    862 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: CPAP/PSV
   Vt (Spontaneous): 28 (28 - 719) mL
   PS : 5 cmH2O
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 72
   PIP: 10 cmH2O
   SpO2: 99%
   ABG: 7.43/33/153/20/0
   Ve: 11.5 L/min
   PaO2 / FiO2: 383
   Physical Examination
   General Appearance: Overweight / Obese
   Eyes / Conjunctiva: PERRL, Sclera edema, icterus
   Head, Ears, Nose, Throat: [**Last Name (LF) 1022**], [**First Name3 (LF) 1023**]. trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present, Distended
   Extremities: Right: 2+, Left: 2+
   Musculoskeletal: Muscle wasting
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Tactile stimuli, No(t) Oriented (to): , Movement: Non -purposeful,
   No(t) Sedated, Tone: Normal
   Labs / Radiology
   9.0 g/dL
   111 K/uL
   179 mg/dL
   1.8 mg/dL
   20 mEq/L
   4.2 mEq/L
   29 mg/dL
   106 mEq/L
   141 mEq/L
   27.4 %
   7.0 K/uL
        [image002.jpg]
                             [**2134-6-2**]  03:42 AM
                             [**2134-6-2**]  03:52 AM
                             [**2134-6-2**]  09:55 AM
                             [**2134-6-2**]  10:18 AM
                             [**2134-6-2**]  04:48 PM
                             [**2134-6-2**]  05:04 PM
                             [**2134-6-2**]  10:56 PM
                             [**2134-6-3**]  12:41 AM
                             [**2134-6-3**]  04:50 AM
                             [**2134-6-3**]  05:15 AM
   WBC
   6.7
   6.8
   7.0
   Hct
   26.4
   25.5
   27.4
   Plt
   123
   103
   111
   Cr
   2.4
   2.1
   2.0
   1.8
   TCO2
   22
   23
   23
   24
   23
   Glucose
   127
   155
   125
   100
   179
   Other labs: PT / PTT / INR:19.7/39.2/1.8, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:47/111, Alk Phos / T Bili:150/3.1,
   Amylase / Lipase:216/200, Differential-Neuts:80.3 %, Lymph:8.2 %,
   Mono:3.7 %, Eos:7.1 %, Fibrinogen:172 mg/dL, Lactic Acid:2.5 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:9.3 mg/dL, Mg++:1.9 mg/dL, PO4:2.5
   mg/dL
   CXR [**6-3**]: left Ij and HD line in good position, b/l lower lobe
   infiltrates. , no interval change from [**6-2**]
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement and recurrent seizures on therapeutic dilantin on [**5-30**].
   >Fungemia:  fungemia (A line [**Month/Day (4) 6984**] and tip), on Fluconazole d1= [**5-26**], neg
   TTE and neg opth eval., subsequent  surveillance [**Month/Day (4) 6984**] neg.  concern [**6-3**]
   ? of hypothermia and ? increasing pressor requirement
   - removed CVC and HD cath (both line tips were positive), although
   blood [**Month/Year (2) 6984**] were neg to date, new positive  blood cultures would be an
   indication for TEE (so far negative). 1,3 glucan is 70
an indeterminare
   value.
   - cont Fluconazole. D1= [**5-26**] (CVVH dosing)
   - surveillance [**Month/Day (4) 6984**] from mycolytic neg to date.
   - TEE on hold given varices
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**] then
   restarted [**5-23**] and stopped [**5-30**]) and bactrim ( d1 =  [**5-10**]). Six week
   course planned.  Meropenem as additional coverage [**5-30**] (for both
   listeria and aspiration). Difficult to interpret LP (will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 6984**], [**First Name3 (LF) **]
   far negative)
   > Hypotension: likely appears [**1-25**] fungemia now complicated by slow drop
   in Hct [**5-29**], and probably some element of  SIRS from aspiration event on
   [**5-29**], conts with pressor requirement.
   -  MAP goal > 60, supportive with NE
     > Anemia: received a total of 2U PRBC (with inappropriate response
   [**5-29**]). Stable after transfusion.
   - Hct goal > 25
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis and  [**5-29**] with new seizures.  ? Whether there is a
   source we are not treating and whether we need to add phenobarb back.
   EEG so evidence of seizure but diffuse slowing. .  LP difficult to
   interpret: ? from traumatic taps vs infectious process (gram stain neg)
   - Dilantin alone for seizure prophylaxis, with additional dose given
   [**5-30**]
    > Renal failure : dialysis break given the removal of the HD catheter
   -  essentially anuric.  Little potential for recovery of this ATN
   - restart CVVH, run even to slightly net neg as he tolerates.
    > Respiratory failure: s/p trach on [**5-7**] with new right sided
   infiltrate in the setting of aspiration during a seizure.
   - wean down to PS 5/5 today and recheck ABG.
   - Obtain sputum sample
   - Cont Vanco (D1=[**5-30**]) and Meropenem (D1=[**5-30**]) for 8 day course if neg
   sputum.
      >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Holding ASA given low Hct
   > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-2**] 02:14 PM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation
   Comments:
   Communication: Family meeting today
   Code status: Full code
   Disposition :ICU
   Total time spent: 45 minutes
   Patient is critically ill

2134-06-04 07:31:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   -free dilantin pending for entire day, extra dilantin dose not given
   -neuro recs possible repeat EEG
   -Rectal temp 96.8- all lines recultured
   -family meeting- patient made DNR
   -no new renal recs or ID recs
   -plan to d/c vanc tomorrow and change [**Last Name (un) **] to ampicillin
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-6-2**] 01:50 PM
   Vancomycin - [**2134-6-3**] 08:45 AM
   Fluconazole - [**2134-6-3**] 08:12 PM
   Meropenem - [**2134-6-4**] 06:40 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-4**] 07:29 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 71 (64 - 75) bpm
   BP: 84/48(61) {84/48(60) - 123/77(91)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.6 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,454 mL
                                                                  2,422 mL
   PO:
             TF:
                                                                  1,328 mL
                                                                    412 mL
   IVF:
                                                                  6,706 mL
                                                                  1,951 mL
   Blood products:
   Total out:
                                                                  7,144 mL
                                                                  3,449 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,310 mL
                                                                 -1,027 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 585 (411 - 888) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.44/32/149/20/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 373
   Physical Examination
   GEN: spontaneous eye opening without any purposeful movement today
   HEENT: anicteric, no cervical LAD
   CHEST: diffuse rhonchi
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT soft, NABS
   EXT: anasarca
   NEURO: unable to move extremities, but able to follow some commands
   Labs / Radiology
   115 K/uL
   8.8 g/dL
   128 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.6 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   27.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-6-3**]  04:50 AM
                             [**2134-6-3**]  05:15 AM
                             [**2134-6-3**]  10:15 AM
                             [**2134-6-3**]  10:34 AM
                             [**2134-6-3**]  04:09 PM
                             [**2134-6-3**]  04:33 PM
                             [**2134-6-3**]  09:54 PM
                             [**2134-6-3**]  10:04 PM
                             [**2134-6-4**]  03:25 AM
                             [**2134-6-4**]  03:37 AM
   WBC
   7.0
   6.6
   6.9
   Hct
   27.4
   28.4
   27.0
   Plt
   111
   124
   115
   Cr
   1.8
   1.6
   1.6
   1.3
   TCO2
   23
   23
   23
   22
   22
   Glucose
   179
   109
   145
   133
   128
   Other labs: PT / PTT / INR:21.4/43.1/2.0, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:49/129, Alk Phos / T Bili:164/3.0,
   Amylase / Lipase:216/200, Differential-Neuts:76.7 %, Lymph:10.0 %,
   Mono:3.9 %, Eos:8.8 %, Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures: wax and wane mental status
   -f/u free dilantin level, d/w neuro dilantin dosing
   -continue fluc, [**Last Name (un) **], bactrim
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   - beginning to become hypothermic again, culture if hypothermic
   - f/u cultures
   - treat w/ fluconazole
   * Respiratory failure: focal opacities of RLL likely related to
   aspiration in setting of seizure
   - switch to ampicillin, continue bactrim, d/c meropenem and vancomycin
   - follow ABGs
   * Anemia:  Microcytic
   -trend daily
   -stable
   * eosinophilia:
   -trend, currently absolute eosinophilia count 500
   * Hypotension: attempt to wean pressors, unclear if related to fungemia
   and listeria.
   -Wean pressors to keep MAP > 60
   * Acute anuric renal failure:
   -CVVH, goal I/O even
   -f/u renal recs
   * cirrhosis.
   -lactulose, rifaximin
   -trend thrombocytopena
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-4**] 02:23 AM 55 mL/hour
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer: PPI
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR (do not resuscitate)
   Disposition:ICU

2134-06-04 07:51:00 Physician Attending Progress Note
Chief Complaint:
   I saw and examined the patient, and was physically present with the ICU
   Resident for key portions of the services provided.  I agree with his /
   her note above, including assessment and plan.
   24 Hour Events:
   > Family meeting yesterday lasting 1 hour
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-6-2**] 01:50 PM
   Vancomycin - [**2134-6-3**] 08:45 AM
   Fluconazole - [**2134-6-3**] 08:12 PM
   Meropenem - [**2134-6-4**] 06:40 AM
   Infusions:
   Norepinephrine - 0.06 mcg/Kg/min
   Other ICU medications:
   Other medications:
   Changes to medical and family history:
   PMH, SH, FH and ROS are unchanged from Admission except where noted
   above and below
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-4**] 07:50 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 36.3
C (97.4
   Tcurrent: 35.8
C (96.4
   HR: 71 (64 - 75) bpm
   BP: 84/48(61) {84/48(60) - 123/77(91)} mmHg
   RR: 18 (16 - 24) insp/min
   SpO2: 98%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.6 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  8,454 mL
                                                                  2,517 mL
   PO:
             TF:
                                                                  1,328 mL
                                                                    429 mL
   IVF:
                                                                  6,706 mL
                                                                  2,028 mL
   Blood products:
   Total out:
                                                                  7,144 mL
                                                                  3,449 mL
   Urine:
                                                                     40 mL
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,310 mL
                                                                   -932 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV/AutoFlow
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 585 (411 - 888) mL
   PS : 5 cmH2O
   RR (Set): 8
   RR (Spontaneous): 23
   PEEP: 5 cmH2O
   FiO2: 40%
   RSBI: 75
   PIP: 11 cmH2O
   SpO2: 98%
   ABG: 7.44/32/149/20/0
   Ve: 12.9 L/min
   PaO2 / FiO2: 373
   Physical Examination
   General Appearance: No acute distress
   Eyes / Conjunctiva: Sclera edema
   Head, Ears, Nose, Throat: [**Last Name (LF) 1022**], [**First Name3 (LF) 1023**]/trach
   Lymphatic: Cervical WNL
   Cardiovascular: (S1: Normal), (S2: Normal)
   Peripheral Vascular: (Right radial pulse: Diminished), (Left radial
   pulse: Diminished), (Right DP pulse: Diminished), (Left DP pulse:
   Diminished)
   Respiratory / Chest: (Breath Sounds: Crackles : , Diminished: )
   Abdominal: Soft, Non-tender, Bowel sounds present
   Extremities: Right: 2+, Left: 3+
   Musculoskeletal: Muscle wasting, Unable to stand
   Skin:  Warm, Jaundice
   Neurologic: No(t) Attentive, No(t) Follows simple commands, Responds
   to: Noxious stimuli, No(t) Oriented (to): , Movement: Not assessed,
   No(t) Sedated, Tone: Not assessed
   Labs / Radiology
   8.8 g/dL
   115 K/uL
   128 mg/dL
   1.3 mg/dL
   20 mEq/L
   4.6 mEq/L
   21 mg/dL
   105 mEq/L
   138 mEq/L
   27.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-6-3**]  04:50 AM
                             [**2134-6-3**]  05:15 AM
                             [**2134-6-3**]  10:15 AM
                             [**2134-6-3**]  10:34 AM
                             [**2134-6-3**]  04:09 PM
                             [**2134-6-3**]  04:33 PM
                             [**2134-6-3**]  09:54 PM
                             [**2134-6-3**]  10:04 PM
                             [**2134-6-4**]  03:25 AM
                             [**2134-6-4**]  03:37 AM
   WBC
   7.0
   6.6
   6.9
   Hct
   27.4
   28.4
   27.0
   Plt
   111
   124
   115
   Cr
   1.8
   1.6
   1.6
   1.3
   TCO2
   23
   23
   23
   22
   22
   Glucose
   179
   109
   145
   133
   128
   Other labs: PT / PTT / INR:21.4/43.1/2.0, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:49/129, Alk Phos / T Bili:164/3.0,
   Amylase / Lipase:216/200, Differential-Neuts:76.7 %, Lymph:10.0 %,
   Mono:3.9 %, Eos:8.8 %, Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   76yo with Listeria meningitis, fungemia  and septic shock with MODS,
   still critically ill, multi organ dysfunction  and now with limited MS
   improvement and recurrent seizures on therapeutic dilantin on [**5-30**].
   Overall prognosis is quite poor.
   >Fungemia:  fungemia (A line [**Month/Day (4) 6984**] and tip), on Fluconazole d1= [**5-26**], neg
   TTE and neg opth eval., subsequent  surveillance [**Month/Day (4) 6984**] neg.  concern [**6-3**]
   ? of hypothermia and ? increasing pressor requirement
   - removed CVC and HD cath (both line tips were positive), although
   blood [**Month/Year (2) 6984**] were neg to date, new positive  blood cultures would be an
   indication for TEE (so far negative). 1,3 glucan is 70
an indeterminare
   value.
   - cont Fluconazole. D1= [**5-26**] (CVVH dosing)
   - surveillance [**Month/Day (4) 6984**] from mycolytic neg to date.
   - TEE on hold given varices
   - F/u blood [**Month/Day (4) 6984**] (surveillance) from [**6-3**]
   > Listeriosis:   ampicillin (d 1 = [**5-4**], stopped on [**4-26**] then
   restarted [**5-23**] and stopped [**Date range (1) 7031**] while on meropenem, no [**6-4**] back on
   ampicillin) and bactrim ( d1 =  [**5-10**]). Six week course planned.
   Difficult to interpret LP (will f/[**Initials (NamePattern4) **] [**Last Name (NamePattern4) 6984**], [**First Name3 (LF) **] far negative)
   > Hypotension: lappears [**1-25**] fungemia now complicated by slow drop in
   Hct [**5-29**], and probably some element of  SIRS from aspiration event on
   [**5-29**], conts with pressor requirement.
   -  MAP goal > 60, supportive with NE
    > Anemia: received a total of 2U PRBC (with inappropriate response
   [**5-29**]). Stable after transfusion.
   - Hct goal > 25
   > Altered mental status thought to be multifactorial (seizures, toxic
   metabolic, renal failure, hepatic dysfunction) now complicated by new
   infection with no improvement in MS [**First Name (Titles) **] [**Last Name (Titles) 6894**] demonstrating abscess and
   cont cerebritis and  [**5-29**] with new seizures.  ? Whether there is a
   source we are not treating and whether we need to add phenobarb back.
   EEG so evidence of seizure but diffuse slowing. .  LP difficult to
   interpret: ? from traumatic taps vs infectious process (gram stain neg)
   - Dilantin alone for seizure prophylaxis, with additional dose given
   [**5-30**]
   > Renal failure : dialysis break given the removal of the HD catheter
   -  essentially anuric.  Little potential for recovery of this ATN
   - run CVVH even
    > Respiratory failure: s/p trach on [**5-7**] with new right sided
   infiltrate in the setting of aspiration during a seizure.
   - wean down to PS 5/5 today and recheck ABG.
   - Obtain sputum sample
   - Cont Vanco (D1=[**5-30**]) and Meropenem (D1=[**5-30**]), has completed a 5 day
   course [**6-4**] (neg [**Month/Year (2) 6984**])
      >Cardiomyopathy
   - TTE [**5-18**] showed improved function and nl bivent function [**5-27**]
   - Holding ASA given low Hct
   > EtOH Cirrhosis
   - cont rifax
    Additional  Issues per ICU resident note
   ICU Care
   Nutrition:
   Nutren Renal (Full) - [**2134-6-4**] 02:23 AM 55 mL/hour
   Glycemic Control:  Regular insulin sliding scale
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT: Boots, SQ UF Heparin
   Stress ulcer:
   VAP: HOB elevation, Mouth care
   Comments:
   Communication:  Comments: Family meeting held [**6-3**]
   Code status: DNR (do not resuscitate)
   Disposition :ICU
   Total time spent: 35 minutes
   Patient is critically ill

2134-06-05 07:20:00 Physician Resident Progress Note
Chief Complaint:
   24 Hour Events:
   - d/c'ed vancomycin (completed course)
   - restarted ampicillin
   - CVVH running even
   - re: HD line: no more CVVH after clotting off per family
   - yesterday late afternoon was CMO, but overnight HCP decided to keep
   NE gtt on but no VS or labs
   Allergies:
   Nadolol
   Hypotension;
   Propranolol
   Hypotension;
   Lidocaine Hcl/Epinephrine (Injection)
   Palpitations;
   Last dose of Antibiotics:
   Bactrim (SMX/TMP) - [**2134-6-2**] 01:50 PM
   Vancomycin - [**2134-6-3**] 08:45 AM
   Fluconazole - [**2134-6-3**] 08:12 PM
   Meropenem - [**2134-6-4**] 06:40 AM
   Ampicillin - [**2134-6-4**] 12:01 PM
   Infusions:
   Norepinephrine - 0.13 mcg/Kg/min
   Other ICU medications:
   Morphine Sulfate - [**2134-6-4**] 02:08 PM
   Other medications:
   Changes to medical and family history:
   Review of systems is unchanged from admission except as noted below
   Review of systems:
   Flowsheet Data as of  [**2134-6-5**] 07:19 AM
   Vital signs
   Hemodynamic monitoring
   Fluid balance
                                                                  24 hours
                                                               Since 12 AM
   Tmax: 37.2
C (99
   Tcurrent: 37.2
C (99
   HR: 92 (68 - 94) bpm
   BP: 121/54(70) {117/53(67) - 121/55(70)} mmHg
   RR: 27 (8 - 27) insp/min
   SpO2: 96%
   Heart rhythm: SR (Sinus Rhythm)
   Wgt (current): 112.6 kg (admission): 102 kg
   Height: 70 Inch
             Total In:
                                                                  5,547 mL
                                                                    149 mL
   PO:
             TF:
                                                                    902 mL
   IVF:
                                                                  4,435 mL
                                                                    149 mL
   Blood products:
   Total out:
                                                                  4,473 mL
                                                                      0 mL
   Urine:
   NG:
   Stool:
   Drains:
   Balance:
                                                                  1,074 mL
                                                                    149 mL
   Respiratory support
   O2 Delivery Device: Tracheostomy tube
   Ventilator mode: MMV/PSV
   Vt (Set): 500 (500 - 500) mL
   Vt (Spontaneous): 540 (540 - 1,150) mL
   PS : 10 cmH2O
   RR (Set): 8
   RR (Spontaneous): 30
   PEEP: 5 cmH2O
   FiO2: 40%
   PIP: 16 cmH2O
   SpO2: 96%
   ABG: ///19/
   Ve: 10.9 L/min
   Physical Examination
   GEN: spontaneous eye opening without any purposeful movement today
   HEENT: anicteric, no cervical LAD
   CHEST: diffuse rhonchi
   CV: RRR, nl S1, S2, no m/r/g
   ABD: NDNT soft, NABS
   EXT: anasarca
   NEURO: unable to move extremities, but able to follow some commands
   Labs / Radiology
   115 K/uL
   8.8 g/dL
   136 mg/dL
   1.3 mg/dL
   19 mEq/L
   4.3 mEq/L
   21 mg/dL
   104 mEq/L
   139 mEq/L
   27.0 %
   6.9 K/uL
        [image002.jpg]
                             [**2134-6-3**]  05:15 AM
                             [**2134-6-3**]  10:15 AM
                             [**2134-6-3**]  10:34 AM
                             [**2134-6-3**]  04:09 PM
                             [**2134-6-3**]  04:33 PM
                             [**2134-6-3**]  09:54 PM
                             [**2134-6-3**]  10:04 PM
                             [**2134-6-4**]  03:25 AM
                             [**2134-6-4**]  03:37 AM
                             [**2134-6-4**]  10:31 AM
   WBC
   6.6
   6.9
   Hct
   28.4
   27.0
   Plt
   124
   115
   Cr
   1.6
   1.6
   1.3
   TCO2
   23
   23
   23
   22
   22
   Glucose
   109
   145
   133
   128
   136
   Other labs: PT / PTT / INR:21.4/43.1/2.0, CK / CKMB /
   Troponin-T:59/7/0.65, ALT / AST:49/129, Alk Phos / T Bili:164/3.0,
   Amylase / Lipase:216/200, Differential-Neuts:76.7 %, Lymph:10.0 %,
   Mono:3.9 %, Eos:8.8 %, Fibrinogen:172 mg/dL, Lactic Acid:1.8 mmol/L,
   Albumin:3.4 g/dL, LDH:365 IU/L, Ca++:8.9 mg/dL, Mg++:1.9 mg/dL, PO4:2.2
   mg/dL
   Assessment and Plan
   76M with DM and cirrhosis presented to an OSH in septic shock, likely
   secondary to listeriosis now w/ multiorgansystem failure and presumed
   meningitis/cerebritis and difficult to control seizures, now with
   fungemia.
   * Altered mental status/seizures: wax and wane mental status
   -f/u free dilantin level, d/w neuro dilantin dosing
   -continue fluc, [**Last Name (un) **], bactrim
   - if seizes, check FS
   * Fungemia: all lines growing fungus
   - beginning to become hypothermic again, culture if hypothermic
   - f/u cultures
   - treat w/ fluconazole
   * Respiratory failure: focal opacities of RLL likely related to
   aspiration in setting of seizure
   - switch to ampicillin, continue bactrim, d/c meropenem and vancomycin
   - follow ABGs
   * Anemia:  Microcytic
   -trend daily
   -stable
   * eosinophilia:
   -trend, currently absolute eosinophilia count 500
   * Hypotension: attempt to wean pressors, unclear if related to fungemia
   and listeria.
   -Wean pressors to keep MAP > 60
   * Acute anuric renal failure:
   -CVVH, goal I/O even
   -f/u renal recs
   * cirrhosis.
   -lactulose, rifaximin
   -trend thrombocytopena
   * DM2: BS < 200
   -RISS
   ICU Care
   Nutrition:
   Glycemic Control:
   Lines:
   Arterial Line - [**2134-5-27**] 12:53 AM
   Multi Lumen - [**2134-5-27**] 05:21 PM
   Dialysis Catheter - [**2134-5-31**] 11:30 AM
   Prophylaxis:
   DVT:
   Stress ulcer:
   VAP:
   Comments:
   Communication:  Comments:
   Code status: DNR/ no escalation of care from pressors and trach
   Disposition: